2120-01-03 06:56:00 Physician Resident Progress Note
Chief Complaint: S/p PEA arrest during echo while admitted for presumed
   COPD admission to [**Hospital1 **] [**Location (un) 1415**].
   To [**Location (un) 1415**] with SOB, cough, thought to be COPD. Declined BiPAP. PEA
   arrest at noon on [**1-1**]. Given atropine, epinephrine, intubation and
   CRP with restoration of circulation. On levophed. CT torso showed
   spinal fracture at T11 with hemorrhage into canal. CT head clear
   despite right ear bleeding. Hypothesis is kyphosis/AS with fusion,
   lying flat and CRP -> fracture.
   24 Hour Events:
   - Spoke to Anesthesia about surgery (that Ortho. Spine agreed to).
   They feel risk very great, but likely less if wait after cardiac
   arrest.  Therefore will be important to assess functional status,
   clearly understand functional status prior to event, know what cortical
   function is like, discuss with daughter (Anesthesia happy to talk to
   her in a.m. - just call Anesthetist on service in a.m. in OR - x43000
   when daughter here or know that she's available).
   - No bowel movements
   - Will be repeat echo this a.m.
   - Need to discuss plan with Ortho Spine and Anesthetics.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2120-1-2**] 08:12 PM
   Levofloxacin - [**2120-1-2**] 09:59 PM
   Piperacillin - [**2120-1-3**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2120-1-2**] 02:20 PM
   Fentanyl - [**2120-1-2**] 04:30 PM
   Midazolam (Versed) - [**2120-1-2**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 74 (68 - 88) bpm
   BP: 98/45(64) {70/42(56) - 186/93(130)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (8 - 18)mmHg
   Total In:
                                                                  1,785 mL
                                                                    348 mL
   PO:
   TF:
   IVF:
                                                                  1,785 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                    259 mL
                                                                    365 mL
   Urine:
                                                                    259 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,526 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (380 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 28 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/55/145/30/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Very Obese, lying on back, intubated on assist
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, no further
   right ear bleeding.
   Cardiovascular: Very distant heart sounds
   Peripheral Vascular: DP not palpable, radial 1+.
   Extremities: right hand and left foot cool; left foot and right arm
   warm.  Right arm erythematous.
   Respiratory / Chest: Expansion: Symmetric, Breath Sounds: Wheeze
   throughout.  Did not auscultate back
   Abdominal: Soft, Bowel sounds present, Obese, non-tender
   Skin:  Not assessed
   Neurologic: Responds to loud verbal stimuli, touching chest, Movement:
   Movement of neck and opening of eyes in response to verbal stimuli and
   tactile stimulation of chest. Sedated.
   Labs / Radiology
   335 K/uL
   9.6 g/dL
   122
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   36 mg/dL
   108 mEq/L
   144 mEq/L
   29.7 %
   19.9 K/uL
        [image002.jpg]
   ABG:  7.35  55  145  32  3
   CK 825  MB 21  MBI 3.1
 2.5  TT 0.04 (from 0.07 at arrival)
                            [**2120-1-2**]  12:46 PM
                            [**2120-1-2**]  02:32 PM
                            [**2120-1-2**]  07:21 PM
                            [**2120-1-2**]  10:00 PM
                            [**2120-1-3**]  03:43 AM
                            [**2120-1-3**]  04:00 AM
                            [**2120-1-3**]  04:22 AM
   WBC
   11.3
   19.9
   Hct
   28.7
   30.1
   29.7
   Plt
   205
   335
   Cr
   0.7
   0.7
   TropT
   0.07
   0.04
   0.04
   TCO2
   33
   32
   Glucose
   113
   110
   124
   122
   Other labs: PT / PTT / INR:13.1/30.8/1.1, CK / CKMB /
   Troponin-T:825/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:83.0 %, Lymph:12.7 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:215 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Micro:
   Gram stain
 Endotracheal sputum [**10-29**] PMNs, 3+ GNRs, 1+ budding yeast
   Legionella antigen negative
   Blood cultures pending.
   Imaging: CT Torso [**2120-1-1**]:
   2. Massive disruption at the T11 level with distraction, hemorrhage
   into the central canal, massive angulation and vertebral body
   destruction.  Vertebral body destruction ivovles essentially the entire
   T11 body and the inferior aspect of T10.  There is extensive soft
   tissue pathology here.  While much of this is of high attenuation the
   suggestion of hemorrhage, and given the underlying bony ankylosis
   trauam is thought a possible diagnosis, infection and or pathological
   fracture secondary to tumor are myeloma are not excluded.
   2. There is no evidence of primary or secondary malignancy elsewhere.
   There are no findings suggestive of dissection or acute aortic
   pathology.  There are innumerable pulmonary nodules, many of which are
   ground glass in nature, possible infectious but non-specific.
   Echocardiogram [**2120-1-1**]:
   The left atrial volume is mildly increased. Left ventricular wall
   thicknesses are normal. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is mildly depressed (LVEF=
   50 %). Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets are moderately thickened. There is moderate
   aortic valve stenosis (valve area 1.0-1.2cm2). No aortic regurgitation
   is seen. The mitral valve leaflets are mildly thickened. Mild (1+)
   mitral regurgitation is seen. There is no pericardial effusion.
   CT Head [**2120-1-1**]:
   The ventricles and sulci are normal in caliber and configuration.
   Remnant contrast is seen within the venous and arterial system within
   the brain likely from prior done CT torso.  This lowers the
   sensitivity of the current study for small infarcts.  However no large
   infarcts, bleeds, or other acute processes are present.  No fractures
   are present.  The mastoid air cells and sinuses are well-aerated.  An
   ET tube is seen in the oral cavity.
   CXR [**2120-1-1**]:
   An endotracheal tube has been positioned with the tip about 5 cm above
   the carina.  There is diffuse density overlying the right base but this
   appears to be artificial.  The lungs appear clear with
   normal vascularity and the cardiac size is within normal limits.
   ECG: EKG [**2119-12-30**]: sinus tachycardia at 107, normal axis, q waves in
   II, III, aVF, no ST slevation or depression.
   Assessment and Plan
   This is a 76 year old female with a history of COPD on home oxygen,
   moderate to severe aortic stenosis and diastolic heart failure who
   presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on exertion
   and cough productive of clear sputum transferred here after PEA arrest
   with evidence of unstable T11 fracture. Cord injury very likely, very
   poor surgical candidate, so will need to discuss this further with
   Ortho, Anesthetics and family. Otherwise treat respiratory
   failure/COPD.
   Unstable T11 fracture
   Spine is currently unstable. Cord involvement likely and recovery
   unlikely. Therefore intervention to improve stability and possibly to
   prevent pain associated with instability. Currently not withdrawing to
   painful stimuli in the lower extremities.  Ortho. Spine happy to
   operate. Need to evaluate and discuss further with Anesthetics and
   Ortho. Possible that delaying may improve prognosis with respect to
   anesthesia/procedure. Not clear that patient will tolerate lying prone
   for procedure. MRI not possible due to girth, so evaluation of spinal
   injury will have to be functional.
   - Consider MRI if possible
   - D/w Anesthesia and Ortho Spine then
   - D/w family whether or not operative management would be within the
   patient's goals of care
   - Log roll precautions
   Shortness of breath/Hypercarbic respiratory failure
   Patient with known COPD at baseline on home oxygen.  She initially
   presented with worsening dyspnea and cough.  She quickly progressed to
   hypercarbic respiratory failure.  CXR have been unremarkable but CT
   chest with multiple small nodules which could be infectious in origin.
   Concern for atypical pathogens given recurrent steroid use. Legionella
   is negative, therefore can stop levofloxacin coverage.
   - Continue solumedrol 80 mg IV Q8H
   - Continue albuterol and ipratropium
   - Continue mechanical ventilation for now
   PEA arrest
   Enzymes now trending down. Most likely etiology is hypercarbia/hypoxia
   given ABG at the time of her arrest.  Unclear how long she was
   pulseless but she had return of spontaneous circulation with one round
   of epinephrine and atropine. Relatively [**Name2 (NI) 11259**] enzymes leak consistent
   with relatively brief event. There are no EKGs from the time of the
   arrest in her paperwork.  She had a CT Torso which showed no evidence
   of pulmonary embolism.  She was not cooled post-arrest. Will evaluate
   cardiac function.
   - Echo this a.m.
   Hypotension
   Differential diagnosis is broad and includes sepsis, cardiogenic shock,
   obstructive shock, volume depletion, decreased preload secondary to
   mechanical ventilation and others. Patient is (still about) 5.5 liters
   positive since her cardiac arrest yesterday.
   - Echocardiogram pending
   - Fluid challenge now for resuscitation goals of CVP > 10, UOP > 30
   cc/hr, MAP > 60
   - Continue fentanyl and versed (instead of Propofol)
   - Check mixed venous oxygen saturation
   - Phenylephrine for pressor as needed
   Leukocytosis
   Contribution by PEA arrest, steroids, spinal fracture, but still need
   to be sensitive to history of MRSA basteremia.  Will hold off on
   Vancomycin for now given previous adverse reaction (consider linezolid
   if febrile or others signs of sepsis).
   - Follow
   Urinary Tract Infection
   Patient with ciprofloxacin resistent urinary tract infection on
   [**2119-12-31**].  Now on ceftriaxone day [**2-11**].
   - Continue ceftriaxone day [**2-11**]
   Anemia
   Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now stable at 29. Likely
   dilutional in the setting of fluid resuscitation post-arrest.  Also a
   report of mild gastrointesinal bleeding in the setting of lovenox
   administration.
   - Maintain active type and screen
   - Trend hematocrit
   - Guaiac stools
   - Transfusion goal > 25 in periarrest period
   Right Ear Bleeding
   Possible injury to tympanic membrane during resuscitation in context of
   anticoagulation.  Normal head CT at [**Location (un) 1415**].
   - Otoscopy
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-1-2**] 12:30 PM
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-05 07:05:00 Physician Resident Progress Note
Chief Complaint: PEA arrest in context of COPD flare, fracture T11
   found also.
   24 Hour Events:
   - Ortho: sp shoulder reduction. Should remain in sling for comfort.
   Left shoulder will easily dislocate. Do not use the arm to move/lift
   patient. Call Ortho if dislocates.
   - Ortho Spine: No new recs today. Willing to take paatient to OR if
   requested, but communicate the risk involved.
   - Blood Cultures: [**1-6**] staph coag negative
   - Sputum: PSEUDOMONAS AERUGINOSA, Staph Coag +
   - Attempted to wean pressors. Pressures to 89/40 -> restarted pressors.
   Received 2Liters NS the course of the day.
   - Fluid bolus of 500 cc at 8 a.m. CVP of 9 afterward.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2120-1-2**] 09:59 PM
   Piperacillin - [**2120-1-3**] 12:00 AM
   Ceftriaxone - [**2120-1-3**] 08:25 PM
   Cefipime - [**2120-1-4**] 08:38 PM
   Ciprofloxacin - [**2120-1-4**] 11:38 PM
   Linezolid - [**2120-1-4**] 11:38 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2120-1-4**] 04:45 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-4**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   No further.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-5**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 64 (61 - 88) bpm
   BP: 97/46(64) {79/38(55) - 134/64(92)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 154 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 6 (6 - 15)mmHg
   Total In:
                                                                  4,532 mL
                                                                  1,414 mL
   PO:
   TF:
                                                                    666 mL
                                                                    423 mL
   IVF:
                                                                  3,867 mL
                                                                    992 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    190 mL
   Urine:
                                                                  1,285 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,247 mL
                                                                  1,117 mL
   Producing about 30 mL/hr urine this morning.
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 21
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 23 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/56/125/30/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Very Obese, lying on back, intubated on assist
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, no further
   right ear bleeding.
   Cardiovascular: Very distant heart sounds
   Peripheral Vascular: DP not palpable, radial 1+.
   Extremities: Feet and hands somewhat warm with no difference between
   the sides today.  Adiposity with trace pitting edema, more evident in
   hands.
   Respiratory / Chest: Expansion: Symmetric, Breath Sounds: Wheeze
   throughout.  Did not auscultate back
   Abdominal: Soft, Bowel sounds present, Obese, non-tender
   Skin:  Not assessed
   Neurologic: Responds to verbal stimuli. Some appropriate simple
   responses
 shaking and nodding of head. Movement: Movement of neck and
   opening of eyes in response to verbal stimuli and tactile stimulation
   of chest. Moved hands but not feet on instruction.
   Labs / Radiology
   166 K/uL
   7.9 g/dL
   155 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.5 mEq/L
   39 mg/dL
   110 mEq/L
   144 mEq/L
   24.5 %
   10.8 K/uL
        [image002.jpg]
                            [**2120-1-3**]  03:43 AM
                            [**2120-1-3**]  04:00 AM
                            [**2120-1-3**]  04:22 AM
                            [**2120-1-3**]  11:08 AM
                            [**2120-1-3**]  06:30 PM
                            [**2120-1-4**]  04:16 AM
                            [**2120-1-4**]  04:48 AM
                            [**2120-1-4**]  09:03 PM
                             [**2120-1-5**]  02:53 AM
                             [**2120-1-5**]  03:04 AM
   WBC
   19.9
   18.5
   10.8
   Hct
   29.7
   28.5
   24.5
   Plt
   335
   279
   166
   Cr
   0.7
   0.7
   0.7
   TropT
   0.04
   TCO2
   32
   33
   33
   34
   34
   34
   Glucose
   124
   122
   151
   155
   Other labs: PT / PTT / INR:14.9/33.6/1.3, CK / CKMB /
   Troponin-T:389/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:83.0 %, Lymph:12.7 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:215 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.4
   mg/dL
   Imaging: PFI: Two views of the left shoulder show continued anterior
   dislocation of
   the humeral head with respect to the glenoid. No proximal humeral
   fracture is
   detected, though a [**Doctor Last Name **]-[**Doctor Last Name 9386**] injury or Bankart injury might not be
   apparent
   on these films. The AC joint remains congruent.
   Microbiology: [**2120-1-2**] 12:46 pm BLOOD CULTURE      Source: Line-fem
   line-central.
      Blood Culture, Routine (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
            SENSITIVITIES PERFORMED ON REQUEST..
      Anaerobic Bottle Gram Stain (Final [**2120-1-3**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
         REPORTED BY PHONE TO [**First Name4 (NamePattern1) 11271**] [**Last Name (NamePattern1) **] AT 10:00PM ON [**2120-1-3**].
   [**2120-1-2**] 1:16 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2120-1-2**]):
         [**10-28**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         YEAST.    SPARSE GROWTH.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------     4 S
   CIPROFLOXACIN---------   0.5 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------     1 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   [**2120-1-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2120-1-3**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2120-1-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2120-1-3**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   Assessment and Plan
   This is a 76 year old female with a history of COPD on home oxygen (2L
   baseline), mild aortic stenosis and diastolic heart failure who
   presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on exertion
   and cough productive of clear sputum transferred here after PEA arrest
   with evidence of unstable T11 fracture. Cord injury very likely, very
   poor surgical candidate. After discussing with family, will hold on any
   surgical intervention for spine. Now sputum with coag + staph and
   (likely contaminant) coag
 in blood culture.
   Agree with plan to manage hypercarbic respiratory failure / COPD flare
   / nosocomial pneumonia with VAC, steroids, and broad antibiotic coverge
   for GNRs. For GPC bacteremia, on linezolid, old lines have been
   changed, echo s vegitation - will ask ID re linezolid vs dapto in this
   setting. Will continue neo for BP support, bolus for CVP >12 as she is
   likely very preload dependent, check CvO2. Neuro status stable post
   arrest. Will ask ortho to relocate shoulder. For spine fx, unable to
   offer surgery given ongoing infection at the moment, will continue d/w
   family. Start TFs, communication with daughter, needs SW consult for
   support. Remainder of plan as outlined above.
   Shortness of breath/Hypercarbic respiratory failure
   Patient with known COPD at baseline on home oxygen. Trial of MMV
   yesterday resulted in no spontaneous breathing. Thererfore will check
   gas and if acceptable continue present pressure support for now,
   despite short apneic periods.  Will reduce FiO2 to 30%. Continue but
   reduce steroids for COPD, continue linezolid and cefepime given sputum
   culture. Also continue nebs. CXR stable to improved.
   - Continue CMV
 reduce FiO2 to 30%, check ABG, continue pressure
   support if ABG acceptable
   - Solumedrol to 40 mg IV Q8H
   - Continue albuterol and ipratropium
   - Continue cefepime, linezolid (vancomycin results in desquamative
   reaction) (for 8d course of both since start on [**1-2**])
   Autonomic Lability and Hypotension
   Improved. Interesting
 unknown etiology.  DM, CMV, pain (some not
   transmitted to forebrain/at spinal level/brainstem), spinal injury,
   sepsis, UTI, PNA, other contributors.
   - Treat underlying causes, infection, pain
   - Fluid challenge now for resuscitation goals of CVP > 10, UOP > 30
   cc/hr, MAP > 60
   - Continue fentanyl and versed (instead of Propofol)
   - Check mixed venous oxygen saturation
   - Fluids to support pressure and attempt to wean from pressors
   Pain
   Denies when asked, but possible, so will cover.
   - Tylenol standing to synergize opioids (fentanyl for now)
   - Reevaluate if need to reduce sedation with fentanyl
   Sedation
   We feel that present level of sedation is acceptable. Conscious
   somnolent, but likely light enough for breathing and deep enough for
   pain control (shoulder and back).
   PEA arrest
   Enzymes now trending down. Echo not remarkable.  Escaped serious
   myocardial damage. Typical CAD management.
   Unstable T11 fracture
   Family and Ortho/Anesthetics agreed yesterday to leave this for now,
   pending improved stability for surgery. Will discuss with anesthetics
   and ortho about whether would like to operate before extubation.
   Shoulder Dislocation
   Reduced by Ortho.
   - Continue use of sling and monitor for dislocation and signs of pain
   Leukocytosis and Sepsis
   Trending down now from 18-19 now 10. Contribution by PEA arrest, UTI,
   steroids, spinal fracture, but still need to be sensitive to history of
   MRSA bacteremia, positive sputum and possible (though unlikely) sepsis.
   On linezolid now (given vancomycin reaction
 desquamative), will
   probably not convert to daptomycin because coag negative.  Will
   continue linezolid and cefepime until eight-day course complete on
   [**2120-1-7**].
   Urinary Tract Infection
   Ciprofloxacin stopped based on coverage above.
   Diabetes Mellitus
   Stable
 controlled on ISS (even with steroids).
   Anemia
   Stable to lower. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now
   24.5. Likely dilutional.
   - Maintain active type and screen
   - Trend hematocrit
   - Guaiac stools
   - Transfusion goal > 25 in periarrest period (repeat before
   transfusing)
   ICU care
   Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
    Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-1-5**] 04:29 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 76F morbidly obese, severe COPD, OSAm mod AS,
   diastolic CHF p/w progressive DOE and cough, which progressed over the
   course of hospitalization at [**Location (un) 1415**].  Had PEA arrest in the setting of
   acute hypercarbia c/b T11 fx. +BCx (CNS ) / sputum (CPS/PSA) - on
   cefepime, cipro, linezolid. Had shoulder reduction yesterday, now in
   sling. Remains off pressors.  Transitioned to PSV this am.
   Exam notable for Tm 98.9 BP 134/64  HR  70   RR 15-25  sat 98% on PS
   15 /10   F-0.4  CVP 6  Awake, obese F, NAD,
   intermittently follows commands, still w/ wheeze B, distant HS RRR
   s1s2. Soft +BS. Trace pitting edema, warm ext w/ 2+ pulses
   Labs notable for WBC 10.8K, HCT 25, K+ 4.5 , HCO3 30, Cr 0.7.
   7.37/56/125 (on ACV)
   CXR with full hilar vessels, bases cut off, no new focal opacity
   A/P:  hypercarbic respiratory failure / COPD flare / nosocomial
   pneumonia/t11 fx.
   Agree with plan to slowly wean steroids (decrease to 40 tid) and
   continue MDIS for COPD.  COPD exac, volume, secretions and possibly
   pain control are primary barriers to extubation at this
   time. Will con't PSV decreasing fio2,  tolerating sats in low 90%
   range, following abg. If prolonged apneas would change to
   MMV. For nosocomial PNA (sputum with staph, PSA) continue
   linezolid/cefe, d/c'ing cipro today. This regimen also covers e coli
   uti. Her CNS bacteremia was likely ca ontaminant (1/4 bottles), old
   lines have been changed, echo s vegitation.  Her leukocytosis and
   fevers have improved with antbx.  She remains off pressors.
   Would bolus per CVP and if recurrent hypotension consider prbc
   transfusion given recent cardiac arrest, though no clear
   ischemia,.  Neuro status remains stable post arrest.  For spine
   fx, ortho spine following, unable to offer surgery at this time given
   ongoing infection.  Will clarify plan regarding surgical benefits in
   terms of stabilization and pain control and timing, as this may impact
   movement toward extubation in next few days.  Would use NPPV at night
   given probable OSA/OHS.  Will assess pain requirements, as seems
   much imrpoved since shoulder reduction.  Continue TF, sq hep, ppi, R
   IJ.  Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2120-1-5**] 07:23 PM ------

2120-01-06 07:18:00 Physician Resident Progress Note
Chief Complaint: PEA arrest in context of COPD at [**Location (un) 1415**].  T11
   fracture (complete) likely resulting from CPR.
   24 Hour Events:
   - Spoke to Ortho. Spine (Dr. [**Last Name (STitle) 11297**] who came to see her yesterday
   afternoon - they suggested surgery on Sunday to stabilize spine. This
   will need to be confirmed, discussed with Anesthetics.  Issues are COPD
   flare, but seems to have been no MI despite PEA.
   - Was bradypneic overnight on pressure support to ~ 8. O2 sat remained
   good at about 95%.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2120-1-3**] 08:25 PM
   Ciprofloxacin - [**2120-1-4**] 11:38 PM
   Cefipime - [**2120-1-5**] 10:15 PM
   Linezolid - [**2120-1-6**] 12:54 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-5**] 07:58 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-5**] 10:00 PM
   Midazolam (Versed) - [**2120-1-6**] 12:53 AM
   Fentanyl - [**2120-1-6**] 12:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 100 (64 - 104) bpm
   BP: 113/56(78) {87/38(56) - 115/56(78)} mmHg
   RR: 17 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 154 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 7 (6 - 9)mmHg
   Total In:
                                                                  3,838 mL
                                                                    826 mL
   PO:
   TF:
                                                                  1,448 mL
                                                                    436 mL
   IVF:
                                                                  2,390 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    425 mL
   Urine:
                                                                  1,030 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,808 mL
                                                                    401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 598 (487 - 650) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.33/60/87.[**Numeric Identifier 244**]/32/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Very Obese, lying on back, intubated on assist
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, no further
   right ear bleeding.
   Cardiovascular: Very distant heart sounds
   Peripheral Vascular: DP not palpable, radial 1+.
   Extremities: Adiposity with 1-2+ pitting edema, more evident in hands.
   Respiratory / Chest: Expansion: Symmetric, Breath Sounds: Wheeze
   throughout.  Did not auscultate back
   Abdominal: Soft, Bowel sounds present, Obese, non-tender
   Skin:  Not assessed
   Neurologic: Responds to verbal stimuli. Some appropriate simple
   responses
 shaking and nodding of head. Movement: Movement of neck and
   opening of eyes in response to verbal stimuli and tactile stimulation
   of chest. Moved hands but not feet on instruction.
   Labs / Radiology
   221 K/uL
   8.0 g/dL
   136 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.7 mEq/L
   44 mg/dL
   110 mEq/L
   145 mEq/L
   25.8 %
   11.1 K/uL
        [image002.jpg]
                            [**2120-1-3**]  04:22 AM
                            [**2120-1-3**]  11:08 AM
                            [**2120-1-3**]  06:30 PM
                            [**2120-1-4**]  04:16 AM
                            [**2120-1-4**]  04:48 AM
                            [**2120-1-4**]  09:03 PM
                             [**2120-1-5**]  02:53 AM
                             [**2120-1-5**]  03:04 AM
                             [**2120-1-5**]  12:18 PM
                             [**2120-1-6**]  03:10 AM
   WBC
   18.5
   10.8
   11.1
   Hct
   28.5
   24.5
   25.8
   Plt
   279
   166
   221
   Cr
   0.7
   0.7
   0.6
   TCO2
   32
   33
   33
   34
   34
   34
   33
   Glucose
   151
   155
   136
   Other labs: PT / PTT / INR:13.7/28.4/1.2, CK / CKMB /
   Troponin-T:389/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:83.0 %, Lymph:12.7 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:215 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0
   mg/dL
   Imaging: None.
   Microbiology: Sputum is MRSA.
   Assessment and Plan
   This is a 76 year old female with a history of COPD on home oxygen (2L
   baseline), mild aortic stenosis and diastolic heart failure who
   presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on exertion
   and cough productive of clear sputum transferred here after PEA arrest
   with evidence of unstable T11 fracture. Cord injury very likely, very
   poor surgical candidate. After discussing with family, will hold on any
   surgical intervention for spine. Now sputum with coag + staph and
   (likely contaminant) coag
 in blood culture.
   Shortness of breath/Hypercarbic respiratory failure
   Patient with known COPD at baseline on home oxygen. Trial of MMV on
   [**1-3**] resulted in no spontaneous breathing. Thererfore will check gas
   and if acceptable continue present pressure support for now, despite
   short apneic periods.  Will reduce FiO2 to 30%. Continue but reduce
   steroids for COPD, continue linezolid and cefepime given sputum
   culture. Also continue nebs. CXR stable to improved yesterday.
   Breathing stable to improved.  Little response per RT with nebs and
   fluid balance up by more than 8 liters over stay (here
 perhaps more
   including [**Location (un) 1415**]).  Given pseudomonas and MRSA in sputum
 have to
   cover for SA pneumonia and previous UTI (cefepime now covering)
   - Continue CMV
 reduce FiO2 to 30%
   - Diurese gently with goal of -500 mL to see if respiratory status
   improves further (continue steroids and antibiotics as are for now
   given changing fluid status today and desire to keep her in good shape
   for surgery)
   - Discuss ventilation/respiratory status with anesthesia to see if they
   feel that surgery possible tomorrow.
   - Solumedrol to 40 mg IV Q8H
   - Continue albuterol and ipratropium
   - Continue cefepime, linezolid (vancomycin results in desquamative
   reaction) (for 8d course started on [**1-2**]).
   Unstable T11 fracture
   Ortho. Spine will be able to operate tomorrow.  We will continue to
   maximize respiratory status for surgery.  No MI despite PEA arrest, but
   originally not as clear and Anesthesia
s decision partly based on risk
   associated with recent MI.  Therefore she may not be very far from
   baseline risk at the present time given near baseline echo, no
   significant enzyme leak.  We will discuss ventilating her in prone
   position with recently dislocated shoulder with Anesthesia.
   - Continue to maximize respiratory status as above.
   - Talk to Anesthetics and Ortho Spine today
 also need to discuss with
   family for consent.
   Autonomic Lability and Hypotension
   Improved. Interesting
 unknown etiology.  DM, CMV, pain (some not
   transmitted to forebrain/at spinal level/brainstem), spinal injury,
   sepsis, UTI, PNA, other contributors.
   - Treat underlying causes, infection, pain
   - Continue fentanyl and versed (instead of Propofol)
 emphasize Versed
   over fentanyl given prominent anxiety when sedation is lowered and
   denial of pain
   - Keep off pressors now stable without
   Pain
   Denies when asked, but possible, so will cover.
   - Tylenol standing to synergize opioids (fentanyl for now)
   Sedation
   Possibly slightly too light this a.m. but subsequently in good place
   with adjustment to fentanyl 175 and Versed 2.
   - Continue with emphasis of Versed over fentanyl given prominent
   anxiety.
   PEA arrest
   Enzymes now trending down. Echo not remarkable.  Escaped serious
   myocardial damage. Typical CAD management.
   Shoulder Dislocation
   Reduced by Ortho.
   - Continue use of sling and monitor for dislocation and signs of pain
   Leukocytosis and Question of Sepsis
   Stable.  No other signs of sepsis.  No convincing positive blood
   cultures (one bottle coag-ve SA on arrival). Trending down now from
   18-19 now 11.
   Urinary Tract Infection
   Ciprofloxacin stopped based on cefepime coverage above (now day 8).
   Diabetes Mellitus
   Stable
 controlled on ISS (even with steroids).
   Anemia
   Stable to lower. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now
   24.5. Likely dilutional.
   - Maintain active type and screen
   - Trend hematocrit
   - Guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care
   Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-1-5**] 09:05 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 76F morbidly obese, severe COPD, OSA, mod AS,
   d CHF p/w progressive DOE and cough, which progressed over the course
   of hospitalization at [**Location (un) 1415**].  Had PEA arrest in the setting of
   acute hypercarbia c/b T11 fx. +BCx (CNS) / sputum (MRSA/PSA). Had
   shoulder reduction, now in sling.   Ortho spine following, plan for
   possible spinal stabilization tomorrow. Remains off pressors. Remains
   on PS overnight.
   Exam notable for T 98.2 BP 130/66  HR  60-100   RR 6-23  sat 97% on PS
   15 /10   F: 0.3  + 3L  CVP 6  Obese F, alert, agitated, following
   commands, still w/ exp wheeze B, distant HS RRR s1s2. Soft +BS. Trace
   pitting edema, warm ext w/ 2+ pulses
   Labs notable for WBC 11.1, HCT 26, K+ 4.7 , HCO3 32, Cr 0.5.
   7.33/60/88
   Sputum cx-->PSA, MRSA
   A/P:  hypercarbic respiratory failure / COPD flare / nosocomial
   pneumonia / unstable t11 fx after PEA arrest
   COPD exac, volume ol, secretions are primary barriers to extubation at
   this time, also ? timeframe for surgical spine stabilization. Agree
   with plan to continue to optimize resp status. Suspect volume overload
   is contributing to wheeze. She has been off pressors X 1 day. Will
   gently diurese to goal 500 neg, Continue steroids (40 tid) and MDIS for
   COPD exac.  Will con't PSV,  tolerating sats in low 90% range,
   following abg. MMV seemed to make apneas worse. For nosocomial PNA
   (MRSA, PSA) we continue linezolid/cefe day [**3-10**]. Her CNS bacteremia was
   likely a contaminant (1/4 bottles), old lines have been changed, echo
   s vegetation. S/p treatment now for e coli uti.  Her leukocytosis and
   fevers have improved with antibx.  Neuro status remains stable post
   arrest.  For spine fx, ortho spine following, we work to optimize
   her resp status so that she can tolerate prone positioning for
   spinal stabilization.  Clarify plan regarding  timing, surgical
   benefits in terms of stabilization and pain control as this may impact
   movement toward extubation in next few days.  Pain appears much
   improved since shoulder reduction but agitation and anxiety continue.
   Will increase versed slightly  over fentanyl and follow closely.
   Continue TF, sq hep, ppi, R IJ.  Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2120-1-6**] 13:45 ------

2120-01-07 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 Fracture sp PEA arrest.
   24 Hour Events:
   - At 5pm I/O check, pt wasn't at goal and pt had relative hypotension
   w. lasix 40mgIV bolus w. SBPs high 80s/40s. Started pt on lasix drip at
   1.5mg/hr with -81 cc over the last 24 hours.
   - Never heard from ortho re: ? surgery on Sunday AM.
   - Tried to call both daughters, but no answer.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2120-1-4**] 11:38 PM
   Cefipime - [**2120-1-5**] 10:15 PM
   Linezolid - [**2120-1-7**] 12:32 AM
   Infusions:
   Furosemide (Lasix) - 1.5 mg/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2120-1-6**] 08:30 AM
   Fentanyl - [**2120-1-6**] 08:30 AM
   Furosemide (Lasix) - [**2120-1-6**] 10:10 AM
   Heparin Sodium (Prophylaxis) - [**2120-1-6**] 10:00 PM
   Pantoprazole (Protonix) - [**2120-1-6**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-7**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 68 (68 - 100) bpm
   BP: 115/48(72) {61/34(52) - 118/71(88)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 154 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  2,419 mL
                                                                    447 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                     34 mL
   IVF:
                                                                    978 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    695 mL
   Urine:
                                                                  2,500 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -81 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (405 - 525) mL
   PS : 15 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 30%
   PIP: 28 cmH2O
   SpO2: 92%
   ABG: 7.36/66/74/37/8
   Ve: 6.5 L/min
   PaO2 / FiO2: 247
   Physical Examination
   General Appearance: Very Obese, lying on back, intubated on assist
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, no further
   right ear bleeding.
   Cardiovascular: Very distant heart sounds
   Peripheral Vascular: DP not palpable, radial 1+.
   Extremities: Adiposity with 1-2+ pitting edema, more evident in hands.
   Respiratory / Chest: Expansion: Symmetric, Breath Sounds: Wheeze
   throughout.  Did not auscultate back
   Abdominal: Soft, Bowel sounds present, Obese, non-tender
   Skin:  Not assessed
   Neurologic: Responds to verbal stimuli. Some appropriate simple
   responses
 shaking and nodding of head. Movement: Movement of neck and
   opening of eyes in response to verbal stimuli and tactile stimulation
   of chest. Moved hands but not feet on instruction.
   Labs / Radiology
   205 K/uL
   8.3 g/dL
   132 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.4 mEq/L
   48 mg/dL
   108 mEq/L
   147 mEq/L
   25.8 %
   12.6 K/uL
        [image002.jpg]
                            [**2120-1-4**]  04:16 AM
                            [**2120-1-4**]  04:48 AM
                            [**2120-1-4**]  09:03 PM
                             [**2120-1-5**]  02:53 AM
                             [**2120-1-5**]  03:04 AM
                             [**2120-1-5**]  12:18 PM
                             [**2120-1-6**]  03:10 AM
                             [**2120-1-6**]  05:37 PM
                             [**2120-1-7**]  03:26 AM
                             [**2120-1-7**]  03:50 AM
   WBC
   18.5
   10.8
   11.1
   12.6
   Hct
   28.5
   24.5
   25.8
   25.8
   Plt
   279
   166
   221
   205
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   34
   34
   34
   33
   39
   Glucose
   151
   155
   136
   125
   132
   Other labs: PT / PTT / INR:13.8/31.6/1.2, CK / CKMB /
   Troponin-T:389/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %, Lactic
   Acid:1.0 mmol/L, LDH:215 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.8
   mg/dL
   Micro:
   Urine ([**1-2**]): NGTD Final
   Blood ([**1-2**]): NGTD
   Assessment and Plan
   This is a 76 year old female with a history of COPD on home oxygen (2L
   baseline), mild aortic stenosis and diastolic heart failure who
   presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on exertion
   and cough productive of clear sputum transferred here after PEA arrest
   with evidence of unstable T11 fracture. Cord injury very likely, very
   poor surgical candidate. After discussing with family, will hold on any
   surgical intervention for spine. Now sputum with coag + staph and
   (likely contaminant) coag
 in blood culture.
   Shortness of breath/Hypercarbic respiratory failure
   Breathing stable to improved.  Little response per RT with nebs and
   fluid balance up by more than 8 liters over stay (here
 perhaps more
   including [**Location (un) 1415**]).  Given pseudomonas and MRSA in sputum
 have to
   cover for SA pneumonia and previous UTI (cefepime now covering)
   - Pressure support 15/10, wean as tolerated to [**10-8**] - reduce FiO2 to
   30%
   - Diurese gently with goal of -500 mL to see if respiratory status
   improves further (continue steroids and antibiotics as are for now
   given changing fluid status today and desire to keep her in good shape
   for surgery)
   - Discuss ventilation/respiratory status with anesthesia to see if they
   feel that surgery possible tomorrow.
   - wean Solumedrol to 20 mg IV Q8H
   - Continue albuterol and ipratropium
   - Continue cefepime, linezolid (vancomycin results in desquamative
   reaction) (for 8d course started on [**1-2**]).
   Unstable T11 fracture
   Ortho. Spine willing to operate .  We will continue to maximize
   respiratory status for surgery.  No MI despite PEA arrest, but
   originally not as clear and Anesthesia
s decision partly based on risk
   associated with recent MI.  Therefore she may not be very far from
   baseline risk at the present time given near baseline echo, no
   significant enzyme leak.  We will discuss ventilating her in prone
   position with recently dislocated shoulder with Anesthesia.
   - Continue to maximize respiratory status as above.
   - Talk to Anesthetics and Ortho Spine today
 also need to discuss with
   family for consent.
   Autonomic Lability and Hypotension
   Improved. Interesting
 unknown etiology.  DM, CMV, pain (some not
   transmitted to forebrain/at spinal level/brainstem), spinal injury,
   sepsis, UTI, PNA, other contributors.
   - Treat underlying causes, infection, pain
   - Continue fentanyl and versed (instead of Propofol)
 emphasize Versed
   over fentanyl given prominent anxiety when sedation is lowered and
   denial of pain
   - Keep off pressors now stable without
   Pain
   Denies when asked, but possible, so will cover.
   - Fentanyl for now. Holding off on adding Tylenol given infection and
   blunting of fever response.
   PEA arrest
   Enzymes now trending down. Echo not remarkable.  Escaped serious
   myocardial damage. Typical CAD management.
   Shoulder Dislocation
   Reduced by Ortho.
   - Continue use of sling and monitor for dislocation and signs of pain
   - Repeat Shoulder Xray today
   Leukocytosis and Question of Sepsis
   Stable.  No other signs of sepsis.  No convincing positive blood
   cultures (one bottle coag-ve SA on arrival). Trending down now from
   18-19 now 11.
   Urinary Tract Infection
   Ciprofloxacin stopped based on cefepime coverage above (now day 8).
   Diabetes Mellitus
   Stable
 controlled on ISS (even with steroids).
   Anemia
   Stable to lower. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now
   25.8. Likely dilutional.
   - Maintain active type and screen
   - Trend hematocrit
   - Guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care
   Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT: Sub Q Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 76F morbidly obese, severe COPD, OSA, mod AS,
   d CHF p/w progressive DOE and cough, which progressed over the course
   of hospitalization at [**Location (un) 1415**].  Had PEA arrest in the setting of
   acute hypercarbia c/b T11 fx. +BCx (CNS) / sputum (MRSA/PSA). S/p
   shoulder reduction.  Ortho spine following, with plan for spinal
   stabilization. Remains off pressors. Had transient hypotension after
   lasix bolus-->stabilized--> lasix gtt started. Remains on PS.
   Exam notable for T 99.3  BP 115/48  HR  60-100   RR 16  sat 93% on PS
   15 / 10   F: 0.3  7.36/66/74
   -100 cc  Obese F, alert, following commands, improving exp wheeze B,
   distant HS RRR s1s2. Soft +BS. Trace pitting edema, warm ext w/ 2+
   pulses
   Labs notable for WBC 12.6, HCT 26, K+ 4.7 , HCO3 37, na 147 Cr 0.7.
   Sputum cx-->PSA, MRSA, bl cx neg, urine neg
   cxr--bases not visualized, hilar fullness, no focal process
   A/P:  hypercarbic respiratory failure / COPD flare / nosocomial
   pneumonia / unstable t11 fx after PEA arrest
   COPD exac, volume ol, secretions and positioning pending
   surgery primary barriers to extubation at this time. Agree with plan
   to continue to optimize resp status with lasix gtt diuresis, continue
   steroids (decrease to 20 tid) and MDIS for COPD exac.  Developing a bit
   of contraction alkalosis, but given baseline CO2 retention and copd
   would not use diamox.  Will follow lytes closely, supp KCL as needed.
   Will con't PSV at current level given body habitus and need to lie
   supine,  tolerating sats in low 90% range, following
   abg. For nosocomial PNA (MRSA, PSA) we continue linezolid/cefe day
   [**4-10**].  Her  fevers have improved with antbx, leukocytosis stable on
   steroids, will check ucx and differential.  Neuro status remains stable
   post arrest.  For spine fx, ortho spine following, we work to optimize
   her resp status so that she can tolerate prone positioning for
   spinal stabilization.  Will d/w surgicasl team and anesthesia to
   clarify surgical plan/timing. Shoulder possibly dislocated again--now
   with increased pain to touch.  Will reimage and talk with
   ortho. Overall, however, pain appears much improved.  Agitation and
   anxiety continue.  We continue versed and fentanyl for pain control and
   sedation. Will start bowel regimen.  Replete free water def. Continue
   TF, sq hep, ppi, R IJ.  Remainder of plan as outlined above. Will
   update daughter.
   [**Name (NI) 53**] is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2120-1-7**] 15:50 ------

2120-01-08 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 fracture s/p PEA arrest
   24 Hour Events:
   - Shoulder xray: Without dislocation.
   - Anesthesia: To see patient.
   - PM Lytes: Na improving with free water bolus, Bicarb improved,
   Creatinine stable. Potassium: 4.4
   - Changed Steroids to Solumedrol 20mg IV Q8H
   - Hypernatremia: Started Q6Hrs 50cc Free H20 Flush.
   - UA: Leuk negative, Nitrite Negative, few bacteria.
   - I/O: Lasix gtt 1.5mg/hr, approx -500 at 1700. Decreased Lasix gtt to
   1.0. -900 at 2200. Lasix gtt stopped.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-7**] 08:09 PM
   Linezolid - [**2120-1-8**] 12:20 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2120-1-7**] 11:26 AM
   Pantoprazole (Protonix) - [**2120-1-7**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-7**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-8**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 68 (66 - 99) bpm
   BP: 111/49(71) {93/41(61) - 122/64(81)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 154 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 7 (5 - 13)mmHg
   Total In:
                                                                  1,109 mL
                                                                    412 mL
   PO:
   TF:
                                                                     34 mL
   IVF:
                                                                  1,075 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    415 mL
   Urine:
                                                                  2,295 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,186 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (319 - 465) mL
   PS : 15 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: ///37/
   Ve: 5.7 L/min
   Physical Examination
   General: Obese, lying on back, intubated on assist
   HEENT: PERRL, normocephalic, ETT, no further right ear bleeding
   CV: Distant heart sounds (unchanged)
   Resp: Symmetric, wheezes throughout
   Abd: Soft, bowel sounds present, obese, non-tender
   Ext: DP not palpable; radial 1+
   Neurologic: Responds to verbal stimuli, some appropriate responses
   shaking and nodding of head; Movement of neck and opening of eyes in
   response to verbal stimuli and tactile stimulation of chest
   Labs / Radiology
   219 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.4 mEq/L
   48 mg/dL
   106 mEq/L
   146 mEq/L
   25.4 %
   10.8 K/uL
        [image002.jpg]
                            [**2120-1-4**]  09:03 PM
                             [**2120-1-5**]  02:53 AM
                             [**2120-1-5**]  03:04 AM
                             [**2120-1-5**]  12:18 PM
                             [**2120-1-6**]  03:10 AM
                             [**2120-1-6**]  05:37 PM
                             [**2120-1-7**]  03:26 AM
                             [**2120-1-7**]  03:50 AM
                             [**2120-1-7**]  04:55 PM
                             [**2120-1-8**]  04:14 AM
   WBC
   10.8
   11.1
   12.6
   10.8
   Hct
   24.5
   25.8
   25.8
   25.6
   25.4
   Plt
   166
   221
   205
   219
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   34
   34
   33
   39
   Glucose
   155
   136
   125
   132
   111
   127
   Other labs: PT / PTT / INR:14.0/38.1/1.2, CK / CKMB /
   Troponin-T:389/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %, Lactic
   Acid:1.0 mmol/L, LDH:215 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Imaging:
   [**1-7**] CXR - Suboptimal as the lower lung fields have been excluded from
   the field of view on the study
   [**1-7**] Shoulder x-ray - No gross dislocation is identified on these views
   although they are suboptimal
   Micro:
   [**1-7**] Urine
 Pending
   [**1-2**] Blood culture x2
 Pending
   [**1-2**] Urine
 Final, NGTD
   Assessment and Plan
   76 year old female morbidly obese, history of COPD on home O2 (2L
   baseline), OSA, moderate aortic stenosis and diastolic heart failure
   who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on
   exertion and cough productive of clear sputum transferred here after
   PEA arrest in the setting of acute hypercarbia with evidence of
   unstable T11 fracture.  Poor surgical candidate; ortho spine following
   and willing to operate.  After discussing with family, will hold on any
   surgical intervention for spine at this time.  Sputum with coag+ staph
   and blood culture with coag- (likely contaminant).
   Shortness of breath/Hypercarbic respiratory failure
   Breathing stable to improved.  Little response per RT with nebs and
   fluid balance up by more than 8 liters over stay (here
 perhaps more
   including [**Location (un) 1415**]).  Given pseudomonas and MRSA in sputum
 have to
   cover for SA pneumonia and previous UTI (cefepime now covering)
   - Pressure support 15/10, wean as tolerated to [**10-8**] - reduce FiO2 to
   30%
   - Discuss ventilation/respiratory status with anesthesia to see if they
   feel that surgery possible; need to follow up with anesthesia on their
   recs
   - Lasix gtt stopped overnight after to goal of -1000mL; Consider
   restart today to see if respiratory status continues to improve further
   (continue steroids and antibiotics as are for now given changing fluid
   status today and desire to keep her in good shape for surgery)
   - Solumedrol weaned to 20 mg IV Q8H
   - Continue albuterol and ipratropium
   - Continue cefepime, linezolid (vancomycin resulted in desquamative
   reaction) (for 7d course started on [**1-2**], ending [**1-10**]; currently day
   5).
   Unstable T11 fracture
   Ortho. Spine willing to operate.  We will continue to maximize
   respiratory status for surgery.  No MI despite PEA arrest, but
   originally not as clear and anesthesia
s decision partly based on risk
   associated with recent MI.  Therefore she may not be very far from
   baseline risk at the present time given near baseline echo, no
   significant enzyme leak.  We will discuss ventilating her in prone
   position with recently dislocated shoulder with anesthesia.
   - Continue to maximize respiratory status as above.
   - Talk to Anesthesia and Ortho Spine today
 also need to discuss with
   family for consent.
   Autonomic Lability and Hypotension
   Improved. Unknown etiology.  DM, CMV, pain (some not transmitted to
   forebrain/at spinal level/brainstem), spinal injury, sepsis, UTI, PNA,
   other contributors.
   - Treat underlying causes, infection, pain
   - Continue fentanyl and versed (instead of Propofol)
 emphasize versed
   over fentanyl given prominent anxiety when sedation is lowered and
   denial of pain
   - Stable off pressors
   Pain
   Denies when asked, but possible, so will cover.
   - Fentanyl for now. Holding off on adding Tylenol given infection and
   blunting of fever response.
   PEA arrest
   Enzymes now trending down. Echo not remarkable.  Escaped serious
   myocardial damage. Typical CAD management.
   Shoulder Dislocation
   s/p reduction by Ortho. Repeat shoulder x-ray on [**1-7**] without evidence
   of dislocation.
   - Continue use of sling and monitor for dislocation and signs of pain
   Leukocytosis and Question of Sepsis
   Stable.  No other signs of sepsis.  No convincing positive blood
   cultures (one bottle coag negative SA on arrival). Trending down now
   from 18-19 now 10.8.  Likely reactive.
   Urinary Tract Infection
   Ciprofloxacin stopped based on cefepime coverage above.
   Diabetes Mellitus
   Stable
 controlled on ISS (even with steroids).
   Anemia
   Stable to lower. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now
   25.4. Likely dilutional.
   - Maintain active type and screen
   - Trend hematocrit
   - Guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care
   Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-09 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 fracture s/p PEA arrest
   24 Hour Events:
   - Anesthesia: Continue optimization; high risk surgical patient but
   cardiac risk essentially the same as before PEA; will take for GA.
   - Ortho spine: Aware that patient is ready for OR; resident also
   recommended that we contact Dr. [**Last Name (STitle) **] directly.
   - I/O: Lasix gtt goal 500-1000L negative;
   - Ortho trauma: Recommend daily CXR to assess shoulder dislocation
   - On a.m. of [**1-9**], blood gas shows ppCO2 of 84 while sleeping on PSV
   overnight
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-8**] 10:05 PM
   Linezolid - [**2120-1-9**] 12:10 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-8**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-9**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 65 (65 - 89) bpm
   BP: 116/46(69) {99/40(60) - 126/59(87)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 154 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,340 mL
                                                                    674 mL
   PO:
             TF:
                                                                    240 mL
                                                                    240 mL
   IVF:
                                                                  1,100 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    860 mL
   Urine:
                                                                  1,870 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 366 (366 - 477) mL
   PS : 15 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 30%
   PIP: 26 cmH2O
   SpO2: 91%
   ABG: 7.32/84.[**Numeric Identifier 1625**]/75/38/12
   Ve: 4.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General: Obese, lying on back, intubated on assist
   HEENT: PERRL, normocephalic, ETT, no further right ear bleeding
   CV: Distant heart sounds (unchanged)
   Resp: Symmetric, occasional wheezes otherwise clear
   Abd: Soft, bowel sounds present, obese, non-tender
   Ext: DP not palpable but dopplerable; radial 1+
   Neurologic: Opens eyes, moves head to verbal stimuli; not following
   commands; Movement of upper extremities, not of lower extremities
   Labs / Radiology
   221 K/uL
   8.3 g/dL
   120 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.5 mEq/L
   51 mg/dL
   103 mEq/L
   145 mEq/L
   26.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2120-1-5**]  12:18 PM
                             [**2120-1-6**]  03:10 AM
                             [**2120-1-6**]  05:37 PM
                             [**2120-1-7**]  03:26 AM
                             [**2120-1-7**]  03:50 AM
                             [**2120-1-7**]  04:55 PM
                             [**2120-1-8**]  04:14 AM
                             [**2120-1-8**]  12:51 PM
                             [**2120-1-9**]  03:22 AM
                             [**2120-1-9**]  03:51 AM
   WBC
   11.1
   12.6
   10.8
   13.9
   Hct
   25.8
   25.8
   25.6
   25.4
   26.6
   Plt
   221
   205
   219
   221
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   33
   39
   42
   45
   Glucose
   136
   125
   132
   111
   127
   120
   Other labs: PT / PTT / INR:13.2/28.0/1.1, CK / CKMB /
   Troponin-T:389/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging:
   [**1-9**] CXR
 Unread; unchanged by my read.
   Microbiology:
   [**1-7**] Urine
 Final; negative.
   [**1-2**] Blood culture x 2
 Pending; no growth to date.
   Assessment and Plan
   76 year old female morbidly obese, history of COPD on home O2 (2L
   baseline), OSA, moderate aortic stenosis and diastolic heart failure
   who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on
   exertion and cough productive of clear sputum transferred here after
   PEA arrest in the setting of acute hypercarbia with evidence of
   unstable T11 fracture.  High risk surgical candidate, but ortho spine
   and anesthesia both ready for OR once medically optimized. Sputum with
   coag+ staph and blood culture with coag- staph at admission (likely
   contaminant).
   Unstable T11 fracture
   Stable. Ortho spine is willing to take to OR; Anesthesia is also
   willing to take to OR as may currently be near baseline high risk
   status after PEA with no enzyme leak, near baseline echo. Email sent to
   Dr. [**Last Name (STitle) **] from Dr. [**Last Name (STitle) 33**].
   - Await recs from ortho spine, Dr. [**Last Name (STitle) **], for OR time
   - Continue to maximize respiratory status for surgery as per below
   - Continue log-roll precaution
   - Plan to discuss with family re: trach/peg as a potential post-op
   course given her respiratory status
   Shortness of breath/hypercarbic respiratory failure
   Breathing stable on PSV 15/10.  Episode of pCO2 in 80s overnight.
   Repeat ABG improved. Likely secondary to COPD exacerbation, obesity,
   fluid retention.
   - Pressure support 15/10, wean as tolerated to [**10-8**] - FiO2 reduced to
   30%
   - Consider MMV/assist control if repeat episode hypercarbic and
   reassess ABG if repeat episode
   - Continue lasix gtt with goal of -1000mL to -2000mL
   - Continue solumedrol 20 mg IV Q8H
   - Check PM electrolyte
   - Start diamox if PM electrolyte bicarb > 40
   - Continue albuterol and ipratropium
   Nosocomial pneumonia
   Stable, afebrile. Pseudomonas and MRSA in sputum, questionable
   secondary to colonization during this hospitalization.
   - Follow up repeat cultures
   - Continue cefepime, linezolid (vancomycin resulted in desquamative
   reaction).  Currently day 6 of 7 (start date [**1-2**], end date [**1-10**]).
   Shoulder dislocation
   s/p reduction by ortho trauma team. Repeat shoulder x-ray on [**1-7**] showed
   no evidence of dislocation. CXR not optimal for shoulder view.
   - Continue use of sling and monitor for dislocation and signs of pain
   - Obtain qd dedicated shoulder view (left)
   Autonomic lability and hypotension
   Improved. Etiology unknown, but may have been secondary to pain, spinal
   cord injury/neurogenic etiology, sepsis.
   - Continue to treat underlying causes as per above
   - Continue to hold pressors
   Pain
   Stable. Patient denies when asked, but possible, so will cover.
   - Continue fentanyl gtt at 200 and versed gtt (instead of propofol)
   - Continue versed preferentially over fentanyl given prominent anxiety
   when sedation is lowered and denial of pain
   - Start fentanyl patch 200mcg
   - Consider lidocaine patch to left shoulder
   s/p PEA arrest
   Enzymes now trending down. Echo un remarkable. Escaped serious
   myocardial damage.
   - Continue CAD management
   Leukocytosis and question of sepsis
   Stable.  Slight elevation to 13.9 from 10.8.  Afebrile, no other signs
   of sepsis.  No convincing positive blood cultures (one bottle coag
   negative SA on arrival likely to be contaminant).  Likely related to
   steroids.
   - Continue to trend WBC
   Urinary tract infection
   Stable.  Continue cefepime in lieu of ciprofloxacin as per above.
   Diabetes mellitus
   Stable.  Controlled on ISS (even with steroids).
   - Discontinue ISS
   Anemia
   Stable. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now 26.6. Likely
   dilutional.
   - Continue to maintain active type and screen (last [**1-9**], outdates [**1-12**])
   - Continue to trend hematocrit
   - Continue to guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care
   Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-10 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: COPD, sp PEA arrest, T11 Fracture
   24 Hour Events:
   - Insulin sliding scale dc'd as has had no need for insulin;
   fingerstick [**Hospital1 **];
   - Started fentanyl patch and lidocaine patch over left shoulder for
   adjunct pain relief
   - Added miralax to bowel regimen
   - Episode of anxiety during late afternoon that resolved with increased
   fentanyl gtt and zyprexa prn anxiety
   - Dr. [**Last Name (STitle) 33**] spoke with Dr. [**Last Name (STitle) **] - likely OR [**Last Name (un) **] or Fri
   - Did not start Diamox given sulfa allergy
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-9**] 10:05 PM
   Linezolid - [**2120-1-10**] 12:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl (Concentrate) - 275 mcg/hour
   Other ICU medications:
   Fentanyl - [**2120-1-9**] 04:31 PM
   Pantoprazole (Protonix) - [**2120-1-9**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-9**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-10**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 94 (63 - 97) bpm
   BP: 100/40(59) {93/33(53) - 121/60(246)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,855 mL
                                                                  1,018 mL
   PO:
             TF:
                                                                    420 mL
                                                                    550 mL
   IVF:
                                                                  1,200 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                  1,275 mL
   Urine:
                                                                  3,530 mL
                                                                  1,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 543 (350 - 548) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 30%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.34/81.[**Numeric Identifier 253**]/95.[**Numeric Identifier 96**]/39/14
   Ve: 6 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General: Obese, lying on back, intubated on assist
   HEENT: PERRL, normocephalic, ETT, no further right ear bleeding
   CV: Distant heart sounds (unchanged)
   Resp: Symmetric, occasional wheezes otherwise clear
   Abd: Soft, bowel sounds present, obese, non-tender
   Ext: DP not palpable but dopplerable; radial 1+
   Neurologic: Opens eyes, moves head to verbal stimuli; not following
   commands; Movement of upper extremities, not of lower extremities
   Labs / Radiology
   207 K/uL
   8.4 g/dL
   123 mg/dL
   0.7 mg/dL
   39 mEq/L
   4.0 mEq/L
   46 mg/dL
   99 mEq/L
   145 mEq/L
   26.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2120-1-7**]  04:55 PM
                             [**2120-1-8**]  04:14 AM
                             [**2120-1-8**]  12:51 PM
                             [**2120-1-9**]  03:22 AM
                             [**2120-1-9**]  03:51 AM
                             [**2120-1-9**]  09:14 AM
                             [**2120-1-9**]  04:06 PM
                             [**2120-1-9**]  04:28 PM
                             [**2120-1-10**]  03:24 AM
                             [**2120-1-10**]  04:07 AM
   WBC
   10.8
   13.9
   12.6
   Hct
   25.6
   25.4
   26.6
   26.3
   Plt
   [**Telephone/Fax (3) 11323**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   42
   45
   44
   44
   46
   Glucose
   111
   127
   120
   116
   123
   Other labs: PT / PTT / INR:13.6/29.8/1.2, CK / CKMB /
   Troponin-T:389/21/0.04, ALT / AST:31/46, Alk Phos / T Bili:61/0.2,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: Pending
   Left Shoulder 3 View: No evidence of fracture or dislocation. Left
   glenohumeral joint is aligned.
   There are mild-to-moderate degenerative changes of the left
   acromioclavicular
   joint and glenohumeral joint with subchondral sclerosis and
   osteophytosis.
   Left acromioclavicular joint is aligned. No soft tissue abnormalities
   are
   evident.
   Microbiology:
    Urine: Final No Growth
   Blood: Pending
Sputum:
   GRAM STAIN (Final [**2120-1-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2120-1-6**]):
      SPARSE GROWTH Commensal Respiratory Flora.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE #
         [**Numeric Identifier 11324**],[**2120-1-2**].
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
   76 year old female morbidly obese, history of COPD on home O2 (2L
   baseline), OSA, moderate aortic stenosis and diastolic heart failure
   who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on
   exertion and cough productive of clear sputum transferred here after
   PEA arrest in the setting of acute hypercarbia with evidence of
   unstable T11 fracture.  High risk surgical candidate, but ortho spine
   and anesthesia both ready for OR once medically optimized. Sputum with
   coag+ staph and blood culture with coag- staph at admission (likely
   contaminant).
   Unstable T11 fracture
   Stable. Ortho spine is willing to take to OR; Anesthesia is also
   willing to take to OR as may currently be near baseline high risk
   status after PEA with no enzyme leak, near baseline echo. Email sent to
   Dr. [**Last Name (STitle) **] from Dr. [**Last Name (STitle) 33**].
   - Await recs from ortho spine, Dr. [**Last Name (STitle) **], for OR time
   - Continue to maximize respiratory status for surgery as per below
   - Continue log-roll precaution
   - Plan to discuss with family re: trach/peg as a potential post-op
   course given her respiratory status
   Shortness of breath/hypercarbic respiratory failure
   Breathing stable on PSV 15/10.  Episode of pCO2 in 80s overnight.
   Repeat ABG improved. Likely secondary to COPD exacerbation, obesity,
   fluid retention.
   - Pressure support 15/10, wean as tolerated to [**10-8**] - FiO2 reduced to
   30%
   - Consider MMV/assist control if repeat episode hypercarbic and
   reassess ABG if repeat episode
   - Continue lasix gtt with goal of -1000mL to -2000mL
   - Continue solumedrol 20 mg IV Q8H
   - Check PM electrolyte
   - Start diamox if PM electrolyte bicarb > 40
   - Continue albuterol and ipratropium
   Nosocomial pneumonia
   Stable, afebrile. Pseudomonas and MRSA in sputum, questionable
   secondary to colonization during this hospitalization.
   - Follow up repeat cultures
   - Continue cefepime, linezolid (vancomycin resulted in desquamative
   reaction).  Currently day 6 of 7 (start date [**1-2**], end date [**1-10**]).
   Shoulder dislocation
   s/p reduction by ortho trauma team. Repeat shoulder x-ray on [**1-7**] showed
   no evidence of dislocation. CXR not optimal for shoulder view.
   - Continue use of sling and monitor for dislocation and signs of pain
   - Obtain qd dedicated shoulder view (left)
   Autonomic lability and hypotension
   Improved. Etiology unknown, but may have been secondary to pain, spinal
   cord injury/neurogenic etiology, sepsis.
   - Continue to treat underlying causes as per above
   - Continue to hold pressors
   Pain
   Stable. Patient denies when asked, but possible, so will cover.
   - Continue fentanyl gtt at 200 and versed gtt (instead of propofol)
   - Continue versed preferentially over fentanyl given prominent anxiety
   when sedation is lowered and denial of pain
   - Start fentanyl patch 200mcg
   - Consider lidocaine patch to left shoulder
   s/p PEA arrest
   Enzymes now trending down. Echo un remarkable. Escaped serious
   myocardial damage.
   - Continue CAD management
   Leukocytosis and question of sepsis
   Stable.  Slight elevation to 13.9 from 10.8.  Afebrile, no other signs
   of sepsis.  No convincing positive blood cultures (one bottle coag
   negative SA on arrival likely to be contaminant).  Likely related to
   steroids.
   - Continue to trend WBC
   Urinary tract infection
   Stable.  Continue cefepime in lieu of ciprofloxacin as per above.
   Diabetes mellitus
   Stable.  Controlled on ISS (even with steroids).
   - Discontinue ISS
   Anemia
   Stable. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now 26.6. Likely
   dilutional.
   - Continue to maintain active type and screen (last [**1-9**], outdates [**1-12**])
   - Continue to trend hematocrit
   - Continue to guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care
   Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes, has NGT for tube feeds.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ placed, left radial arterial line
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-1-10**] 03:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT: Heparin, Pneumoboots
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-01-11 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   COPD, sp PEA arrest, T11 Fracture
   24 Hour Events:
   - Type and Screen active until [**1-12**]
   - NPO at midnight for AM surgery, surgery consented HCP for surgery in
   the AM.
   - I/O: lasix 4mg/hr - even at 1700, PM Lytes: Bicarb to 45 other levels
   stable. Discuss Diamox on rounds in AM. Gave 20 KCL for potassium of
   3.9.
   - Interventional Pulm aware patient will most likely need trach in near
   future.
   - Evening ABG stable from prior. PaCO2 in 80s.
   - Overnight MAPs in 50s, weaned fentanyl gtt from 250 to 200 and turned
   off lasix gtt because of her drip. When patient wakes pressure
   increases.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-10**] 11:00 PM
   Linezolid - [**2120-1-10**] 11:38 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2120-1-10**] 04:45 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-10**] 10:00 PM
   Lorazepam (Ativan) - [**2120-1-11**] 03:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-11**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 74 (71 - 87) bpm
   BP: 106/41(62) {90/32(52) - 120/54(77)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,150 mL
                                                                    106 mL
   PO:
             TF:
                                                                  1,445 mL
   IVF:
                                                                  1,465 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    585 mL
   Urine:
                                                                  3,280 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 483 (99 - 600) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.44/68/68/45/17
   Ve: 5.5 L/min
   PaO2 / FiO2: 227
   Physical Examination
   General: Obese, lying on back, intubated on assist
   HEENT: PERRL, ETT,
   CV: Distant heart sounds (unchanged)
   Resp: Symmetric, occasional wheezes but otherwise improved
   Abd: Soft, bowel sounds present, obese, non-tender
   Ext: DP not palpable but dopplerable; radial 1+; bilateral pitting
   edema 1+
   Neurologic: Opens eyes, moves head to verbal stimuli; not following
   commands; Movement of upper extremities, not of lower extremities
   Labs / Radiology
   190 K/uL
   8.6 g/dL
   120 mg/dL
   0.7 mg/dL
   45 mEq/L
   4.0 mEq/L
   46 mg/dL
   96 mEq/L
   145 mEq/L
   26.5 %
   15.9 K/uL
        [image002.jpg]
                             [**2120-1-9**]  03:51 AM
                             [**2120-1-9**]  09:14 AM
                             [**2120-1-9**]  04:06 PM
                             [**2120-1-9**]  04:28 PM
                             [**2120-1-10**]  03:24 AM
                             [**2120-1-10**]  04:07 AM
                             [**2120-1-10**]  05:25 PM
                             [**2120-1-10**]  05:37 PM
                             [**2120-1-11**]  02:35 AM
                             [**2120-1-11**]  03:11 AM
   WBC
   12.6
   15.9
   Hct
   26.3
   26.5
   Plt
   207
   190
   Cr
   0.6
   0.7
   0.6
   0.7
   TCO2
   45
   44
   44
   46
   47
   48
   Glucose
   116
   123
   117
   120
   Other labs: PT / PTT / INR:13.4/29.8/1.1, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:36/25, Alk Phos / T Bili:65/0.5,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   [**1-7**] Urine
 Final, negative
   [**1-10**] CXR
 Final, no interval change
   [**1-11**] CXR
 Final read pending, no interval change by our read
   Assessment and Plan
   76 year old female morbidly obese, history of COPD on home O2 (2L
   baseline), OSA, moderate aortic stenosis and diastolic heart failure
   who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on
   exertion and cough productive of clear sputum transferred here after
   PEA arrest in the setting of acute hypercarbia with evidence of
   unstable T11 fracture.  High risk surgical candidate, but ortho spine
   and anesthesia both ready for OR once medically optimized
 likely to
   be Thursday or Friday. Sputum with coag+ staph and blood culture with
   coag- staph at admission (likely contaminant).
   Unstable T11 fracture
   Stable. Ortho spine is willing to take to OR; Anesthesia is also
   willing to take to OR as may currently be near baseline high risk
   status after PEA with no enzyme leak, near baseline echo. Anesthesia
   has expressed concern regarding PaO2, elevated bicarbonate.
   - Continue to maximize respiratory status for surgery as per below
   - Pre-op labs ordered
   - Plan for OR today  2pm
   - Continue log-roll precaution
   - Plan to discuss with family re: trach/peg as a potential post-op
   course given her respiratory status; interventional pulmonary aware
   - Plan for trach/PEG possibly on Monday by IP
   - Will need post-op check
   Shortness of breath/hypercarbic respiratory failure
   Breathing stable on PSV 15/10.  Episode of pCO2 in 80s overnight
   similar episodes previously.  PaO2 decreased, repeat ABG otherwise
   stable. Likely secondary to COPD exacerbation, obesity, fluid
   retention.
   - Continue pressure support 15/10, increased FiO2 to 40%
   - Discontinue lasix gtt ; start IV diamox 500mg for elevated
   bicarbonate (pharmacy aware of sulfa allergy history, will monitor
   closely)
   - Recheck ABG this AM
   - Continue solumedrol 10 mg IV Q8H
   - Continue albuterol and ipratropium
   Nosocomial pneumonia
   Stable, afebrile. Pseudomonas and MRSA in sputum, questionable
   secondary to colonization during this hospitalization.
   - Follow up repeat cultures
   - Continue cefepime (14 days re Pseudomonas; d/c on [**1-17**]).  Will
   continue Linezolid (vancomycin resulted in desquamative reaction) until
   surgery.  Currently day 8 (start date [**1-2**]).
   Leukocytosis
   Slight elevation. Most likely secondary to steroids at this time,
   reactive.
   - Continue to monitor fever curve and culture if spikes.
   - Continue antibiotics as above.
   - Continue to steroids and wean after surgery.
   Shoulder dislocation
   s/p reduction by ortho trauma team. Repeat shoulder x-ray showed no
   evidence of dislocation.
   - Continue use of sling and monitor for dislocation and signs of pain
   - Obtain qd dedicated shoulder view (left) daily until recommended
   otherwise by ortho trauma
   Pain
   Stable. Patient denies when asked, but possible, so will cover.
   - Continue fentanyl gtt at 200 and versed gtt (instead of propofol);
   wean fentanyl as tolerated.
   - Continue versed preferentially over fentanyl given prominent anxiety
   when sedation is lowered and denial of pain
   - Continue fentanyl patch 200mcg and lidocaine patch to left shoulder
   s/p PEA arrest
   Enzymes now trending down. Echo un remarkable. Escaped serious
   myocardial damage.
   - Continue CAD management
   Urinary tract infection
   Resolved per latest cultures.
   Diabetes mellitus
   Stable.  Controlled on ISS (even with steroids).
   - Discontinue ISS, continue [**Hospital1 **] fingerstick
   Anemia
   Stable. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now 26.5 in line
   with recent Hct.
   - Continue to maintain active type and screen (last [**1-9**], outdates [**1-12**])
   - Continue to trend hematocrit
   - Continue to guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care, Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes prn, has NGT for tube feeds; NPO for procedure
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ, left radial arterial line; will need PICC line
   placement likely after surgery
 can do Fri or Mon/Tue
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU after post-op
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-2**] 01:30 PM
   Multi Lumen - [**2120-1-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-12 07:04:00 Physician Resident Progress Note
Chief Complaint:
   COPD flare to [**Location (un) 1415**], PEA arrest in context of respiratory failure.
   Atropine and pressor with return of pulse. Burst fracture T11.
   Intubated. Transferred to [**Hospital1 54**]. Maintained in ICU pending stability
   and optimization for surgery. T11 repair yesterday.
   24 Hour Events:
 OR SENT - At [**2120-1-11**] 12:30 PM
 INVASIVE VENTILATION - STOP [**2120-1-11**] 02:34 PM
 ARTERIAL LINE - STOP [**2120-1-11**] 02:38 PM
 MULTI LUMEN - STOP [**2120-1-11**] 02:38 PM
 INVASIVE VENTILATION - START [**2120-1-11**] 06:00 PM
 OR RECEIVED - At [**2120-1-11**] 06:30 PM
 CORDIS/INTRODUCER - START [**2120-1-12**] 12:32 AM
 MULTI LUMEN - START [**2120-1-12**] 12:33 AM
 ARTERIAL LINE - START [**2120-1-12**] 12:33 AM
   - Surgery complete - lost 4L blood
   - 4L crystaloid, 5U FFP, 6U pRBC, 500ml Albumin, 1U cell [**Doctor Last Name 5654**]
   - T6-L4 instumental fusion of spine per note
   - On pressors this a.m. (0.5 neo)
   - AC vent 40%
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-11**] 10:00 PM
   Linezolid - [**2120-1-11**] 10:06 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-11**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-12**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 72 (70 - 90) bpm
   BP: 108/52(71) {95/40(60) - 159/91(101)} mmHg
   RR: 14 (6 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 16 (10 - 18)mmHg
   Total In:
                                                                  6,865 mL
                                                                    384 mL
   PO:
   TF:
   IVF:
                                                                  4,817 mL
                                                                    384 mL
   Blood products:
                                                                  1,828 mL
   Total out:
                                                                  5,475 mL
                                                                    287 mL
   Urine:
                                                                  1,280 mL
                                                                    287 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,390 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 48.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/71/101/40/13
   Ve: 6.6 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.9 mEq/L
   46 mg/dL
   102 mEq/L
   146 mEq/L
   26.2 %
   27.8 K/uL
        [image002.jpg]
                             [**2120-1-11**]  02:14 PM
                             [**2120-1-11**]  04:42 PM
                             [**2120-1-11**]  05:20 PM
                             [**2120-1-11**]  05:35 PM
                             [**2120-1-11**]  06:19 PM
                             [**2120-1-11**]  07:03 PM
                             [**2120-1-11**]  08:54 PM
                             [**2120-1-11**]  10:00 PM
                             [**2120-1-12**]  02:09 AM
                             [**2120-1-12**]  02:17 AM
   WBC
   18.2
   28.5
   27.8
   Hct
   27
   22
   27
   23.5
   28
   27.5
   26.2
   Plt
   191
   149
   161
   Cr
   0.6
   0.6
   TCO2
   47
   46
   44
   44
   45
   38
   45
   Glucose
   112
   162
   149
   127
   135
   114
   Other labs: PT / PTT / INR:14.4/31.4/1.2, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:36/25, Alk Phos / T Bili:65/0.5,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:313
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR this a.m.
   Microbiology: No further positive cultures.
   [**2120-1-2**]  SPUTUM {PSEUDOMONAS AERUGINOSA, YEAST, STAPH AUREUS COAG +}
   [**2120-1-2**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS}
   Assessment and Plan
   76 year old female morbidly obese, history of COPD on home O2 (2L
   baseline), OSA, moderate aortic stenosis and diastolic heart failure
   who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive dyspnea on
   exertion and cough productive of clear sputum transferred here after
   PEA arrest in the setting of acute hypercarbia with evidence of
   unstable T11 fracture.  High risk surgical candidate, but ortho spine
   and anesthesia both ready for OR once medically optimized
 likely to
   be today. Sputum with coag+ staph and blood culture with coag- staph at
   admission (likely contaminant).
   Unstable T11 fracture
   Stable. Ortho spine is willing to take to OR; Anesthesia is also
   willing to take to OR as may currently be near baseline high risk
   status after PEA with no enzyme leak, near baseline echo. Anesthesia
   has expressed concern regarding PaO2, elevated bicarbonate.
   - Continue to maximize respiratory status for surgery as per below
   - Pre-op labs ordered
   - Plan for OR today  2pm
   - Continue log-roll precaution
   - Plan to discuss with family re: trach/peg as a potential post-op
   course given her respiratory status; interventional pulmonary aware
   - Plan for trach/PEG possibly on Monday by IP
   - Will need post-op check
   Shortness of breath/hypercarbic respiratory failure
   Breathing stable on PSV 15/10.  Episode of pCO2 in 80s overnight
   similar episodes previously.  PaO2 decreased, repeat ABG otherwise
   stable. Likely secondary to COPD exacerbation, obesity, fluid
   retention.
   - Continue pressure support 15/10, increased FiO2 to 40%
   - Discontinue lasix gtt ; start IV diamox 500mg for elevated
   bicarbonate (pharmacy aware of sulfa allergy history, will monitor
   closely)
   - Recheck ABG this AM
   - Continue solumedrol 10 mg IV Q8H
   - Continue albuterol and ipratropium
   Nosocomial pneumonia
   Stable, afebrile. Pseudomonas and MRSA in sputum, questionable
   secondary to colonization during this hospitalization.
   - Follow up repeat cultures
   - Continue cefepime (14 days re Pseudomonas; d/c on [**1-17**]).  Will
   continue Linezolid (vancomycin resulted in desquamative reaction) until
   surgery.  Currently day 8 (start date [**1-2**]).
   Leukocytosis
   Slight elevation. Most likely secondary to steroids at this time,
   reactive.
   - Continue to monitor fever curve and culture if spikes.
   - Continue antibiotics as above.
   - Continue to steroids and wean after surgery.
   Shoulder dislocation
   s/p reduction by ortho trauma team. Repeat shoulder x-ray showed no
   evidence of dislocation.
   - Continue use of sling and monitor for dislocation and signs of pain
   - Obtain qd dedicated shoulder view (left) daily until recommended
   otherwise by ortho trauma
   Pain
   Stable. Patient denies when asked, but possible, so will cover.
   - Continue fentanyl gtt at 200 and versed gtt (instead of propofol);
   wean fentanyl as tolerated.
   - Continue versed preferentially over fentanyl given prominent anxiety
   when sedation is lowered and denial of pain
   - Continue fentanyl patch 200mcg and lidocaine patch to left shoulder
   s/p PEA arrest
   Enzymes now trending down. Echo un remarkable. Escaped serious
   myocardial damage.
   - Continue CAD management
   Urinary tract infection
   Resolved per latest cultures.
   Diabetes mellitus
   Stable.  Controlled on ISS (even with steroids).
   - Discontinue ISS, continue [**Hospital1 **] fingerstick
   Anemia
   Stable. Hematocrit 28 on arrival from 36 on [**2119-12-30**]. Now 26.5 in line
   with recent Hct.
   - Continue to maintain active type and screen (last [**1-9**], outdates [**1-12**])
   - Continue to trend hematocrit
   - Continue to guaiac stools
   - Transfusion goal > 21 or evidence of hypoxia
   ICU care, Sedation: Versed and fentanyl
   FEN: Normal saline boluses for resuscitation parameters as above,
   replete electrolytes prn, has NGT for tube feeds; NPO for procedure
   Prophylaxis: Subcutaneous heparin, PPI
   Access: Right IJ, left radial arterial line; will need PICC line
   placement likely after surgery
 can do Fri or Mon/Tue
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU after post-op
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-1-12**] 12:32 AM
   Multi Lumen - [**2120-1-12**] 12:33 AM
   Arterial Line - [**2120-1-12**] 12:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-12 16:37:00 Physician Resident Progress Note
TITLE:
   PGY-3 MICU-[**Location (un) **] Accept Note
   Transfer from SICU
   .
   Primary Care Physician: [**First Name8 (NamePattern2) 3179**] [**Last Name (NamePattern1) 616**] [**Telephone/Fax (1) 6473**]
   .
   Chief Complaint:  Transfer from [**Location (un) 1415**] s/p PEA with unstable T11
   fracture now s/p surgery.
   .
   Brief Hospital Course:
   .
   Full history is recorded prior in chart.  Briefly this is a 76 year old
   female with a history of COPD on home O2, mod-severe AS, dCHF who had a
   PEA arrest at an OSH presumed [**2-6**] hypercarbia. Durring the arrest she
   suffered an instable T11 fracture.  She was transferred to [**Hospital1 54**] MICU
   for pre-operative care.  While in the MICU her respiratory status was
   optimized with diuresis with a lasix gtt and CODP was treated with
   steroids.  She went to the OR on [**2119-1-11**] where she underwent a fusion T6
   to L4 and laminectomy T12, L1, L2.  She also had an epidural catheter
   placed and repair of dura spinal cord injury.  Her post op course was
   uncomplicated.  She was some low blood pressures in the setting of
   sedation and was started on Neosynephrine.  She remained afiebrile,
   intibated and sedated.  She was transferred from the SICU to the MICU
   for continuation of her care.
   .
   In the MICU she is lethargic but responsive to verbal stimuli.  She
   reports that she is not in pain.  She is able to follow simple
   commands.
   24 Hour Events:
 OR SENT - At [**2120-1-11**] 12:30 PM
 INVASIVE VENTILATION - STOP [**2120-1-11**] 02:34 PM
 ARTERIAL LINE - STOP [**2120-1-11**] 02:38 PM
 MULTI LUMEN - STOP [**2120-1-11**] 02:38 PM
 INVASIVE VENTILATION - START [**2120-1-11**] 06:00 PM
 OR RECEIVED - At [**2120-1-11**] 06:30 PM
 CORDIS/INTRODUCER - START [**2120-1-12**] 12:32 AM
 MULTI LUMEN - START [**2120-1-12**] 12:33 AM
 ARTERIAL LINE - START [**2120-1-12**] 12:33 AM
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-11**] 10:00 PM
   Linezolid - [**2120-1-12**] 09:02 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 20 mcg/Kg/min
   Phenylephrine - 0.2 mcg/Kg/min
   Medications on Transfer:
   Albuterol Inhaler 6 PUFF IH Q6H
   Albuterol Inhaler 6 PUFF IH Q2H:PRN wheezing
   CefePIME 2 g IV Q24H Day 1 [**1-2**], dc on [**1-17**] for 14 day course
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Docusate Sodium (Liquid) 100 mg PO/NG [**Hospital1 **]
   Fentanyl Citrate 25-300 mcg/hr IV DRIP INFUSION
   Ipratropium Bromide MDI 6 PUFF IH QID
   Lidocaine 5% Patch 1 PTCH TD DAILY
   Linezolid 600 mg IV Q12H till [**1-17**]
   Olanzapine 5 mg PO HS:PRN
   Pantoprazole 40 mg IV Q24H
   Phenylephrine 0.5 mcg/kg/min IV DRIP TITRATE TO MAP greater than 65
   Polyethylene Glycol 17 g PO/NG DAILY:PRN
   Propofol 5-20 mcg/kg/min IV DRIP TITRATE TO sedation
   Senna 1 TAB PO/NG [**Hospital1 **]
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to attain given sedation
   Flowsheet Data as of  [**2120-1-12**] 04:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 71 (70 - 90) bpm
   BP: 104/39(59) {98/39(59) - 159/65(101)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 8 (8 - 216)mmHg
   Total In:
                                                                  6,865 mL
                                                                  1,400 mL
   PO:
   TF:
                                                                    270 mL
   IVF:
                                                                  4,817 mL
                                                                  1,130 mL
   Blood products:
                                                                  1,828 mL
   Total out:
                                                                  5,475 mL
                                                                  1,022 mL
   Urine:
                                                                  1,280 mL
                                                                    712 mL
   NG:
   Stool:
   Drains:
                                                                    310 mL
   Balance:
                                                                  1,390 mL
                                                                    378 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 48.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/71/101/40/13
   Ve: 5.7 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: Intubated, sedated responsive to questions, no distress
   HEENT: Sclera anicteric, MMM, Intubated.
   Neck: obese, unable to appreciate JVP, Right IJ in place.
   Lungs: Coarse breath sounds bilaterally, no wheezes, rales, ronchi
   CV: Distant heart sounds, regular, s1 and s2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  obese, mildly distended, faint bowel sounds, no rebound
   tenderness or guarding
   GU: foley with clear yellow urine
   Ext: Warm, well perfused, trace pedal pulses, trace radial warm, no
   clubbing, cyanosis.  Erythema in the lower extremities bilaterally
   without warmth.  2+ edema bilaterally to knees. Left arterial line in
   place.
   Neurologic:  PERRL, EOMI, withdraws upper extremities to painful
   stimuli, does not withdraw lower extremities, toes equivocal
   bilaterally in lower extremities, trace patellar reflexes bilaterally,
   unable to elicit ankle reflexes, present biceps, triceps reflexes.
   Labs / Radiology
   161 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.9 mEq/L
   46 mg/dL
   102 mEq/L
   146 mEq/L
   26.2 %
   27.8 K/uL
        [image002.jpg]
                             [**2120-1-11**]  02:14 PM
                             [**2120-1-11**]  04:42 PM
                             [**2120-1-11**]  05:20 PM
                             [**2120-1-11**]  05:35 PM
                             [**2120-1-11**]  06:19 PM
                             [**2120-1-11**]  07:03 PM
                             [**2120-1-11**]  08:54 PM
                             [**2120-1-11**]  10:00 PM
                             [**2120-1-12**]  02:09 AM
                             [**2120-1-12**]  02:17 AM
   WBC
   18.2
   28.5
   27.8
   Hct
   27
   22
   27
   23.5
   28
   27.5
   26.2
   Plt
   191
   149
   161
   Cr
   0.6
   0.6
   TCO2
   47
   46
   44
   44
   45
   38
   45
   Glucose
   112
   162
   149
   127
   135
   114
   Other labs: PT / PTT / INR:14.4/31.4/1.2, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:36/25, Alk Phos / T Bili:65/0.5,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:313
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD #1
   s/p fusion T6 to L4, laminectomy T12-L2.
   .
   T6 to L4 fusion, T12-L2 laminectomy: POD#1 s/p operative intervention
   for unstable T11 fracture. 4L blood loss; received 4L crystalloid, 5U
   FFP, 6U pRBC, 500ml albumin, 1U cell [**Doctor Last Name 5654**].
   - Post-op check
   - Post-operative sedation with propofol 20; wean as tolerated while
   covering with versed as needed
   - Follow up ortho spine recommendations
   - Continue log-roll precaution
   - Plan for early trach/PEG, possibly on Monday by surgery
   - Will need PT/OT when weaned off vent
   .
   Hypotension: Likely secondary to sedation with propofol/sedation. [**Month (only) 60**]
   also be sepsis (post surgical with leukocytosis, currently afebrile).
   Question component adrenal insufficiency given recent prolonged steroid
   use and recent surgery. CVP currently 8.
   - Continue neo 0.2; wean as tolerated as wean off propofol, fentanyl
   - Restart solumedrol IV 80mg q8 and start to wean
   - IVF bolus as needed but not at this time
   .
   Pain control: Likely post-op. Also has history of left shoulder
   dislocation.
   - Pain control with fentanyl 200 drip and fentanyl patch; wean drip as
   tolerated
   - Continue lidocaine patch
   .
   SOB/hypercarbic respiratory failure/nosocomial pneumonia: Stable.
   Anticipate difficulty weaning from vent [**2-6**] known COPD with baseline O2
   at home, obesity, volume overload, recent hypercarbic respiratory
   failure, nosocomial pneumonia  (sputum with pseudomonas and MRSA).
   - Wean vent as tolerated; decreased FiO2 and PEEP as tolerated;
   - Obtain spontaneous breathing trial/RISB daily (but likely will need
   trach/PEG)
   - Obtain ABG
   - Obtain morning CXR
   - Restart solumedrol IV 80mg q8 and start to wean
   - Continue linezolid, cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Continue albuterol, ipratropium
   - Follow cultures
   .
   Leukocytosis: Elevated. 27.8 today, down from 28.5 peak yesterday
   post-op. Recent elevation could be related with surgical stress,
   infection from urine, surgical wound, aspiration; possible also c diff
   given recent antibiotic use.
   - Obtain blood cultures
   - Monitor fever curve
   - Continue antibiotics as above
   - Obtain UA
   - Monitor for diarrhea and send stool for c diff if diarrhea
   .
   Anemia: Stable at 26.2 post-op likely [**2-6**] surgical blood loss;
   - Maintain active type and screen
   - 4 units on hold until this PM
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   UTI: Resolved on latest cultures; covered by cefepime.
   .
   DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   ICU Care
   Nutrition: OG TUBE/Tube feeds
   Replete with Fiber (Full) - [**2120-1-12**] 10:30 AM 60 mL/hour
   Glycemic Control:  ISS
   Lines: Right IJ, A-line
   Multi Lumen - [**2120-1-12**] 12:33 AM
   Arterial Line - [**2120-1-12**] 12:33 AM
   Prophylaxis:
   DVT: Holding as post op
   Stress ulcer: PPI
   VAP:  VAP Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-01-13 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T6 to L4 fusion, T12-L2 laminectomy: POD#2 s/p
   operative intervention for unstable T11 fracture. 4L blood loss;
   received 4L crystalloid, 5U FFP, 6U pRBC, 500ml albumin, 1U cell [**Doctor Last Name 5654**].
   24 Hour Events:
   [**1-12**]:
   - 1700 Hct 23.6 and ordered one unit of blood
   - Prophylaxed with pneumoboots overnight (no heparin SC s/p surgery)
   - Patient with low grade temperature overnight
   - Difficulty with wean overnight given agitation.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-12**] 10:00 PM
   Linezolid - [**2120-1-12**] 11:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2120-1-12**] 09:22 PM
   Fentanyl - [**2120-1-13**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-13**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 66 (66 - 100) bpm
   BP: 98/52(68) {95/39(44) - 127/56(77)} mmHg
   RR: 17 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 16 (8 - 216)mmHg
   Total In:
                                                                  3,440 mL
                                                                    687 mL
   PO:
   TF:
                                                                    724 mL
                                                                    426 mL
   IVF:
                                                                  2,272 mL
                                                                    240 mL
   Blood products:
                                                                    354 mL
                                                                     21 mL
   Total out:
                                                                  1,437 mL
                                                                    525 mL
   Urine:
                                                                  1,127 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
                                                                    310 mL
                                                                    225 mL
   Balance:
                                                                  2,003 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.43/65/132/38/16
   Ve: 8.2 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, Intubated.
   Neck: obese, unable to appreciate JVP, Right IJ in place.
   Lungs: Coarse breath sounds bilaterally, no wheezes, rales, ronchi
   CV: Distant heart sounds, regular, s1 and s2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  obese, mildly distended, faint bowel sounds, no rebound
   tenderness or guarding
   GU: foley with clear yellow urine
   Ext: Warm, well perfused, trace pedal pulses, trace radial warm, no
   clubbing, cyanosis.  Erythema in the lower extremities bilaterally
   without warmth.  2+ edema bilaterally to knees. Left arterial line in
   place.
   Neurologic:  PERRL, EOMI, withdraws upper extremities to painful
   stimuli, does not withdraw lower extremities, toes equivocal
   bilaterally in lower extremities, trace patellar reflexes bilaterally,
   unable to elicit ankle reflexes, present biceps, triceps reflexes.
   Labs / Radiology
   138 K/uL
   8.4 g/dL
   130 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.6 mEq/L
   38 mg/dL
   102 mEq/L
   144 mEq/L
   25.6 %
   29.5 K/uL
        [image002.jpg]
                             [**2120-1-11**]  06:19 PM
                             [**2120-1-11**]  07:03 PM
                             [**2120-1-11**]  08:54 PM
                             [**2120-1-11**]  10:00 PM
                             [**2120-1-12**]  02:09 AM
                             [**2120-1-12**]  02:17 AM
                             [**2120-1-12**]  05:15 PM
                             [**2120-1-12**]  05:27 PM
                             [**2120-1-13**]  02:33 AM
                             [**2120-1-13**]  02:50 AM
   WBC
   28.5
   27.8
   29.5
   Hct
   28
   27.5
   26.2
   23.6
   25.6
   Plt
   149
   161
   138
   Cr
   0.6
   0.6
   0.6
   TCO2
   44
   45
   38
   45
   45
   45
   Glucose
   127
   135
   114
   130
   Other labs: PT / PTT / INR:13.8/32.6/1.2, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:36/25, Alk Phos / T Bili:65/0.5,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:313
   IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR ([**1-13**]): Pending
   Microbiology: Urine ([**1-12**]): No Growth
   Blood ([**1-12**]): No Growth
   Assessment and Plan
   Assessment and Plan: 76 yo F history of COPD on home oxygen, moderate
   to severe aortic stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**]
   with progressive dyspnea on exertion and cough productive of clear
   sputum transferred here after PEA arrest with evidence of unstable T11
   fracture now POD #1 s/p fusion T6 to L4, laminectomy T12-L2.
   .
   T6 to L4 fusion, T12-L2 laminectomy: POD#1 s/p operative intervention
   for unstable T11 fracture. 4L blood loss; received 4L crystalloid, 5U
   FFP, 6U pRBC, 500ml albumin, 1U cell [**Doctor Last Name 5654**].
   - Wean fentanyl as tolerated, continue fentanyl patch
   - Follow up ortho spine recommendations
   - Continue log-roll precaution
   - Plan for early trach/PEG, possibly on Monday by surgery
   - Will need PT/OT when weaned off vent
   .
   Hypotension: Likely secondary to sedation with propofol/sedation. [**Month (only) 60**]
   also be sepsis (post surgical with leukocytosis, currently afebrile).
   Question component adrenal insufficiency given recent prolonged steroid
   use and recent surgery. CVP currently 15.
   - Continue neo 0.2; wean as tolerated as wean off propofol, fentanyl
   - Start hydrocortisone 125mg
   .
   Pain control: Likely post-op. Also has history of left shoulder
   dislocation.
   - Pain control with fentanyl 200 drip and fentanyl patch; wean drip as
   tolerated
   - Continue lidocaine patch
   .
   SOB/hypercarbic respiratory failure/nosocomial pneumonia: Stable.
   Anticipate difficulty weaning from vent [**2-6**] known COPD with baseline O2
   at home, obesity, volume overload, recent hypercarbic respiratory
   failure, nosocomial pneumonia  (sputum with pseudomonas and MRSA).
   - Wean vent as tolerated; decreased FiO2 first and PEEP as tolerated;
   consider change to pressure support as tolerated at settings 20/10
   - Obtain ABG this afternoon on PSV
   - Morning CXR
   - Hyrdrocortisone 100mg IV Q8
   - Continue linezolid (touch base with surgery regarding duration),
   cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Continue albuterol, ipratropium
   - Follow cultures
   - Hold on lasix/diamox at this time given hypotension. [**Month (only) 60**] require sp
   improvement in hypotension and wean from pressors.
   .
   Leukocytosis: Elevated to 29 this AM.  Recent elevation could be
   related with surgical stress, infection from urine, surgical wound,
   aspiration; possible also c diff given recent antibiotic use.
   - Obtain blood cultures
   - Monitor fever curve
   - Continue antibiotics as above
   - Obtain UA
   - Monitor for diarrhea and send stool for c diff if diarrhea
   .
   Anemia: Down to 23 yesterday with appropriate response to one unit
   pRBCs.
   - Maintain active type and screen
   - 4 units on hold until this PM
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   UTI: Resolved on latest cultures; covered by cefepime.
   .
   DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   FEN: Replete electrolytes prn; restart tube-feeds
   Prophylaxis: Hold SC heparin post-op; pneumoboots; PPI
   Access: Right IJ, left radial arterial line; Needs PICC
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-1-13**] 04:34 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-1-12**] 12:33 AM
   Arterial Line - [**2120-1-12**] 12:33 AM
   Prophylaxis:
   DVT: Pneumoboots, Holding SC Heparin Post Op
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: Transfused for Hct 23.6.  Difficulty with achieving adequate
   level of sedation d/t intermittent agitation.  Remains on low dose
   neosynephrine.
   VS: T100.8, P60-100
s,  BP 99/40-100/50s
   A/C  400x17(0), 7.43/65/132.  I/O +2L
   WBC 29.5 <-27, Hct 25.6, Plt 138
   Chem-7 144/3.6/102/38/0.6
   On exam, agitated, mouthing words, follows commands.
   Agree with plan to change to PSV
 though given underlying COPD,
   obesity, anticipate trach and PEG early next week.
   For agitation and delirium, restart antipsychotics and titrate pain
   medications.
   Continues on linezolid / cefepime.  On and off low dose pressors since
   surgery, ?med effect, doubt new sepsis and
 now back on hydrocort
   (stress dose) will taper as tolerated, follow up cultures.
   Pt is critically ill.
   Total time 35 minutes.
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2120-1-13**] 11:58 AM ------

2120-01-14 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 sp stabilization with Ortho Spine
   24 Hour Events:
   - Heparin SC restarted per Ortho recs, Also they believe she should get
   filter.
   - HCT 25.6 -> 23.6 (2U)-> 26.5 -> 25.5 (1U)
   - ABG on PSV (7.42/65/103)
   - Neo off at 1700
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-13**] 09:00 PM
   Linezolid - [**2120-1-14**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 0.1 mcg/Kg/min
   Fentanyl - 70 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-13**] 04:00 PM
   Midazolam (Versed) - [**2120-1-13**] 06:00 PM
   Pantoprazole (Protonix) - [**2120-1-13**] 06:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-14**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 69 (67 - 108) bpm
   BP: 113/56(76) {74/36(49) - 135/124(130)} mmHg
   RR: 12 (7 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 284 (10 - 289)mmHg
   Total In:
                                                                  3,886 mL
                                                                  1,192 mL
   PO:
   TF:
                                                                  1,447 mL
                                                                    394 mL
   IVF:
                                                                  1,548 mL
                                                                    448 mL
   Blood products:
                                                                    721 mL
                                                                    350 mL
   Total out:
                                                                  1,660 mL
                                                                    455 mL
   Urine:
                                                                  1,135 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
                                                                    525 mL
                                                                    120 mL
   Balance:
                                                                  2,226 mL
                                                                    737 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 477 (370 - 507) mL
   PS : 15 cmH2O
   RR (Set): 17
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/67/119/40/18
   Ve: 9.7 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, Intubated.
   Neck: obese, unable to appreciate JVP, Right IJ in place.
   Lungs: Coarse breath sounds bilaterally, no wheezes, rales, ronchi
   CV: Distant heart sounds, regular, s1 and s2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  obese, mildly distended, faint bowel sounds, no rebound
   tenderness or guarding
   GU: foley with clear yellow urine
   Ext: Warm, well perfused, trace pedal pulses, trace radial warm, no
   clubbing, cyanosis.  Erythema in the lower extremities bilaterally
   without warmth.  2+ edema bilaterally to knees. Left arterial line in
   place.
   Neurologic:  PERRL, EOMI, withdraws upper extremities to painful
   stimuli, does not withdraw lower extremities, toes equivocal
   bilaterally in lower extremities, trace patellar reflexes bilaterally,
   unable to elicit ankle reflexes, present biceps, triceps reflexes.
   Labs / Radiology
   124 K/uL
   9.9 g/dL
   131 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.7 mEq/L
   39 mg/dL
   102 mEq/L
   144 mEq/L
   29.1 %
   23.0 K/uL
        [image002.jpg]
                             [**2120-1-12**]  05:27 PM
                             [**2120-1-13**]  02:33 AM
                             [**2120-1-13**]  02:50 AM
                             [**2120-1-13**]  01:00 PM
                             [**2120-1-13**]  01:02 PM
                             [**2120-1-13**]  07:10 PM
                             [**2120-1-13**]  07:15 PM
                             [**2120-1-13**]  11:07 PM
                             [**2120-1-14**]  04:03 AM
                             [**2120-1-14**]  04:19 AM
   WBC
   29.5
   23.0
   Hct
   25.6
   23.6
   26.5
   25.5
   29.1
   Plt
   138
   124
   Cr
   0.6
   0.5
   TCO2
   45
   45
   44
   43
   47
   Glucose
   130
   131
   Other labs: PT / PTT / INR:12.4/31.0/1.0, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:36/25, Alk Phos / T Bili:65/0.5,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:313
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR: Pending
   Microbiology: Urine Cx ([**1-12**]): Pending
   Blood Cx ([**1-12**]): Pending
   Assessment and Plan
   Assessment and Plan: 76 yo F history of COPD on home oxygen, moderate
   to severe aortic stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**]
   with progressive dyspnea on exertion and cough productive of clear
   sputum transferred here after PEA arrest with evidence of unstable T11
   fracture now POD #1 s/p fusion T6 to L4, laminectomy T12-L2.
   .
   T6 to L4 fusion, T12-L2 laminectomy: POD#1 s/p operative intervention
   for unstable T11 fracture. 4L blood loss; received 4L crystalloid, 5U
   FFP, 6U pRBC, 500ml albumin, 1U cell [**Doctor Last Name 5654**].
   - Wean fentanyl as tolerated, continue fentanyl patch
   - Follow up ortho spine recommendations
   - Continue log-roll precaution
   - Plan for early trach/PEG, possibly on Monday by surgery
   - Will need PT/OT when weaned off vent
   .
   Hypotension: Likely secondary to sedation with propofol/sedation. [**Month (only) 60**]
   also be sepsis (post surgical with leukocytosis, currently afebrile).
   Question component adrenal insufficiency given recent prolonged steroid
   use and recent surgery. CVP currently 15.
   - Continue neo 0.2; wean as tolerated as wean off propofol, fentanyl
   - Start hydrocortisone 125mg
   .
   Pain control: Likely post-op. Also has history of left shoulder
   dislocation.
   - Pain control with fentanyl 200 drip and fentanyl patch; wean drip as
   tolerated
   - Continue lidocaine patch
   .
   SOB/hypercarbic respiratory failure/nosocomial pneumonia: Stable.
   Anticipate difficulty weaning from vent [**2-6**] known COPD with baseline O2
   at home, obesity, volume overload, recent hypercarbic respiratory
   failure, nosocomial pneumonia  (sputum with pseudomonas and MRSA).
   - Wean vent as tolerated; decreased FiO2 first and PEEP as tolerated;
   consider change to pressure support as tolerated at settings 20/10
   - Obtain ABG this afternoon on PSV
   - Morning CXR
   - Hyrdrocortisone 100mg IV Q8
   - Continue linezolid (touch base with surgery regarding duration),
   cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Continue albuterol, ipratropium
   - Follow cultures
   - Hold on lasix/diamox at this time given hypotension. [**Month (only) 60**] require sp
   improvement in hypotension and wean from pressors.
   .
   Leukocytosis: Elevated to 29 this AM.  Recent elevation could be
   related with surgical stress, infection from urine, surgical wound,
   aspiration; possible also c diff given recent antibiotic use.
   - Obtain blood cultures
   - Monitor fever curve
   - Continue antibiotics as above
   - Obtain UA
   - Monitor for diarrhea and send stool for c diff if diarrhea
   .
   Anemia: Down to 23 yesterday with appropriate response to one unit
   pRBCs.
   - Maintain active type and screen
   - 4 units on hold until this PM
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   UTI: Resolved on latest cultures; covered by cefepime.
   .
   DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   FEN: Replete electrolytes prn; restart tube-feeds
   Prophylaxis: Hold SC heparin post-op; pneumoboots; PPI
   Access: Right IJ, left radial arterial line; Needs PICC
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-1-13**] 09:09 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-1-12**] 12:33 AM
   Arterial Line - [**2120-1-12**] 12:33 AM
   Prophylaxis:
   DVT: Heparin SC, Pneumoboots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2120-01-15 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-1-14**] 09:35 AM
   from a-line
 BLOOD CULTURED - At [**2120-1-14**] 09:45 AM
   from central line with a fungal isolator cx sent as well.
 URINE CULTURE - At [**2120-1-14**] 12:45 PM
 PICC LINE - START [**2120-1-14**] 02:00 PM
 MULTI LUMEN - STOP [**2120-1-14**] 03:15 PM
 SPUTUM CULTURE - At [**2120-1-14**] 04:00 PM
   - Febrile persistently over the day 100.3 - 100.7 with Tylenol
   - Flushed and restless with increased difficulty following commands
   - Dural sac ruptured (and closed during surgery) so concern for
   meningitis, particularly if further change in mental status (LP may
   need to be cervical)
   - D/w Ortho spine said would typically expect some bleeding around
   spinal fixation, particularly of this kind.
   - Would consider re-imaging abdomen if increased concern
   - Continued linezolid and cefepime
   - Minimal pressor requirement and maintaining good pressures and rate
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-14**] 09:24 PM
   Linezolid - [**2120-1-14**] 11:05 PM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Fentanyl - 70 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-14**] 04:20 PM
   Midazolam (Versed) - [**2120-1-14**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-15**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 76 (69 - 114) bpm
   BP: 108/52(74) {89/45(63) - 128/69(92)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
    CVP: 11 (11 - 12)mmHg
   CO/CI (Fick): (22 L/min) / (8.6 L/min/m2)
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  3,635 mL
                                                                    579 mL
   PO:
   TF:
                                                                  1,440 mL
                                                                    386 mL
   IVF:
                                                                  1,545 mL
                                                                    193 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,480 mL
                                                                    570 mL
   Urine:
                                                                  1,285 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                    195 mL
                                                                    200 mL
   Balance:
                                                                  2,155 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (469 - 605) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.44/61/128/40/14
   Ve: 9.4 L/min
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, Intubated.
   Neck: obese, Right IJ in place.
   Lungs: Coarse breath sounds bilaterally, no wheezes, rales, ronchi
   CV: Distant heart sounds, regular, s1 and s2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  obese, mildly distended, faint bowel sounds, no rebound
   tenderness or guarding
   GU: foley with clear yellow urine
   Ext: Warm, well perfused, trace pedal pulses, trace radial warm, no
   clubbing, cyanosis.  Erythema in the lower extremities bilaterally
   without warmth.  2+ edema bilaterally to knees. Left arterial line in
   place.
   Neurologic:  PERRL, EOMI, withdraws upper extremities to painful
   stimuli, does not withdraw lower extremities, toes equivocal
   bilaterally in lower extremities, trace patellar reflexes bilaterally,
   unable to elicit ankle reflexes, present biceps, triceps reflexes.
   Labs / Radiology
   188 K/uL
   9.8 g/dL
   112 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.6 mEq/L
   37 mg/dL
   101 mEq/L
   144 mEq/L
   29.6 %
   19.6 K/uL
        [image002.jpg]
                             [**2120-1-13**]  01:00 PM
                             [**2120-1-13**]  01:02 PM
                             [**2120-1-13**]  07:10 PM
                             [**2120-1-13**]  07:15 PM
                             [**2120-1-13**]  11:07 PM
                             [**2120-1-14**]  04:03 AM
                             [**2120-1-14**]  04:19 AM
                             [**2120-1-14**]  12:40 PM
                             [**2120-1-15**]  03:04 AM
                             [**2120-1-15**]  03:17 AM
   WBC
   23.0
   19.6
   Hct
   23.6
   26.5
   25.5
   29.1
   30.1
   29.6
   Plt
   124
   188
   Cr
   0.5
   0.4
   TCO2
   44
   43
   47
   43
   Glucose
   131
   112
   Other labs: PT / PTT / INR:12.0/29.3/1.0, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:77/32, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:87.4 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.1 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:347
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   [**1-14**] CXR - This study was done to assess placement of the right PICC
   line. It can be followed into the superior vena cava. Due to overlying
   structures and technical limitations of the study, its tip is again not
   clearly identified, but it can be followed to the superior mediastinum
   and does not appear to extend below the level of the cavoatrial
   junction.
   [**1-14**] CXR - Bilateral [**Location (un) **] rods are in place, as before. An
   endotracheal tube, nasogastric tube, and right internal jugular
   catheter remain in position as demonstrated previously.
   [**1-14**] Blood cultures - Pending
   [**1-14**] Urine culture - Pending
   [**1-14**] Catheter tip IV - Pending
   [**1-14**] Sputum culture - Gram stain (gram positive cocci in pairs; budding
   yeast); cultures pending
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD #3
   s/p fusion T6 to L4, laminectomy T12-L2.
   .
   T6 to L4 fusion, T12-L2 laminectomy: POD#3 s/p operative intervention
   for unstable T11 fracture.
   - Wean fentanyl as tolerated, continue fentanyl patch
   - Follow up ortho spine recommendations
 question continued blood
   requirement
   - Continue log-roll precaution
   - Plan for early trach/PEG, possibly on Monday by surgery, Need to
   discuss with family
   - Will need PT/OT when weaned off vent
   .
   Hypotension: Likely secondary to sedation with propofol/sedation.
   However unclear etiology. [**Month (only) 60**] be secondary to sympathetic [**Last Name (un) 11354**]
   disruption leading to autonomic instability. However, less instability
   after spine stabilization. Fever curve, white count trending down with
   broad antibiotics. Does not appear to be intravasculary volume down.
   - Continue neo 0.2; wean as tolerated. Wean fentanyl gtt as tolerated
   - Start hydrocortisone 125mg
   .
   Pain control: Likely post-op. Also has history of left shoulder
   dislocation.
   - Pain control with fentanyl 200 drip and fentanyl patch; wean drip as
   tolerated
   - Continue lidocaine patch
   .
   SOB/hypercarbic respiratory failure/nosocomial pneumonia: Stable.
   Patient doing well on pressure support.
   - Morning CXR
   - Hyrdrocortisone 100mg IV Q8
   - Continue linezolid (touch base with surgery regarding duration),
   cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Continue albuterol, ipratropium
   - Follow cultures
   - Hold on lasix/diamox at this time given hypotension. [**Month (only) 60**] require sp
   improvement in hypotension and wean from pressors.
   .
   Leukocytosis: Down to 23 this AM.  Recent elevation could be related
   with surgical stress, infection from urine, surgical wound, aspiration;
   possible also c diff given recent antibiotic use.
   - Blood cultures if spikes
   - Monitor fever curve
   - Continue antibiotics as above
   - Monitor for diarrhea and send stool for c diff if diarrhea
   .
   Anemia: 29 after 5 units since OR.
   - Discuss blood reguirements with ortho spine today.
   - Maintain active type and screen
   - 4 units on hold until this PM
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   UTI: Resolved on latest cultures; covered by cefepime.
   .
   DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   FEN: Replete electrolytes prn; restart tube-feeds
   Prophylaxis: Hold SC heparin post-op; pneumoboots; PPI
   Access: Right IJ, left radial arterial line; Needs PICC
   Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   Code:  Full (discussed with patient)
   Disposition: ICU pending clinical improvement
   Events:
   Hep SQ restarted per ortho, who also rec
d considering IVC filter
   Hct 25
 3U total
   Neo off for ~5h SBP to 76 restarted on neo, stopped, restarted.
   PS 15/10/40% RR 19 TV ~450.  ABG 7.44/67/119
   Persistent hypotension: ddx includes ongoing blood loss, med effect,
   ?spinal surgery, new infection (though minimal pressor, dose and has
   not changed).  Now back on
stress dose
 steroids.  Will check ScVO2.
   Ongoing blood loss concerning
 will touch base with ortho and consider
   reimaging.  Recheck blood cx.  continues on Linezolid and cefepime for
   concern re: MRSA, pseudomonal infection.
   Resp failure: Will continue to wean down PSV and SBT.  Total volume
   overloaded eventually but limited by pressor requirement.  Mental
   status much improved on antipsychotic regimen.
   Remainder of plan as above.
   Pt is critically ill.  CC time total 40 minutes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-12**] 12:33 AM
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-15 15:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-1-14**] 09:35 AM
   from a-line
 BLOOD CULTURED - At [**2120-1-14**] 09:45 AM
   from central line with a fungal isolator cx sent as well.
 URINE CULTURE - At [**2120-1-14**] 12:45 PM
 PICC LINE - START [**2120-1-14**] 02:00 PM
 MULTI LUMEN - STOP [**2120-1-14**] 03:15 PM
 SPUTUM CULTURE - At [**2120-1-14**] 04:00 PM
   - Febrile persistently over the day 100.3 - 100.7 with Tylenol
   - Flushed and restless with increased difficulty following commands
   - Dural sac ruptured (and closed during surgery) so concern for
   meningitis, particularly if further change in mental status (LP may
   need to be cervical)
   - D/w Ortho spine said would typically expect some bleeding around
   spinal fixation, particularly of this kind.
   - Would consider re-imaging abdomen if increased concern
   - Continued linezolid and cefepime
   - Minimal pressor requirement and maintaining good pressures and rate
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-14**] 09:24 PM
   Linezolid - [**2120-1-14**] 11:05 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-14**] 04:20 PM
   Midazolam (Versed) - [**2120-1-14**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-15**] 03:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 102 (69 - 113) bpm
   BP: 115/76(88) {90/45(63) - 140/80(105)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,633 mL
                                                                  1,522 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    933 mL
   IVF:
                                                                  1,542 mL
                                                                    399 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,480 mL
                                                                  2,066 mL
   Urine:
                                                                  1,285 mL
                                                                  1,736 mL
   NG:
   Stool:
   Drains:
                                                                    195 mL
                                                                    330 mL
   Balance:
                                                                  2,153 mL
                                                                   -544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 593 (297 - 605) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.43/63/131/40/14
   Ve: 8.5 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   9.8 g/dL
   112 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.6 mEq/L
   37 mg/dL
   101 mEq/L
   144 mEq/L
   29.6 %
   19.6 K/uL
        [image002.jpg]
                             [**2120-1-13**]  01:02 PM
                             [**2120-1-13**]  07:10 PM
                             [**2120-1-13**]  07:15 PM
                             [**2120-1-13**]  11:07 PM
                             [**2120-1-14**]  04:03 AM
                             [**2120-1-14**]  04:19 AM
                             [**2120-1-14**]  12:40 PM
                             [**2120-1-15**]  03:04 AM
                             [**2120-1-15**]  03:17 AM
                             [**2120-1-15**]  10:30 AM
   WBC
   23.0
   19.6
   Hct
   26.5
   25.5
   29.1
   30.1
   29.6
   Plt
   124
   188
   Cr
   0.5
   0.4
   TCO2
   44
   43
   47
   43
   43
   Glucose
   131
   112
   Other labs: PT / PTT / INR:12.0/29.3/1.0, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:77/32, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:347
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD #4
   s/p fusion T6 to L4, laminectomy T12-L2.
   .
   # Fever, leukocytosis. WBC stable, elevated. [**Month (only) 60**] be related with
   surgical stress, infection from urine/surgical wound/aspiration/PNA;
   possible also c diff given recent antibiotic use. Ortho spine also
   noted that they used biofilm to close wound
 known to cause low grade
   fever for up to one week.
   - Follow up pan culture
   - Monitor fever curve
   - Continue cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Monitor for diarrhea and send stool for c diff if diarrhea
   - Get CBC with diff
   .
   # T6 to L4 fusion, T12-L2 laminectomy: POD#4 s/p operative intervention
   for unstable T11 fracture.
   - Wean fentanyl as tolerated, continue fentanyl/lidocaine patch
   - Follow up ortho spine
   - Continue log-roll precaution
   - Consult IP for trach/PEG
   .
   # SOB/hypercarbic respiratory failure/nosocomial pneumonia: Stable.
   Patient doing well on pressure support.
   - Trial PSV 8/PEEP 8
   - Follow daily AM CXR
   - Change hyrdrocortisone to 50mg IV Q8
   - Discontinue linezolid;
   - Continue cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Continue albuterol, ipratropium
   - Follow up pan culture
   - Restart lasix 40mg; follow UOP
   .
   # Pain control: Likely post-op. Also has history of left shoulder
   dislocation.
   - Pain control with fentanyl drip and fentanyl patch; wean drip as
   tolerated
   - Continue lidocaine patch
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # UTI: Resolved on latest cultures; covered by cefepime.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; restart tube-feeds
   # Prophylaxis: Restart SC heparin post-op; pneumoboots; PPI; daily
   bowel regimen
   # Access: Right PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-1-15**] 06:25 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-12**] 12:33 AM
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-16 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 Fracture sp Stabilization
   24 Hour Events:
   [**1-15**]
   - Diff added to morning electrolytes: N:83.6 L:9.2 M:6.7 E:0.4 Bas:0.2
   - Ortho spine recommends to keep patient off back and on side as much
   as possible to promote wound healing; also noted that they used a type
   of biofilm in closure of wound that can result in low grade fever up to
   one week
   - Started IV lasix 40mg [**Hospital1 **]
   - Fever to 101.5 during the late afternoon; obtained repeat blood
   cultures and treated with Tylenol
   - IP recommends will proceed with bedside tracheostomy tube placement;
   will hold off on the PEG tube placement for now until the fever and
   leukocytosis resolve or all infectious causes are excluded,
   then we will proceed with that at bedside.
   - Deferred talking with IR about spinal tap
   - Made patient NPO after midnight for possible bedside trach tomorrow
   - Patient with BM recorded x1 today
   - Goal PSV 8/8, currently [**12-11**] at 1:30am
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-14**] 11:05 PM
   Cefipime - [**2120-1-15**] 10:06 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-15**] 08:22 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-15**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.7
C (98.1
   HR: 93 (70 - 102) bpm
   BP: 91/40(57) {72/36(48) - 140/86(105)} mmHg
   RR: 18 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,220 mL
                                                                    216 mL
   PO:
             TF:
                                                                  1,974 mL
                                                                    117 mL
   IVF:
                                                                    616 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,976 mL
                                                                    350 mL
   Urine:
                                                                  2,646 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                    330 mL
   Balance:
                                                                    244 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 513 (297 - 697) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.44/63/158/40/16
   Ve: 10.7 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General: Intubated
   Lungs: Coarse breath sounds bilaterally, occasional wheezes
   CV: Distant heart sounds, regular, s1 and s2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees. Left arterial
   line in place.
   Neurologic:  Responds to commands, Moves upper extremity, D
   Labs / Radiology
   118 K/uL
   9.0 g/dL
   120 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.4 mEq/L
   43 mg/dL
   102 mEq/L
   146 mEq/L
   27.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2120-1-14**]  04:03 AM
                             [**2120-1-14**]  04:19 AM
                             [**2120-1-14**]  12:40 PM
                             [**2120-1-15**]  03:04 AM
                             [**2120-1-15**]  03:17 AM
                             [**2120-1-15**]  10:30 AM
                             [**2120-1-15**]  04:14 PM
                             [**2120-1-15**]  04:50 PM
                             [**2120-1-15**]  05:13 PM
                             [**2120-1-16**]  04:04 AM
   WBC
   23.0
   19.6
   8.9
   Hct
   29.1
   30.1
   29.6
   28.7
   27.1
   Plt
   124
   188
   118
   Cr
   0.5
   0.4
   0.3
   0.5
   TCO2
   47
   43
   43
   44
   Glucose
   131
   112
   120
   120
   Other labs: PT / PTT / INR:12.3/31.0/1.0, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:77/32, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:347
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Microbiology: C. Diff ([**1-15**]): Negative
   Blood ([**1-15**]): NGTD
   Mycolytic ([**1-15**]): NGTD
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #5  s/p fusion T6 to L4, laminectomy T12-L2.
   .
   # Fever, leukocytosis. Decreased white count today. Spiked to 101.5
   yesterday. Ortho spine also noted that they used biofilm to close wound
 known to cause low grade fever for up to one week.
   - Follow up pan culture
   - Monitor fever curve
   - Continue cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Monitor for diarrhea and send stool for c diff if diarrhea
   - Get CBC with diff
   .
   # T6 to L4 fusion, T12-L2 laminectomy: POD#4 s/p operative intervention
   for unstable T11 fracture.
   - Wean fentanyl as tolerated, continue fentanyl/lidocaine patch
   - Follow up ortho spine
   - Discuss with Ortho Spine log roll precautions
   - Trach today, plan for PEG in future. Replace OG tube with small lumen
   feeding tube today.
   .
   # SOB/hypercarbic respiratory failure/nosocomial pneumonia: Stable.
   Patient doing well on pressure support.
   - Trial PSV 8/PEEP 8 , has been stable on [**12-11**]
   - Follow daily AM CXR
   - Change hyrdrocortisone to 25mg IV Q8, hope to transition to PO
   - Continue cefepime (14 days for pseudomonas, d/c on [**1-17**])
   - Continue albuterol, ipratropium
   - Follow up pan culture
   - Restart lasix 40mg IV BID; follow UOP goal
One Liter
   .
   # Pain control: Likely post-op. Also has history of left shoulder
   dislocation. Pain controlled currently.
   - Pain control with fentanyl IV bolus and fentanyl patch
   - Continue lidocaine patch
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # UTI: Resolved on latest cultures; covered by cefepime.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; restart tube-feeds
   # Prophylaxis: Restart SC heparin post-op; pneumoboots; PPI; daily
   bowel regimen
   # Access: Right Power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Tube feeds, held for procedure today.
   Lines:
   Arterial Line - [**2120-1-12**] 12:33 AM
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT:  SC Heparin, Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now, Start Rehab Screening

2120-01-17 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient alert/oriented and stated that she did not want a
   tracheostomy tube placed. Family came in and daughter plans to bring in
   patient's glasses in the morning so that we can use a board to
   communicate.
   - Ortho Spine: No longer needs log roll precautions. Okay to sit
   patient up.
   - HCT: Stable 27.
   - Given Hypernatremia increased free water flushes to 150cc Q6hrs.
   - [**8-11**] this morning
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-14**] 11:05 PM
   Cefipime - [**2120-1-16**] 10:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-16**] 10:09 PM
   Furosemide (Lasix) - [**2120-1-16**] 10:10 PM
   Fentanyl - [**2120-1-17**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-17**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 110 (77 - 111) bpm
   BP: 113/66(82) {73/35(49) - 128/79(97)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                    854 mL
                                                                     67 mL
   PO:
             TF:
                                                                    117 mL
   IVF:
                                                                    527 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    550 mL
   Urine:
                                                                  2,675 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,821 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (288 - 459) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.46/63/128/40/18
   Ve: 9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General: Intubated
   Lungs: Coarse breath sounds bilaterally, occasional wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees. Left arterial
   line in place.
   Neurologic:  Responds to commands, moves upper extremity, does not move
   lower extremity
   Labs / Radiology
   143 K/uL
   9.0 g/dL
   102 mg/dL
   0.4 mg/dL
   40 mEq/L
   4.1 mEq/L
   38 mg/dL
   102 mEq/L
   147 mEq/L
   28.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2120-1-15**]  03:04 AM
                             [**2120-1-15**]  03:17 AM
                             [**2120-1-15**]  10:30 AM
                             [**2120-1-15**]  04:14 PM
                             [**2120-1-15**]  04:50 PM
                             [**2120-1-15**]  05:13 PM
                             [**2120-1-16**]  04:04 AM
                             [**2120-1-16**]  05:02 PM
                             [**2120-1-17**]  03:37 AM
                             [**2120-1-17**]  03:44 AM
   WBC
   19.6
   8.9
   8.0
   7.4
   Hct
   29.6
   28.7
   27.1
   27.0
   28.1
   Plt
   188
   118
   137
   143
   Cr
   0.4
   0.3
   0.5
   0.4
   0.4
   TCO2
   43
   43
   44
   46
   Glucose
   112
   120
   120
   98
   102
   Other labs: PT / PTT / INR:12.5/28.8/1.1, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   [**1-17**] CXR
 Final read pending; appears to be no interval change per our
   read
   [**1-16**] CXR
 Over penetration makes assessment difficult. ET tube and NG
   tube noted as on examination on [**1-14**]. Right IJ sheath has been
   removed.  There is a right-sided PICC line in place with its tip at the
   junction of the innominate veins. No pneumothorax seen on this
   extremely limited radiograph.
   [**1-15**] Stool
 Final; Negative for C. Diff
   [**1-15**] Blood culture
 Pending
   [**1-14**] Sputum
 Prelim; Coag + staph aureus, gram negative rods
   [**1-14**] Catheter tip RIJ
 Prelim; Coag negative staph
   [**1-14**] Urine
 Final; Yeast 10,000-100,000
   [**1-14**] Blood culture
 Pending
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #6  s/p fusion T6 to L4, laminectomy T12-L2.
   .
   # Fever, leukocytosis. Downtrending. White cell count continues to
   downtrend. Patient with fever to 100.6 at 1600 yesterday; down since
   then. Fever workup
 blood cultures have been negative since [**2120-1-14**];
   sputum with coag+ staph aureus; ortho spine noted that they used a type
   of biofilm to close the wound that is known to cause low grade fever
   for up to one week.
   - Follow up cultures
   - Monitor fever curve
   - Continue cefepime, last day today (14 days for pseudomonas, d/c on
   [**1-17**])
   .
   # SOB/hypercarbic respiratory failure/nosocomial pneumonia: Improving.
   Patient tolerated vent settings PSV 8/PEEP 8 overnight. Patient
   deferred on placement of traceostomy tube yesterday.
   - Continue to wean vent and trial PSV 5/PEEP 5 today
   - Trial extubation today
   - Continue to discuss with patient and patient
s family regarding
   tracheostomy
   - Continue to follow daily AM CXR
   - Change hydrocortisone from 25mg IV q8 to prednisone 30mg PO
   - Continue cefepime, last day today (14 days for pseudomonas, d/c on
   [**1-17**])
   - Continue albuterol, ipratropium
   - Continue lasix 40mg IV bid with goal negative one to two liters
   - Obtain blood cultures x2 today, perhaps 3 sets total over next 5 days
   .
   # T6 to L4 fusion, T12-L2 laminectomy: s/p operative intervention for
   unstable T11 fracture. Wound currently with continued serosanguinous
   drainage. Ortho spine has ok
d to discontinue logroll precaution.
   - Follow up ortho spine recs
 need to touch base regarding continued
   drainage
   - Continue fentanyl/lidocaine patch
   - Continue to wean fentanyl bolus prn
   - Continue to discuss with patient and patient
s family regarding PEG,
   likely bedside with IP once afebrile
   .
   # Pain control: Likely post-op. Also has history of left shoulder
   dislocation. Pain controlled currently.
   - Pain control with fentanyl IV bolus and fentanyl patch
   - Continue lidocaine patch
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # UTI: Resolved on latest cultures; covered by cefepime.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; restart tube-feeds
 NPO after
   midnight for possible bedside procedure; OGT; trial change to Dobhoff
   if extubation unsuccessful
   # Prophylaxis: Heparin SC; pneumoboots; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-1-12**] 12:33 AM
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-18 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 Fracture sp Stabilization, Extubation
   24 Hour Events:
   - Sitting in chair for the a.m.
   - Dr. [**Last Name (STitle) 616**], her PCP, [**Name10 (NameIs) **] to visit - she was still adamantly
   refusing tracheostomy.
   - Extubated at 16:30. Would like permissive O2Sat of 92%.
   - One more dose of Lasix at extubation (40mg IV)
   - Low K, high Na. (given extra Lasix last night)
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-16**] 10:09 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-1-17**] 09:36 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-17**] 10:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-18**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 80 (80 - 131) bpm
   BP: 102/46(64) {44/38(37) - 148/83(102)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                    380 mL
                                                                     41 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  3,830 mL
                                                                    335 mL
   Urine:
                                                                  3,830 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,450 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 406 (303 - 406) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: 7.37/81.[**Numeric Identifier 253**]/86/41/17
   Ve: 7.3 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General: Intubated
   Lungs: Coarse breath sounds bilaterally, occasional wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees. Left arterial
   line in place.
   Neurologic:  Responds to commands, moves upper extremity, does not move
   lower extremity
   Labs / Radiology
   147 K/uL
   8.9 g/dL
   105 mg/dL
   0.4 mg/dL
   41 mEq/L
   3.3 mEq/L
   35 mg/dL
   101 mEq/L
   149 mEq/L
   27.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2120-1-15**]  04:50 PM
                             [**2120-1-15**]  05:13 PM
                             [**2120-1-16**]  04:04 AM
                             [**2120-1-16**]  05:02 PM
                             [**2120-1-17**]  03:37 AM
                             [**2120-1-17**]  03:44 AM
                             [**2120-1-17**]  10:45 AM
                             [**2120-1-17**]  03:32 PM
                             [**2120-1-18**]  03:47 AM
                             [**2120-1-18**]  04:20 AM
   WBC
   8.9
   8.0
   7.4
   9.6
   Hct
   27.1
   27.0
   28.1
   27.7
   Plt
   118
   137
   143
   147
   Cr
   0.3
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   44
   46
   44
   49
   Glucose
   120
   120
   98
   102
   122
   105
   Other labs: PT / PTT / INR:13.0/28.4/1.1, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: No New Imaging
   Microbiology: Catheter Tip ([**1-14**]): Coag Neg Staph
   Blood ([**1-15**]): NGTD
   C. Diff: Negative
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #6  s/p fusion T6 to L4, laminectomy T12-L2.
   .
   # Fever, leukocytosis. Downtrending. White cell count continues to
   downtrend. Patient with fever to 100.6 at 1600 yesterday; down since
   then. Fever workup
 blood cultures have been negative since [**2120-1-14**];
   sputum with coag+ staph aureus; ortho spine noted that they used a type
   of biofilm to close the wound that is known to cause low grade fever
   for up to one week.
   - Follow up cultures
   - Monitor fever curve
   - Continue cefepime, last day today (14 days for pseudomonas, d/c on
   [**1-17**])
   .
   # SOB/hypercarbic respiratory failure/nosocomial pneumonia: Improving.
   Patient tolerated vent settings PSV 8/PEEP 8 overnight. Patient
   deferred on placement of traceostomy tube yesterday.
   - Continue to wean vent and trial PSV 5/PEEP 5 today
   - Trial extubation today
   - Continue to discuss with patient and patient
s family regarding
   tracheostomy
   - Continue to follow daily AM CXR
   - Change hydrocortisone from 25mg IV q8 to prednisone 30mg PO
   - Continue cefepime, last day today (14 days for pseudomonas, d/c on
   [**1-17**])
   - Continue albuterol, ipratropium
   - Continue lasix 40mg IV bid with goal negative one to two liters
   - Obtain blood cultures x2 today, perhaps 3 sets total over next 5 days
   .
   # T6 to L4 fusion, T12-L2 laminectomy: s/p operative intervention for
   unstable T11 fracture. Wound currently with continued serosanguinous
   drainage. Ortho spine has ok
d to discontinue logroll precaution.
   - Follow up ortho spine recs
 need to touch base regarding continued
   drainage
   - Continue fentanyl/lidocaine patch
   - Continue to wean fentanyl bolus prn
   - Continue to discuss with patient and patient
s family regarding PEG,
   likely bedside with IP once afebrile
   .
   # Hypernatremia/Hypokalemia:
   - Hold Lasix this AM
   - Plan I/O even for the day
   - Increase free water flushes with Tube Feeds
   .
   # Pain control: Likely post-op. Also has history of left shoulder
   dislocation. Pain controlled currently.
   - Pain control with fentanyl IV bolus and fentanyl patch
   - Continue lidocaine patch
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # UTI: Resolved on latest cultures; covered by cefepime.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; restart tube-feeds
 NPO after
   midnight for possible bedside procedure; OGT; trial change to Dobhoff
   if extubation unsuccessful
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Tube Feeds
   Lines:
   Arterial Line - [**2120-1-12**] 12:33 AM
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-01-19 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: T11 Fracture sp Stabilization
   24 Hour Events:
   - Spoke with ortho spine regarding continued serosanguinous drainage to
   wound. They will plan to take her to the OR tomorrow for washout and
   wound re-closure.
   - Patient made NPO after midnight for procedure with type and screen
   and morning coags drawn.
   - IP asked about her tracheostomy plans, and will plan to sign off at
   this time.
   - PM electrolytes showed interval improvement of hypernatremia and
   persistent hypokalemia. Electrolytes repleted.
   - PICC line flushed successfully with TPA.
   - ABG results at 1800 may have been drawn from PICC; will recheck
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2120-1-16**] 10:09 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-18**] 08:47 PM
   Furosemide (Lasix) - [**2120-1-18**] 08:47 PM
   Fentanyl - [**2120-1-19**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-19**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 90 (77 - 96) bpm
   BP: 100/42(59) {100/40(55) - 129/78(88)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,103 mL
                                                                    372 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,863 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    320 mL
   Urine:
                                                                  2,385 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    718 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.46/67/63/44/19
   PaO2 / FiO2: 180
   Physical Examination
   General: Up in Chair with shovel mask, appears tired but alert
   Lungs: Coarse breath sounds bilaterally, occasional wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees. Left arterial
   line in place.
   Neurologic:  Responds to commands, moves upper extremity, does not move
   lower extremity
   Labs / Radiology
   173 K/uL
   8.9 g/dL
   123 mg/dL
   0.4 mg/dL
   44 mEq/L
   3.8 mEq/L
   31 mg/dL
   96 mEq/L
   144 mEq/L
   28.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2120-1-17**]  03:44 AM
                             [**2120-1-17**]  10:45 AM
                             [**2120-1-17**]  03:32 PM
                             [**2120-1-18**]  03:47 AM
                             [**2120-1-18**]  04:20 AM
                             [**2120-1-18**]  08:02 AM
                             [**2120-1-18**]  03:17 PM
                             [**2120-1-18**]  06:08 PM
                             [**2120-1-18**]  08:53 PM
                             [**2120-1-19**]  02:23 AM
   WBC
   9.6
   7.8
   Hct
   27.7
   28.0
   Plt
   147
   173
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   46
   44
   49
   46
   46
   49
   Glucose
   122
   105
   164
   123
   Other labs: PT / PTT / INR:12.8/33.6/1.1, CK / CKMB /
   Troponin-T:96/21/0.04, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: Pending
   Microbiology: [**2120-1-14**] 3:00 pm CATHETER TIP-IV      Source: right IJ
   central line.
      WOUND CULTURE (Final [**2120-1-17**]):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >15 colonies.
   [**1-15**] Blood Culture: Pending
   [**1-17**] Blood Culture: Pending
   C. Diff [**1-15**]: Negative
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #67 s/p fusion T6 to L4, laminectomy T12-L2.
   .
   # Hypercarbic Respiratory Failure: Extubated. Tolerating face mask.
   Patient deferred on placement of traceostomy tube yesterday. ABG with
   pCO2 to 80% improved this AM. Patient agreed to non invasive
   ventilation when in bed and overnight.
   - Goal O2 Sat 88-92%
   - Continue to discuss with patient and patient
s family regarding
   tracheostomy
   - Continue to follow daily AM CXR
   - Prednisone 30mg today, Wean tomorrow
   - Continue albuterol, ipratropium
   - Continue lasix 40mg IV bid with goal negative one liter
   - Obtain blood cultures x2 today, perhaps 3 sets total over next 5 days
   .
   # T6 to L4 fusion, T12-L2 laminectomy: s/p operative intervention for
   unstable T11 fracture. Wound currently with continued serosanguinous
   drainage. Ortho spine has ok
d to discontinue logroll precaution.
   - Follow up ortho spine recs
 need to touch base regarding continued
   drainage, may need OR for wash out
   - Continue fentanyl/lidocaine patch
   - Continue to wean fentanyl bolus prn
   .
   # Hypernatremia: 3.8 liter free water deficit.
   - D5W at 150 cc hour
   - Lytes PM
   - Plan I/O even for the day.
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # UTI: Resolved on latest cultures; covered by cefepime.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; restart tube-feeds
 NPO after
   midnight for possible bedside procedure; OGT; trial change to Dobhoff
   if extubation unsuccessful
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO for possible OR add-on case
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now

2120-01-20 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: COPD, T11 fracture sp stabilization
   24 Hour Events:
   - Stress Dose steroids peri procedure, Methylprednisone 60mg IV Q8hrs.
   Plan to decrease to 25mg Prednisone daily tomorrow
   - I/O: -1.4 liters at 2200
   - Ortho Spine: To OR for wash out. No signs of infection. Serous
   drainage secondary to seroma. Linezolid post op ?until culture data
   returned.
   - Anesthesia: Intraop after patient was turned. Developed ST
   depressions on monitor then became hypotensive (difficult to assess
   maps given poor cuff (40s), a line placed at that time hypotension
   resolved.
   - EKG post op: No significant ST-T wave changes, ?MAT vs. Course Afib.
   - Cardiac Enzymes: CK Flat,
   - Switched back to pressure support this evening, overnight unable to
   wean secondary to respiratory rates in the low 30s on PS15 PEEP5.
   - Blood Cx ([**1-17**]): GPC in clusters from 1/2 bottles. On Linezolid.
   Allergy to Vancomycin.
   - MAPs low given sedation, pt agitated on lower doses on propofal, Neo
   started to maintain MAP>60 and keep patient comfortable.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-19**] 10:00 PM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2120-1-19**] 08:00 AM
   Pantoprazole (Protonix) - [**2120-1-19**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-19**] 08:09 PM
   Fentanyl - [**2120-1-20**] 02:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-20**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 81 (71 - 111) bpm
   BP: 99/44(64) {74/41(56) - 136/75(96)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,439 mL
                                                                    485 mL
   PO:
             TF:
   IVF:
                                                                  1,439 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    440 mL
   Urine:
                                                                  2,600 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    300 mL
   Balance:
                                                                 -1,261 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 238 (172 - 464) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/72/98.[**Numeric Identifier 248**]/45/17
   Ve: 8.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General: Intubated, Sedated
   Lungs: Faint BS bilaterally, No wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees.
   Neurologic:  Responds to commands, moves upper extremity, does not move
   lower extremity
   Skin: Improved lower extremity erythema.
   Labs / Radiology
   197 K/uL
   9.3 g/dL
   114 mg/dL
   0.4 mg/dL
   45 mEq/L
   4.0 mEq/L
   30 mg/dL
   96 mEq/L
   143 mEq/L
   28.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2120-1-18**]  08:02 AM
                             [**2120-1-18**]  03:17 PM
                             [**2120-1-18**]  06:08 PM
                             [**2120-1-18**]  08:53 PM
                             [**2120-1-19**]  02:23 AM
                             [**2120-1-19**]  03:25 PM
                             [**2120-1-19**]  04:49 PM
                             [**2120-1-19**]  05:07 PM
                             [**2120-1-20**]  01:44 AM
                             [**2120-1-20**]  01:56 AM
   WBC
   7.8
   7.1
   8.7
   Hct
   28.0
   33
   31.8
   28.9
   Plt
   173
   164
   197
   Cr
   0.4
   0.4
   0.3
   0.4
   TropT
   0.09
   0.15
   TCO2
   46
   46
   49
   46
   48
   48
   Glucose
   164
   123
   181
   151
   114
   Other labs: PT / PTT / INR:12.8/33.6/1.1, CK / CKMB /
   Troponin-T:90/8/0.15, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR: Pending
   Microbiology: [**2120-1-17**] 3:32 pm BLOOD CULTURE      Source: Line-picc.
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
      Anaerobic Bottle Gram Stain (Final [**2120-1-19**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
   Blood Cultures ([**1-20**]): Pending
   Surgical Site Swab: Pending
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD #8
   s/p fusion T6 to L4, laminectomy T12-L2. Sp OR wash out. Reintubated.
   .
   # Hypercarbic Respiratory Failure: Intubated for OR yesterday. Switched
   to pressure support 15/5 yesterday. Unable to wean overnight secondary
   to low TV and high RR. Blood Pressures low secondary to Propofol.
   Reguired Neo to maintain MAP>60.
   - PSV 15/5, wean today as tolerated
   - Up to Chair today
   - Prednisone 25mg Today
   - Continue albuterol, ipratropium
   - DC Propofol with goal of weaning Neo to off, if tolerated would then
   start lasix gtt with goal of -1 liter
   .
   # T6 to L4 fusion, T12-L2 laminectomy: s/p operative intervention for
   unstable T11 fracture. OR today for wash out.
   - FU ortho spine recs
   - Linezolid periop
 follow up wound culture
   - Continue fentanyl/lidocaine patch
   - Continue to wean fentanyl bolus prn
   .
   # Positive Blood Culture ([**1-6**]): GPC from PICC Line ([**1-6**]), Coag Neg
   staph from RIJ tip
   - Continue Linezolid
   - Daily Blood Culture
   - If Febrile Pull PICC
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; restart tube-feeds
 NPO after
   midnight for possible bedside procedure; OGT; trial change to Dobhoff
   if extubation unsuccessful
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: TF to restart today.
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-19**] 04:00 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending clinical improvement

2120-01-21 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2120-1-20**] 09:03 AM
 BLOOD CULTURED - At [**2120-1-20**] 04:40 PM
 ARTERIAL LINE - STOP [**2120-1-20**] 05:00 PM
 ARTERIAL LINE - START [**2120-1-21**] 02:00 AM
 BLOOD CULTURED - At [**2120-1-21**] 04:56 AM
   - A-line blocked - tried to rewire, but did not succeed. Replaced later
   in evening.
   - O-G tube placed
   - Restarted Lasix and given 40 mg IV twice
   - Most of day on AC
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-20**] 09:20 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-1-20**] 06:10 PM
   Pantoprazole (Protonix) - [**2120-1-20**] 08:21 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-20**] 09:20 PM
   Fentanyl - [**2120-1-21**] 04:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-21**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 82 (62 - 108) bpm
   BP: 100/52(65) {82/44(-20) - 137/108(265)} mmHg
   RR: 21 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,383 mL
                                                                    168 mL
   PO:
             TF:
                                                                     17 mL
                                                                     99 mL
   IVF:
                                                                  1,366 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,487 mL
                                                                    275 mL
   Urine:
                                                                  1,797 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
                                                                    690 mL
                                                                    120 mL
   Balance:
                                                                 -1,104 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 323 (258 - 323) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 40 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.50/59/111/44/19
   Ve: 6.3 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: Intubated, Sedated
   Lungs: Faint BS bilaterally, No wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees.
   Neurologic:  Responds to commands, moves upper extremity, does not move
   lower extremity
   Skin: Improved lower extremity erythema.
   Labs / Radiology
   178 K/uL
   8.9 g/dL
   121 mg/dL
   0.4 mg/dL
   44 mEq/L
   3.6 mEq/L
   30 mg/dL
   95 mEq/L
   145 mEq/L
   27.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2120-1-18**]  08:53 PM
                             [**2120-1-19**]  02:23 AM
                             [**2120-1-19**]  03:25 PM
                             [**2120-1-19**]  04:49 PM
                             [**2120-1-19**]  05:07 PM
                             [**2120-1-20**]  01:44 AM
                             [**2120-1-20**]  01:56 AM
                             [**2120-1-20**]  04:49 PM
                             [**2120-1-21**]  02:55 AM
                             [**2120-1-21**]  03:28 AM
   WBC
   7.8
   7.1
   8.7
   6.5
   Hct
   28.0
   33
   31.8
   28.9
   29.7
   27.4
   Plt
   173
   164
   197
   178
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.09
   0.15
   0.11
   0.07
   TCO2
   49
   46
   48
   48
   48
   Glucose
   123
   181
   151
   114
   100
   121
   Other labs: PT / PTT / INR:12.7/27.0/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   [**1-20**] CXR
 Wet read; OGT tip courses into stomach and out of view
   inferiorly; as proximal port is in gastric fundus, tip likely in
   stomach.
   [**1-21**] Blood culture
 Preliminary; no growth to date
   [**1-20**] Blood culture x 2
 Preliminary; no growth to date
   [**1-19**] Swab
 Preliminary; Gram negative rod (sparse growth)
   [**1-17**] Blood culture
 Preliminary; Gram positive cocci
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Reintubated.
   .
   # Hypercarbic Respiratory Failure: Intubated for OR [**1-19**]. Switched to
   pressure support 15/5 after OR. Has had low TV and high RR and have
   been unable to wean temporarily. Blood Pressures low secondary to
   Propofol after OR requiring Neo to maintain MAP > 60; currently off
   pressors. Patient refuses trach.
   - Currently PSV 15/5 (same as yesterday), wean today as tolerated
   - Mobilize to chair if possible today
   - Prednisone 25mg qd
   - Continue Albuterol, Ipratropium
   - Continue Lasix [**Hospital1 **] goal -1 to 2 L
   - Oxygenation goal 88-92%
   - Continue to monitor bicarbonate; consider Diamox 500 IV tid with goal
   bicarbonate around 40 if rises- Patient
   .
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.
   - Continue to follow spine recs
   - Continue Linezolid
 follow up cultures;
   - Continue Fentanyl/Lidocaine patch
   - Continue to wean Fentanyl bolus prn
   .
   # Positive Blood Culture ([**1-14**]): GPC from PICC Line ([**1-14**]), Coag Neg
   staph from RIJ tip. Likely contaminant.
   - Continue Linezolid
 follow up cultures
   - Continue daily blood cultures
   - Pull PICC if febrile
   .
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   .
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   .
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   .
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   .
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2120-1-20**] 10:17 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-21**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-22 08:20:00 Physician Resident Progress Note
Chief Complaint: 76 yo F history of COPD on home oxygen, moderate to
   severe aortic stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**]
   with progressive dyspnea on exertion and cough productive of clear
   sputum transferred here after PEA arrest with evidence of unstable T11
   fracture now POD #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p
   OR washout. Reintubated.
   24 Hour Events:
   - Overall fluid balanced at 1600; gave one time dose of Diamox.
   - Spine noted that the incision looks to be healing well and to
   continue ICU management.
   - PSV 10/5 at 2200 and tolerating well.
   - Patient had episode of atrial flutter first noted on telemetry at
   2230 and had EKG confirming a. flutter; she was rate controlled and
   nodal agents were not added.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-21**] 08:11 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-21**] 08:11 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-21**] 08:11 PM
   Furosemide (Lasix) - [**2120-1-21**] 08:11 PM
   Midazolam (Versed) - [**2120-1-21**] 09:00 PM
   Fentanyl - [**2120-1-21**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-22**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 87 (72 - 102) bpm
   BP: 92/48(63) {76/39(52) - 122/62(82)} mmHg
   RR: 27 (12 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,699 mL
                                                                    294 mL
   PO:
             TF:
                                                                    774 mL
                                                                     80 mL
   IVF:
                                                                    881 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    365 mL
   Urine:
                                                                  1,235 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
                                                                    430 mL
                                                                     60 mL
   Balance:
                                                                     34 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (288 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.43/73.[**Numeric Identifier 607**]/107/46/20
   Ve: 7.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General: Intubated, Sedated
   Lungs: Faint BS bilaterally, No wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees.
   Neurologic:  Responds to commands, moves upper extremity, does not move
   lower extremity
   Skin: Improved lower extremity erythema.
   Labs / Radiology
   203 K/uL
   8.5 g/dL
   143 mg/dL
   0.4 mg/dL
   46 mEq/L
   3.7 mEq/L
   36 mg/dL
   95 mEq/L
   142 mEq/L
   26.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2120-1-19**]  05:07 PM
                             [**2120-1-20**]  01:44 AM
                             [**2120-1-20**]  01:56 AM
                             [**2120-1-20**]  04:49 PM
                             [**2120-1-21**]  02:55 AM
                             [**2120-1-21**]  03:28 AM
                             [**2120-1-21**]  12:32 PM
                             [**2120-1-21**]  08:38 PM
                             [**2120-1-22**]  02:49 AM
                             [**2120-1-22**]  03:20 AM
   WBC
   8.7
   6.5
   7.8
   Hct
   28.9
   29.7
   27.4
   26.6
   Plt
   197
   178
   203
   Cr
   0.4
   0.4
   0.4
   0.4
   TropT
   0.15
   0.11
   0.07
   TCO2
   48
   48
   48
   47
   48
   50
   Glucose
   114
   100
   121
   143
   Other labs: PT / PTT / INR:12.2/29.2/1.0, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: .
   Imaging: No new.
   Microbiology: [**2120-1-19**] 3:15 pm SWAB     Site: SPLEEN      SPINE.
      GRAM STAIN (Final [**2120-1-19**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Final [**2120-1-21**]):
         ACINETOBACTER BAUMANNII COMPLEX.    SPARSE GROWTH.
            "Note, for Amp/sulbactam, higher-than-standard dosing needs to
   be
            used, since therapeutic efficacy relies on intrinsic activity
   of
            the sulbactam component".
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ACINETOBACTER BAUMANNII COMPLEX
                                |
   AMPICILLIN/SULBACTAM--     4 S
   CEFEPIME--------------  =>64 R
   CEFTAZIDIME-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     8 I
   IMIPENEM--------------     8 I
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----  =>16 R
      ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.
   ECG: [**1-21**] 22:35
   Near regular 86 BPM with flutter waves and rate control. T waves, other
   intervals and segments normal. Axis normal and procession WNLs. No
   obvious TWI but difficult to assess with flutter.
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Reintubated.
   # Hypercarbic Respiratory Failure: Intubated for OR [**1-19**]. Switched to
   pressure support 15/5 after OR. Has had low TV and high RR and have
   been unable to wean temporarily. Blood Pressures low secondary to
   Propofol after OR requiring Neo to maintain MAP > 60; currently off
   pressors. Patient refuses trach.
   - Currently PSV 15/5 (same as yesterday), wean today as tolerated
   - Mobilize to chair if possible today
   - Prednisone 25mg qd
   - Continue Albuterol, Ipratropium
   - Continue Lasix [**Hospital1 **] goal -1 to 2 L
   - Oxygenation goal 88-92%
   - Continue to monitor bicarbonate; consider Diamox 500 IV tid with goal
   bicarbonate around 40 if rises
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.
   - Continue to follow spine recs
   - Continue Linezolid
 follow up cultures;
   - Continue Fentanyl/Lidocaine patch
   - Continue to wean Fentanyl bolus prn
   # Positive Blood Culture ([**1-14**]): GPC from PICC Line ([**1-14**]), Coag Neg
   staph from RIJ tip. Likely contaminant.
   - Continue Linezolid
 follow up cultures
   - Continue daily blood cultures
   - Pull PICC if febrile
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25 in peri-arrest period
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   Goal oxygen for sat goal 88-92%. She has completed a course of abx for
   her MRSA/PSA pneumonia.
   On Linezolid for pos blood cx, will d/c picc if spikes fever.
   Pain- on fentanyl patch, but c/o pain
readdress today and adjust
   regimen as necessary, f/u ortho recs s/p fusion.
   Trying to maintain upright to improve resp mechanics. Restarted TF.
   Bowel regimen, S+S, HSC, PICC, art line. Remainder of plan as outlined
   above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-21**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-23 10:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reintubated this AM --> had ongoing desaturations to the 70s.  Copious
   secretions from ETT upon intubation
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2120-1-22**] 08:40 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-22**] 03:00 PM
   Imipenem/Cilastatin - [**2120-1-22**] 04:00 PM
   Linezolid - [**2120-1-22**] 08:59 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-22**] 08:00 PM
   Furosemide (Lasix) - [**2120-1-23**] 01:28 AM
   Heparin Sodium (Prophylaxis) - [**2120-1-23**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-1-23**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 74 (59 - 81) bpm
   BP: 96/50(65) {66/43(56) - 126/61(81)} mmHg
   RR: 24 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,264 mL
                                                                    152 mL
   PO:
             TF:
                                                                     80 mL
   IVF:
                                                                  1,184 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    650 mL
   Urine:
                                                                    945 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                    100 mL
   Balance:
                                                                    259 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 510 (510 - 510) mL
   Vt (Spontaneous): 400 (400 - 465) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 36 cmH2O
   SpO2: 100%
   ABG: 7.34/86.[**Numeric Identifier 96**]/102/44/16
   Ve: 5.6 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed, back wound c/d/i, drain in place
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   188 K/uL
   120 mg/dL
   0.4 mg/dL
   44 mEq/L
   3.6 mEq/L
   32 mg/dL
   95 mEq/L
   143 mEq/L
   26.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2120-1-22**]  02:49 AM
                             [**2120-1-22**]  03:20 AM
                             [**2120-1-22**]  12:13 PM
                             [**2120-1-22**]  06:05 PM
                             [**2120-1-22**]  07:53 PM
                             [**2120-1-22**]  09:17 PM
                             [**2120-1-22**]  10:27 PM
                             [**2120-1-23**]  12:29 AM
                             [**2120-1-23**]  03:39 AM
                             [**2120-1-23**]  03:57 AM
   WBC
   7.8
   6.2
   Hct
   26.6
   26.7
   Plt
   203
   188
   Cr
   0.4
   0.4
   0.4
   TCO2
   50
   44
   53
   46
   48
   47
   49
   Glucose
   143
   125
   120
   Other labs: PT / PTT / INR:12.2/29.2/1.0, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Microbiology: [**1-20**]: Blood cx (PICC) --> coag pos staph
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Reintubated.
   # Hypercarbic Respiratory Failure: Now reintubated.  Unfortunately,
   there is not much clarity as
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout. Postive culture with
   Acinetobacter now.
   - D/w ID
   - Continue to follow spine recs
   - Continue Linezolid
 follow up cultures;
   - Continue Fentanyl/Lidocaine patch
   - Continue to wean Fentanyl bolus prn
   # Positive Blood Culture ([**1-14**]): GPC from PICC Line ([**1-14**]), Coag Neg
   staph from RIJ tip. Likely contaminant.
   - Continue Linezolid
 follow up cultures
   - Continue daily blood cultures
   - Pull PICC if febrile
   - Discuss pulling PICC and a-line on rounds tomorrow a.m. given likely
   real culture
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-21**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2120-01-24 07:52:00 Physician Resident Progress Note
Chief Complaint: PEA arrest in context of COPD flare and refused PAP,
   spine fracture likely aquired during chest compressions.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2120-1-23**] 08:22 AM
 INVASIVE VENTILATION - START [**2120-1-23**] 09:03 AM
 BLOOD CULTURED - At [**2120-1-23**] 06:00 PM
 SPUTUM CULTURE - At [**2120-1-23**] 06:00 PM
 URINE CULTURE - At [**2120-1-23**] 06:00 PM
   - Intubated yesterday
   - Repeat CXR: Without change, ET tube in place.
   - Social Work/Palliative Care consulted.
   - Family contact[**Name (NI) **] by nursing staff. Spoke with Daughter [**Name (NI) 272**] who was
   understandably upset.
   - ID: Check Tobramycin Trough and Peak, Change to Meropenem, Strict
   Contact Precautions, Pull lines if able, check ESR/CRP
   - ABG after reintubation: 7.43/71/79
   - MAP 60s- 55, tachy in the afternoon, 500cc bolus -> HR 90s MAP to 65.
   Pressure dropped again. Rebolused another 500cc without good response.
   Started Neo. DC'd midazolam.
   - Given low MAP, resent blood cultures, urine, and sputum. Later temp
   to 100.8.
   - Urine output decreased in the afternoon. Bolused one liter NS.
   Pressured increased to 110/54 and urine output increased.
   - UA with bacteria and many whites.
   - Tobramycin levels high, changed dosing to Q36Hours.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-22**] 03:00 PM
   Imipenem/Cilastatin - [**2120-1-23**] 08:00 AM
   Linezolid - [**2120-1-23**] 11:00 PM
   Meropenem - [**2120-1-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-23**] 08:22 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-23**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 77 (72 - 100) bpm
   BP: 107/49(66) {82/46(61) - 170/98(108)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,046 mL
                                                                    614 mL
   PO:
             TF:
                                                                    264 mL
                                                                    387 mL
   IVF:
                                                                  1,722 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    230 mL
   Urine:
                                                                    842 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                     40 mL
   Balance:
                                                                  1,004 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 510) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 42 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/62/124/42/14
   Ve: 6.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General: Intubated, minimally sedated and responsive, communicative.
   Lungs: Faint BS bilaterally, No wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting).
   Neurologic:  Communicative but unable to vocalize with tube. Alert.
   Skin: Stable lower extremity erythema.
   Labs / Radiology
   205 K/uL
   8.4 g/dL
   145 mg/dL
   0.6 mg/dL
   42 mEq/L
   3.7 mEq/L
   36 mg/dL
   97 mEq/L
   143 mEq/L
   26.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-1-22**]  10:27 PM
                             [**2120-1-23**]  12:29 AM
                             [**2120-1-23**]  03:39 AM
                             [**2120-1-23**]  03:57 AM
                             [**2120-1-23**]  10:03 AM
                             [**2120-1-23**]  02:12 PM
                             [**2120-1-23**]  05:16 PM
                             [**2120-1-23**]  06:22 PM
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
   WBC
   6.2
   7.0
   Hct
   26.7
   26.7
   Plt
   188
   205
   Cr
   0.4
   0.5
   0.6
   TCO2
   48
   47
   49
   47
   49
   43
   43
   Glucose
   120
   102
   145
   Other labs: PT / PTT / INR:13.3/35.4/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: .
   Imaging:
   CXR from this a.m. - well centred
 unremarkable.
   CT spine
 Await official read.
   Microbiology: MSSA bacteremia.
   Acinetobacter in wound.
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Extubated then reintubated with worsening O2 saturation.
   # Hypercarbic Respiratory Failure: Reintubated yesterday.
   - Continue to wean as tolerated.
   - Prednisone 10mg qd
   - Continue Albuterol, Ipratropium
   - Lasix to 20 given contraction and pH /PM Lytes
   - Discuss with family/patient role of trach
   - Palliative Care/Social Work/Ethics
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout. Postive culture with
   Acinetobacter now.
   - Follow ID recs: strict contact precautions
   - Meropenem (from imepenem) and tobramycin (now q36)
   - Continue to follow spine recs
   - Continue Linezolid
 follow up cultures;
   - Continue Fentanyl/Lidocaine patch
   - Continue to wean Fentanyl bolus prn
   # Positive Blood Culture ([**1-14**], 13, 16): GPC from PICC Line ([**1-14**]),
   Coag Neg staph from RIJ tip.
   - FU ID
   - Consider line removal if possible
   - Continue Linezolid
 follow up cultures
   - Continue daily blood culture
   # Anemia: Stable.
   - Maintain active type and screen
   - Obtain q12 hr Hct
   - Maintain transfusion goal > 25
   # Left shoulder disclocation: Stable. Recent films with no dislocation.
   - Continue lidocaine patch
   - Repeat x-ray of shoulder (more painful today)
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC, left radial arterial line
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
 this needs to be addressed
   with patient and family. Dr [**Last Name (STitle) 616**] (PCP) visited this a.m. and said
   patient ambivalent.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2120-1-24**] 04:39 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-21**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-24 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2120-1-23**] 08:22 AM
 INVASIVE VENTILATION - START [**2120-1-23**] 09:03 AM
 BLOOD CULTURED - At [**2120-1-23**] 06:00 PM
 SPUTUM CULTURE - At [**2120-1-23**] 06:00 PM
 URINE CULTURE - At [**2120-1-23**] 06:00 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-22**] 03:00 PM
   Imipenem/Cilastatin - [**2120-1-23**] 08:00 AM
   Linezolid - [**2120-1-23**] 11:00 PM
   Meropenem - [**2120-1-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-23**] 08:22 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-23**] 10:06 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-1-24**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.2
C (97.2
   HR: 90 (72 - 100) bpm
   BP: 93/46(61) {82/46(61) - 170/98(108)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,046 mL
                                                                    785 mL
   PO:
             TF:
                                                                    264 mL
                                                                    529 mL
   IVF:
                                                                  1,722 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    310 mL
   Urine:
                                                                    842 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                     40 mL
   Balance:
                                                                  1,004 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 510) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 42 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/62/124/42/14
   Ve: 6.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   205 K/uL
   145 mg/dL
   0.6 mg/dL
   42 mEq/L
   3.7 mEq/L
   36 mg/dL
   97 mEq/L
   143 mEq/L
   26.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-1-22**]  10:27 PM
                             [**2120-1-23**]  12:29 AM
                             [**2120-1-23**]  03:39 AM
                             [**2120-1-23**]  03:57 AM
                             [**2120-1-23**]  10:03 AM
                             [**2120-1-23**]  02:12 PM
                             [**2120-1-23**]  05:16 PM
                             [**2120-1-23**]  06:22 PM
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
   WBC
   6.2
   7.0
   Hct
   26.7
   26.7
   Plt
   188
   205
   Cr
   0.4
   0.5
   0.6
   TCO2
   48
   47
   49
   47
   49
   43
   43
   Glucose
   120
   102
   145
   Other labs: PT / PTT / INR:13.3/35.4/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Reintubated after 24 hr trial of extubation
   # Hypercarbic Respiratory Failure: Now reintubated.  Appreciate SW and
   palliative care consults.  Will try to set up a discussion with
   daughters and pt.
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.
   Cont linezolid/tobra/impipenem - acinetobacter in wound culture
   # Positive Blood Culture: Treating coag neg staph with linezolid given
   tenous access.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2120-1-24**] 04:39 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-21**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2120-01-25 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, s/p PEA arrest, T11 fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Transiently on neo this AM
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-22**] 03:00 PM
   Imipenem/Cilastatin - [**2120-1-23**] 08:00 AM
   Meropenem - [**2120-1-24**] 04:00 AM
   Linezolid - [**2120-1-24**] 10:16 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-24**] 10:16 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-1-25**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 69 (69 - 104) bpm
   BP: 139/57(87) {81/36(52) - 139/62(302)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,202 mL
                                                                  1,633 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    514 mL
   IVF:
                                                                  1,000 mL
                                                                  1,118 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    440 mL
   Urine:
                                                                    690 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     10 mL
   Balance:
                                                                  1,472 mL
                                                                  1,193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 349 (349 - 349) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/62/133/39/17
   Ve: 9.1 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   216 K/uL
   123 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.4 mEq/L
   38 mg/dL
   98 mEq/L
   141 mEq/L
   24.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2120-1-23**]  03:57 AM
                             [**2120-1-23**]  10:03 AM
                             [**2120-1-23**]  02:12 PM
                             [**2120-1-23**]  05:16 PM
                             [**2120-1-23**]  06:22 PM
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
   WBC
   7.0
   4.4
   4.5
   Hct
   26.7
   22.4
   24.7
   Plt
   [**Telephone/Fax (3) 11436**]
   Cr
   0.5
   0.6
   0.4
   TCO2
   49
   47
   49
   43
   43
   45
   Glucose
   102
   145
   123
   Other labs: PT / PTT / INR:13.5/32.0/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:46/24, Alk Phos / T Bili:72/0.6,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:331
   IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Imaging: Repeat CT spine and shoulder film reads pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Reintubated after 24 hr trial of extubation
   # Hypercarbic Respiratory Failure: At this point it seems unlikely that
   she would tolerate extubation for any extended period.  Family meeting
   with daughters later today.  On pred 10mg --> will plan to taper slowly
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.
   Cont linezolid/tobra/tigecycline - acinetobacter in wound culture
   # Positive Blood Culture: Treating coag neg staph with linezolid given
   tenous access.  Persistent pos blood culture despite PICC line change
   # Hypotension: Has high ESR, persistent coag neg bactermia. Cont
   linezolid but there does seems to be good effect
   L shoulder dislocation: Cont lido patch
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2120-1-25**] 12:32 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Arterial Line - [**2120-1-21**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2120-01-26 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2120-1-25**] 05:00 PM
   - Family Meeting: Tracheostomy and PEG likely acceptable.
   - Pharmacy recommended changing Tobramycin to 180mg q24; started this
   dose and peak and trough ordered for [**1-26**].
   - ID recommended to stop linezolid now that tigecycline covering.
   Continue tobramycin as above.
   - HCt stable 24.3 in p.m. from 24.7 in a.m.
   - Urine output sometimes low at 30-40 cc/hr throughout the day. Did not
   diurese earlier given need for fluid bolus to support pressure
   yesterday along with some low [**Last Name (un) **] Neo; pressors and fluid boluses now
   off, but is +2L and need to re-eval UOP [**1-26**].
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2120-1-23**] 08:00 AM
   Meropenem - [**2120-1-24**] 04:00 AM
   Linezolid - [**2120-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 90 (69 - 99) bpm
   BP: 154/102(115) {78/30(44) - 154/102(152)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,518 mL
                                                                    672 mL
   PO:
             TF:
                                                                  1,258 mL
                                                                    559 mL
   IVF:
                                                                  2,180 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    350 mL
   Urine:
                                                                  1,020 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
                                                                    380 mL
                                                                     40 mL
   Balance:
                                                                  2,118 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 142 (142 - 142) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 35 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/61/105/40/13
   Ve: 7.5 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General: Intubated, minimally sedated and responsive, communicative.
   Lungs: Faint BS bilaterally, No wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity.
   Neurologic:  Communicative but unable to vocalize with tube. Alert.
   Skin: Stable lower extremity erythema.
   Labs / Radiology
   250 K/uL
   8.3 g/dL
   104 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.7 mEq/L
   40 mg/dL
   96 mEq/L
   138 mEq/L
   26.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2120-1-23**]  05:16 PM
                             [**2120-1-23**]  06:22 PM
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
   WBC
   7.0
   4.4
   4.5
   4.9
   Hct
   26.7
   22.4
   24.7
   24.3
   26.5
   Plt
   [**Telephone/Fax (3) 11446**]50
   Cr
   0.5
   0.6
   0.4
   0.4
   TCO2
   43
   43
   45
   43
   Glucose
   102
   145
   123
   104
   Other labs: PT / PTT / INR:12.2/32.0/1.0, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   [**1-24**] CT L SPINE
   1. Complete fragmentation of the T11 vertberal body, with 60 degree
   anterior angulation and anterior distraction of the inferior elements,
   unchanged in position since [**2120-1-1**].
   2. Mixed attenuation paraspinous mass and spinal canal soft tissue and
   debris from T9 through T12 adjacent to the fracture site with an
   internal focus of air, compatible with history of infection and
   post-surgical washout.
   3. Status post T6-L4 fusion with no evidence of hardware malalignment,
   loosening, or fracture.
   4. Focal area of consolidation and/or atelectasis at the right lower
   base of the lung.
   5. Enlarged mediastinal lymph nodes.
   6. 18-mm right thyroid nodule.
   7. Right-sided PICC and endotracheal tube are properly positioned. The
   gastric tube terminates beyond the scope of the study.
[**2120-1-23**] 6:02 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2120-1-23**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      ACINETOBACTER BAUMANNII COMPLEX.    MODERATE GROWTH.
         "Note, for Amp/sulbactam, higher-than-standard dosing needs to be
         used, since therapeutic efficacy relies on intrinsic activity of
         the sulbactam component".
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ACINETOBACTER BAUMANNII COMPLEX
                             |
AMPICILLIN/SULBACTAM--     4 S
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     8 I
IMIPENEM--------------     8 I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
[**2120-1-23**] 6:06 pm BLOOD CULTURE      Source: Line-arterial.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2120-1-25**]):
      REPORTED BY PHONE TO DR. [**First Name (STitle) **] [**Numeric Identifier 11447**] [**2120-1-25**], 8:25AM.
      GRAM POSITIVE COCCI IN CLUSTERS.
[**1-23**] BLOOD CULTURE SECOND SET PENDING;
[**1-25**], [**1-26**] BLOOD CULTURE PENDING;
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout with
   difficulty weaning off vent and family discussion on [**2120-1-25**] to discuss
   trach/PEG.
   # Hypercarbic Respiratory Failure: Currently intubated s/p failed
   extubation after going to OR for washout on [**1-19**]. Difficulty weaning
   likely attributed to COPD, obesity, fluid status, and infection.
   - Continue to wean as tolerated
   - Will consult IP regarding trach/PEG once form family consent
   - Continue prednisone 10mg qd (10mg started on [**1-23**] from 25mg on [**1-20**]);
   consider decreasing dose 1/22 although will likely continue taper
   - Continue Albuterol, Ipratropium
   - Hold lasix given low MAPs
   - Follow palliative care/social work/ethics recommendations; appreciate
   their input
   # T6 to L4 Fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.  Currently with
   acinetobacter, gram positive cocci on [**1-23**], coag neg staph on [**1-20**].
   Currently with serosanguinous drainage at site.
   - Follow ID recommendations; appreciate their input
   - Contact ortho spine regarding serosanguinous drainage
   - Follow spine recommendations; appreciate their input
   - Tigecycline and tobramycin (now q36), f/u levels and continue to
   adjust dosing
   - Continue fentanyl/lidocaine patch
   # Positive Cultures (blood: [**1-14**], 13, 16, 19; sputum: [**1-23**]): Multiple
   sources likely; GPC from PICC line on [**1-14**]; Most likely infection from
   lines and will need line holiday when hemodynamically stable. Continue
   antibiotic treatment and keep PICC line in at this time.
   - Line removal when hemodynamically stable
   - Follow ID recommendations; appreciate their input
   - Discontinue linezolid as tigecycline covering
   - Continue daily blood culture; repeat sputum culture
   # Anemia: Stable; slight drop in Hct to 22.4 on [**1-24**]. Likely dilutional
   as all cell lines down. Possible serosanguinous drainage from wound. No
   signs of bleeding.
   - Maintain active type and screen
   - Check hct [**Hospital1 **]
   - Guaiac stools
   - Maintain transfusion goal > 25
   # Left shoulder dislocation: Dislocated yesterday during move to CT.
   - Continue lidocaine patch
   - Follow ortho trauma recs; appreciate their input
 daily CXR to
   insure placement
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
 this needs to be addressed
   with patient and family. Dr [**Last Name (STitle) 616**] (PCP) visited [**1-25**] and said
   patient ambivalent.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete ([**3-7**]) - [**2120-1-26**] 03:00 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-26 10:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, COPD, s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Family meeting yesterday: Meeting initially contentious as family was
   upset that they felt they were told on Weds that her clinical situation
   was acutely deteriorating when it was not.  Dr. [**Last Name (STitle) 8368**] and SW present
   at meeting as well.  Spent much of the meeting listening to the
   family's concerns.  We then discussed the clinical situation and the
   difficulty of decsion-making surrounding trach.  The daughters said
   Mrs. [**Known lastname 5681**] communicated to them that she would be accepting of trach
   if that was the daughters' decision.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2120-1-25**] 05:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-1-24**] 04:00 AM
   Linezolid - [**2120-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-26**] 08:42 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-1-26**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 75 (72 - 99) bpm
   BP: 74/35(49) {74/30(44) - 210/164(158)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,518 mL
                                                                  1,109 mL
   PO:
             TF:
                                                                  1,258 mL
                                                                    796 mL
   IVF:
                                                                  2,180 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    470 mL
   Urine:
                                                                  1,020 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
                                                                    380 mL
                                                                     40 mL
   Balance:
                                                                  2,118 mL
                                                                    639 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 142 (142 - 142) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/61/105/40/13
   Ve: 10.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   250 K/uL
   104 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.7 mEq/L
   40 mg/dL
   96 mEq/L
   138 mEq/L
   26.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2120-1-23**]  05:16 PM
                             [**2120-1-23**]  06:22 PM
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
   WBC
   7.0
   4.4
   4.5
   4.9
   Hct
   26.7
   22.4
   24.7
   24.3
   26.5
   Plt
   [**Telephone/Fax (3) 11446**]50
   Cr
   0.5
   0.6
   0.4
   0.4
   TCO2
   43
   43
   45
   43
   Glucose
   102
   145
   123
   104
   Other labs: PT / PTT / INR:12.2/32.0/1.0, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout.
   Reintubated after 24 hr trial of extubation
   # Hypercarbic Respiratory Failure: Taper pred.  Will likely pursue
   trach (no PEG for now, will opt for Dobhoff) - but will wait for
   confirmation from the daughters prior to consulting IP
   # T6 to L4 fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.  JP drain no longer
   draining - may not be in position, will discuss with ortho team
   Cont linezolid/tobra/tigecycline - acinetobacter in wound culture.
   Follow tobra peaks and troughs
   # Positive Blood Culture: Treating coag neg staph with linezolid given
   tenous access.  Follow-up repeat blood cultures
   # Hypotension: No pressors at present
   L shoulder dislocation: Cont lido patch
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete ([**3-7**]) - [**2120-1-26**] 07:46 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2120-01-27 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID recs: Continue Tigecycline and Tobramycin, Check Tobramycin Trough
   (Ordered for AM).
   - HCT: 25.3
   - Ortho Spine Recs: Wound without dehiscence. If continues to drain
   from tube site recommend going to IR for drain replacement. If wound
   opens up he would take patient to OR for washout.
   - MDIs made PRN, No wheezing
   - Urine Output/Blood Pressure: stable throughout the day. 500cc bolus
   for lower bp (UO=30cc) at 1900.
   - Dr. [**Last Name (STitle) 6011**] spoke with [**Doctor First Name 755**], they have the understanding that we
   will plan for Trach. Plan to contact IP [**Name (NI) 2052**]/Monday.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-25**] 11:00 AM
   Tobramycin - [**2120-1-26**] 04:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-26**] 04:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-27**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 74 (71 - 101) bpm
   BP: 96/46(57) {74/35(44) - 120/77(88)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,103 mL
                                                                    644 mL
   PO:
             TF:
                                                                  1,920 mL
                                                                    546 mL
   IVF:
                                                                  1,043 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    470 mL
   Urine:
                                                                  1,010 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  2,053 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 39 cmH2O
   Plateau: 23 cmH2O
   Compliance: 51.5 cmH2O/mL
   SpO2: 100%
   ABG: ///39/
   Ve: 7.7 L/min
   Physical Examination
   General: Intubated, minimally sedated and responsive, communicative.
   Lungs: Faint BS bilaterally, No wheezes
   CV: Distant heart sounds, regular, S1 and S2, II/VI SEM at RUSB, no
   rubs or gallops
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity.
   Neurologic:  Communicative but unable to vocalize with tube. Alert.
   Skin: Stable lower extremity erythema.
   Labs / Radiology
   265 K/uL
   8.1 g/dL
   116 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.2 mEq/L
   42 mg/dL
   98 mEq/L
   139 mEq/L
   25.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
   WBC
   7.0
   4.4
   4.5
   4.9
   4.5
   Hct
   26.7
   22.4
   24.7
   24.3
   26.5
   25.3
   25.5
   Plt
   [**Telephone/Fax (3) 11446**]50
   265
   Cr
   0.6
   0.4
   0.4
   0.4
   TCO2
   43
   45
   43
   Glucose
   145
   123
   104
   116
   Other labs: PT / PTT / INR:12.7/34.1/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: Pending
   Microbiology: [**2120-1-23**] 6:02 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2120-1-23**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         ACINETOBACTER BAUMANNII COMPLEX.    MODERATE GROWTH.
            "Note, for Amp/sulbactam, higher-than-standard dosing needs to
   be
            used, since therapeutic efficacy relies on intrinsic activity
   of
            the sulbactam component".
         GRAM NEGATIVE ROD #2.    RARE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ACINETOBACTER BAUMANNII COMPLEX
                                |
   AMPICILLIN/SULBACTAM--     4 S
   CEFEPIME--------------  =>64 R
   CEFTAZIDIME-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     8 I
   IMIPENEM--------------     8 I
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----  =>16 R
   [**2120-1-23**] 6:06 pm BLOOD CULTURE      Source: Line-arterial.
      Blood Culture, Routine (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.
            These preliminary susceptibility results are offered to help
   guide
            treatment; interpret with caution as final susceptibilities
   may
            change. Check for final susceptibility results in 24 hours.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPHYLOCOCCUS, COAGULASE NEGATIVE
                                |
   OXACILLIN-------------       S
   [**2120-1-19**] 3:15 pm SWAB      SPINE.
      GRAM STAIN (Final [**2120-1-19**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Preliminary):
         ACINETOBACTER BAUMANNII COMPLEX.    SPARSE GROWTH.
            "Note, for Amp/sulbactam, higher-than-standard dosing needs to
   be
            used, since therapeutic efficacy relies on intrinsic activity
   of
            the sulbactam component".
            DR. [**Last Name (STitle) **] #[**Numeric Identifier 11405**] REQUESTED TETRACYCLINE , DOXYCYCLINE AND
            DORIPENEM SENSITIVITIES [**2120-1-22**].
            AMIKACIN, MEROPENEM AND COLISTIN REQUESTED BY DR.[**Last Name (STitle) **]
   [**2120-1-23**].
            TETRACYCLINE sensitivity testing performed by [**First Name8 (NamePattern2) 11432**] [**Last Name (NamePattern1) 9089**].
            DOXYCYCLINE IS SENSITIVE sensitivity testing performed by
   [**First Name8 (NamePattern2) 11432**]
            [**Last Name (NamePattern1) 9089**].
            DORIPENEM IS 25 MCG/ML CONSIDER NON-SUSCEPTABLE SENSITIVITY
            TESTING PERFORMED BY E-TEST.
            SENT TO [**Hospital3 11433**] FOR COLISTIN TESTING.
            AMIKACIN SENSITIVE  sensitivity testing performed by [**First Name8 (NamePattern2) 11432**]
   [**Last Name (NamePattern1) 9089**].
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ACINETOBACTER BAUMANNII COMPLEX
                                |
   AMPICILLIN/SULBACTAM--     4 S
   CEFEPIME--------------  =>64 R
   CEFTAZIDIME-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     8 I
   IMIPENEM--------------     8 I
   TETRACYCLINE----------       R
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----  =>16 R
      ANAEROBIC CULTURE (Final [**2120-1-23**]):    NO ANAEROBES ISOLATED.
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout with
   difficulty weaning off vent and family discussion on [**2120-1-25**] to discuss
   trach/PEG.
   # Hypercarbic Respiratory Failure: Currently intubated s/p failed
   extubation after going to OR for washout on [**1-19**]. Difficulty weaning
   likely attributed to COPD, obesity, fluid status, and infection.
   - Continue to wean as tolerated
   - Will consult IP regarding trach/PEG once form family consent
   - Continue prednisone 10mg qd (10mg started on [**1-23**] from 25mg on [**1-20**]);
   consider decreasing dose 1/22 although will likely continue taper
   - Continue Albuterol, Ipratropium
   - Hold lasix given low MAPs
   - Follow palliative care/social work/ethics recommendations; appreciate
   their input
   # T6 to L4 Fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.  Currently with
   acinetobacter, gram positive cocci on [**1-23**], coag neg staph on [**1-20**].
   Currently with serosanguinous drainage at site.
   - Follow ID recommendations; appreciate their input
   - Contact ortho spine regarding serosanguinous drainage
   - Follow spine recommendations; appreciate their input
   - Tigecycline and tobramycin (now q36), f/u levels and continue to
   adjust dosing
   - Continue fentanyl/lidocaine patch
   # Positive Cultures (blood: [**1-14**], 13, 16, 19; sputum: [**1-23**]): Multiple
   sources likely; GPC from PICC line on [**1-14**]; Most likely infection from
   lines and will need line holiday when hemodynamically stable. Continue
   antibiotic treatment and keep PICC line in at this time.
   - Line removal when hemodynamically stable
   - Follow ID recommendations; appreciate their input
   - Discontinue linezolid as tigecycline covering
   - Continue daily blood culture; repeat sputum culture
   # Anemia: Stable; slight drop in Hct to 22.4 on [**1-24**]. Likely dilutional
   as all cell lines down. Possible serosanguinous drainage from wound. No
   signs of bleeding.
   - Maintain active type and screen
   - Check hct [**Hospital1 **]
   - Guaiac stools
   - Maintain transfusion goal > 25
   # Left shoulder dislocation: Dislocated yesterday during move to CT.
   - Continue lidocaine patch
   - Follow ortho trauma recs; appreciate their input
 daily CXR to
   insure placement
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
 this needs to be addressed
   with patient and family. Dr [**Last Name (STitle) 616**] (PCP) visited [**1-25**] and said
   patient ambivalent.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete ([**3-7**]) - [**2120-1-27**] 04:02 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-01-27 12:05:00 Physician Attending Progress Note
Chief Complaint: 76 yr woman with COPD s/p PA arrest with difficult
   wean/T11 fx
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On Ab for actinobacter in wound from repair of T11 fx.
   Monitoring fluid status - good urine output yesterday.
   Off pressors for 24 hrs.
   Trach planned for Monday with family now in agreement
   History obtained from Medical records
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-25**] 11:00 AM
   Tobramycin - [**2120-1-26**] 04:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-27**] 08:19 AM
   Other medications:
   lidocane patch, fentanyl patch, docusate, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-27**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 103 (71 - 106) bpm
   BP: 120/65(79) {81/40(51) - 120/71(79)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,103 mL
                                                                  1,230 mL
   PO:
             TF:
                                                                  1,920 mL
                                                                    951 mL
   IVF:
                                                                  1,043 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    670 mL
   Urine:
                                                                  1,010 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  2,053 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   Compliance: 294.1 cmH2O/mL
   SpO2: 100%
   ABG: /39/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Obese, Morbid obesity
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Marked UE Edema
   Musculoskeletal: Unable to stand
   Skin:  Wound infection on back
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   265 K/uL
   116 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.2 mEq/L
   42 mg/dL
   98 mEq/L
   139 mEq/L
   25.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2120-1-23**]  09:42 PM
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
   WBC
   7.0
   4.4
   4.5
   4.9
   4.5
   Hct
   26.7
   22.4
   24.7
   24.3
   26.5
   25.3
   25.5
   Plt
   [**Telephone/Fax (3) 11446**]50
   265
   Cr
   0.6
   0.4
   0.4
   0.4
   TCO2
   43
   45
   43
   Glucose
   145
   123
   104
   116
   Other labs: PT / PTT / INR:12.7/34.1/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR - Clearer than yesterday
   Microbiology: acinetobacter in sputum
   Assessment and Plan
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout with
   difficulty weaning off vent and family discussion on [**2120-1-25**] to discuss
   trach/PEG.
   # Hypercarbic Respiratory Failure: Currently intubated s/p failed
   extubation after going to OR for washout on [**1-19**]. Difficulty weaning
   likely attributed to COPD, obesity, fluid status, and infection.
   - Continue to wean as tolerated
   - Will consult IP regarding trach/PEG once form family consent
   - Continue prednisone 10mg qd (10mg started on [**1-23**] from 25mg on [**1-20**]);
   consider decreasing dose 1/22 although will likely continue taper
   - Continue Albuterol, Ipratropium
   - Hold lasix given low MAPs
   - Follow palliative care/social work/ethics recommendations; appreciate
   their input
   # T6 to L4 Fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.  Currently with
   acinetobacter, gram positive cocci on [**1-23**], coag neg staph on [**1-20**].
   Currently with serosanguinous drainage at site.
   - Follow ID recommendations; appreciate their input
   - Contact ortho spine regarding serosanguinous drainage
   - Follow spine recommendations; appreciate their input
   - Tigecycline and tobramycin (now q36), f/u levels and continue to
   adjust dosing
   - Continue fentanyl/lidocaine patch
   # Positive Cultures (blood: [**1-14**], 13, 16, 19; sputum: [**1-23**]): Multiple
   sources likely; GPC from PICC line on [**1-14**]; Most likely infection from
   lines and will need line holiday when hemodynamically stable. Continue
   antibiotic treatment and keep PICC line in at this time.
   - Line removal when hemodynamically stable
   - Follow ID recommendations; appreciate their input
   - Discontinue linezolid as tigecycline covering
   - Continue daily blood culture; repeat sputum culture
   # Anemia: Stable; slight drop in Hct to 22.4 on [**1-24**]. Likely dilutional
   as all cell lines down. Possible serosanguinous drainage from wound. No
   signs of bleeding.
   - Maintain active type and screen
   - Check hct [**Hospital1 **]
   - Guaiac stools
   - Maintain transfusion goal > 25
   # Left shoulder dislocation: Dislocated yesterday during move to CT.
   - Continue lidocaine patch
   - Follow ortho trauma recs; appreciate their input
 daily CXR to
   insure placement
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
 this needs to be addressed
   with patient and family. Dr [**Last Name (STitle) 616**] (PCP) visited [**1-25**] and said
   patient ambivalent.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete ([**3-7**]) - [**2120-1-27**] 08:15 AM 80 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-01-28 07:58:00 Physician Resident Progress Note
Chief Complaint: Transferred after PEA arrest in context of COPD flare,
   with resuscitation complicated by spinal fracture.
   So far, COPD stabilized, spine stabilized with external fixation,
   subsequent wash-out and culture of acinetobacter from wound and MSSA
   from blood. Major issue now includes determining overall goals of care
   with patient, family, medical team given grave prognosis, particularly
   now intubation extending beyond three weeks.
   24 Hour Events:
   - ID recommended us to continue Tigecycline /Tobramycin for 14 days
   total, to remove PICC line and treat with 7 days of Linezolid 600mg q8
   s/p removal. They have signed off.
   - Pharmacology is following and obtained Tobramycin trough prior to
   1600 administration and peak following administration. They were
   satisfied with the results (trough < 2; peak slightly high) and
   recommended re-checking trough in [**4-8**] days ([**1-31**] or [**2-1**]).
   - IP was curbsided and notified that patient will likely go for a
   tracheostomy on Monday. They asked to be consulted/told again on
   Monday. Will need NPO/pre-op on Sunday night.
   - UOP steady throughout the day. Will continue to follow.
   - Daughter, [**Name (NI) 272**], says that she would want mother to be shocked in case
   of a code. Will need to discuss code status with the team.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2120-1-25**] 11:00 AM
   Tobramycin - [**2120-1-27**] 04:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-27**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-28**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 95 (76 - 106) bpm
   BP: 94/40(52) {89/39(52) - 120/65(556)} mmHg
   RR: 17 (14 - 62) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,480 mL
                                                                    716 mL
   PO:
             TF:
                                                                  1,920 mL
                                                                    606 mL
   IVF:
                                                                    440 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    375 mL
   Urine:
                                                                  1,395 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,085 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 75.8 cmH2O/mL
   SpO2: 100%
   ABG: ///40/
   Ve: 7.6 L/min
   Physical Examination
   General: Intubated, minimally sedated and responsive, communicative but
   mute with tube.
   Lungs: Faint BS bilaterally, transmitted Endotracheal tube/upper airway
   sounds.
   CV: Distant heart sounds, regular, S1 and S2, no rubs or gallops
   appreciated
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity clearing. Some erythema on right at site of A-line
   resolving.
   Neurologic:  Communicative but unable to vocalize with tube.  Alert.
   Able to answer yes and no appropriately.
   Skin: Stable lower extremity erythema (see extremities above also).
   Labs / Radiology
   230 K/uL
   7.7 g/dL
   120 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.2 mEq/L
   45 mg/dL
   96 mEq/L
   139 mEq/L
   24.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
   WBC
   7.0
   4.4
   4.5
   4.9
   4.5
   5.3
   Hct
   26.7
   22.4
   24.7
   24.3
   26.5
   25.3
   25.5
   24.6
   Plt
   [**Telephone/Fax (3) 11456**]
   Cr
   0.6
   0.4
   0.4
   0.4
   0.3
   TCO2
   45
   43
   Glucose
   145
   123
   104
   116
   120
   Other labs: PT / PTT / INR:13.2/36.9/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No new imaging today.
   Microbiology: Acinetobacter from sputum and wound
   Coag. negative staph from blood (several times)
   Enterobacter from sputum
   ECG: No new today.
   Assessment and Plan
   This 76 year-old woman with morbid obesity, COPD (s/p smoking) and
   likely obesity-related respiratory compromise, p/w spinal fracture and
   COPD flare.
   External fixation of the spine performed, c/b infection with
   acinetobacter and low grade sepsis. Pronosis is grave at present. PEG
   and tracheostomy may be performed on Monday. Extubation has been
   difficult and she is at about three weeks of intubation now. Best
   expectation is increased stability with tracheostomy and possible
   ventilator rehab. Will be important, per Dr [**First Name (STitle) 8909**] and [**Doctor Last Name 8368**], the
   patient is likely very concerned that her daughters successfully
   navigate this difficult situation.
   # Sepsis
   Numerous cultures positive for coagulase negative staphlococcus.
   Presently treated with both tigecycline and tobramycin for this and
   acinetobacter wound infection. Per ID, continue Tigecycline /Tobramycin
   for 14 days total (starting [**1-24**]). To remove the PICC line and treat
   with 7 days of Linezolid 600mg q8 s/p removal.
   - Tige/Tobra for 14 d (started [**1-24**], now d4)
   # Wound Infection
   Examined today. Palpation revealed no collection superficially.
   Appropriate erythema to stage of wound healing. No sign of infection of
   further drainage. Deep culture with acinetobacter cultured (also in
   sputum). Therefore covered with tobramycin and tigecycline.
   - Tige/tobra for 14 d (d1 = [**1-24**])
   - Continue to change dressings daily for now and examine for signs of
   infection.
   # Ventilation
   Three weeks on vent now with two failed extubations (tired out then
   became increasingly hypoxic). Presently AC 500 cc x 14 with 5 cm H2O.
   After tracheostomy and stabilization, may be able to go to ventilator
   rehab. Dosing of antibiotics at rehab needs to be checked (with they
   dose q8?)
   - Unlikely to thrive with extubation now so maintain, but recalculate
   RSBI
   - Ensure that tracheostomy acceptable to all parties today (patient,
   family, medical team, surgery, anesthetics)\
   # Left shoulder dislocation
   - Now reduced
   - Follow and have low threshold to x-ray if pain worsens
   # Hypotension
   Off pressors. Watch fluid status carefully and keep UOP to > 30 cc/hr.
   # Mental Status
   Appears depressed, although full evaluation of mood difficult while
   tubed. Has been somewhat lethargic.
   - Hold olanzapine for now given lethargy
   - Will not engage Psychiatry or start treatment at this time given
   intubation
 need to verify
   # PEG and tracheostomy
   Consensus appear to be to perform procedures, likely in OR. Will need
   to discuss with IP in the morning. Confirm with family, but when Dr
   [**Last Name (STitle) 6011**] back on Monday
 given his relationship with family.
   # Diabetes
   Stably controlled with ISS and glucose typically 100-150.
   - Follow
   # COPD
   Resolved and now on 5 mg prednisone.
   - Continue prednisone today and consider stopping or stress dose
   steroids for OR on Monday a.m.
   ICU Care
   Nutrition:
   Replete ([**3-7**]) - [**2120-1-27**] 10:55 PM 80 mL/hour
   Glycemic Control:
   ISS
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   (A-line removed; no peripheral access at present)
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole
   VAP:  antibiotic regimen may prevent
   Comments: Bowel regimen
   Communication:  Comments: Family
 has been difficult.
   Code status: Full code
   Disposition: ICU for now, possible to go to ventilator rehab if
   antibiotic therapy can continue.

2120-01-28 11:48:00 Physician Attending Progress Note
Chief Complaint: 76 yr woman s/p PEA arrest with failure to wean
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Trach/PEG for Monday
   Stable overnight on Vent
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-27**] 04:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-28**] 08:29 AM
   Other medications:
   lidocaine patch, bisacodyl, docusate, tigacycline,prednisolone 5mg qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-28**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (76 - 98) bpm
   BP: 98/49(60) {89/39(52) - 112/58(556)} mmHg
   RR: 20 (14 - 62) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,480 mL
                                                                  1,214 mL
   PO:
             TF:
                                                                  1,920 mL
                                                                    924 mL
   IVF:
                                                                    440 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    595 mL
   Urine:
                                                                  1,395 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,085 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: 75.8 cmH2O/mL
   SpO2: 100%
   ABG: ///40/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   230 K/uL
   120 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.2 mEq/L
   45 mg/dL
   96 mEq/L
   139 mEq/L
   24.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2120-1-24**]  02:30 AM
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
   WBC
   7.0
   4.4
   4.5
   4.9
   4.5
   5.3
   Hct
   26.7
   22.4
   24.7
   24.3
   26.5
   25.3
   25.5
   24.6
   Plt
   [**Telephone/Fax (3) 11456**]
   Cr
   0.6
   0.4
   0.4
   0.4
   0.3
   TCO2
   45
   43
   Glucose
   145
   123
   104
   116
   120
   Other labs: PT / PTT / INR:13.2/36.9/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Microbiology: No new
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout with
   difficulty weaning off vent and family discussion on [**2120-1-25**] to discuss
   trach/PEG.
   # Hypercarbic Respiratory Failure: Currently intubated s/p failed
   extubation after going to OR for washout on [**1-19**]. Difficulty weaning
   likely attributed to COPD, obesity, fluid status, and infection.
   Trach/PEG for tomorrow
   - Continue prednisone 10mg qd (10mg started on [**1-23**] from 25mg on [**1-20**]);
   consider decreasing dose 1/22 although will likely continue taper
   - Continue Albuterol, Ipratropium
   - Hold lasix given low MAPs
   - Follow palliative care/social work/ethics recommendations; appreciate
   their input
   # T6 to L4 Fusion, T12-L2 Laminectomy: s/p operative intervention for
   unstable T11 fracture and s/p OR for washout.  Currently with
   acinetobacter, gram positive cocci on [**1-23**], coag neg staph on [**1-20**].
   Currently with serosanguinous drainage at site.
   - Follow ID recommendations; appreciate their input
   - Contact ortho spine regarding serosanguinous drainage
   - Follow spine recommendations; appreciate their input
   - Tigecycline and tobramycin (now q36), f/u levels and continue to
   adjust dosing
   - Continue fentanyl/lidocaine patch
   # Positive Cultures (blood: [**1-14**], 13, 16, 19; sputum: [**1-23**]): Multiple
   sources likely; GPC from PICC line on [**1-14**]; Most likely infection from
   lines and will need line holiday when hemodynamically stable. Continue
   antibiotic treatment and keep PICC line in at this time.
   - Line removal when hemodynamically stable
   - Follow ID recommendations; appreciate their input
   - Discontinue linezolid as tigecycline covering
   - Continue daily blood culture; repeat sputum culture
   # Anemia: Stable; slight drop in Hct to 22.4 on [**1-24**]. Likely dilutional
   as all cell lines down. Possible serosanguinous drainage from wound. No
   signs of bleeding.
   - Maintain active type and screen
   - Check hct [**Hospital1 **]
   - Guaiac stools
   - Maintain transfusion goal > 25
   # Left shoulder dislocation: Dislocated yesterday during move to CT.
   - Continue lidocaine patch
   - Follow ortho trauma recs; appreciate their input
   - Continue to monitor for signs of pain/dislocation
   # s/p PEA arrest: Escaped serious myocardial damage. Will discuss with
   team regarding CAD management as etiology of PEA arrest likely [**2-6**] to
   hypercarbic respiratory failure.
   # DM: Restart ISS given post-op stress in addition to ongoing steroids.
   Can discontinue and restart [**Hospital1 **] fingerstick at later date.
   # FEN: Replete electrolytes prn; tube feeds;
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
 this needs to be addressed
   with patient and family. Dr [**Last Name (STitle) 616**] (PCP) visited [**1-25**] and said
   patient ambivalent.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete ([**3-7**]) - [**2120-1-28**] 08:26 AM 80 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2120-01-29 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Good urine output throughout the day.
   - Tobramycin peak 12.4, trough 1.4.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-28**] 04:14 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-29**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 82 (75 - 97) bpm
   BP: 92/48(58) {83/38(39) - 111/64(97)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,463 mL
                                                                     48 mL
   PO:
             TF:
                                                                  1,921 mL
                                                                     13 mL
   IVF:
                                                                    362 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    440 mL
   Urine:
                                                                  1,435 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,028 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 32 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: ///40/
   Ve: 7.2 L/min
   Physical Examination
   General: Intubated, minimally sedated and responsive, communicative but
   mute with tube.
   Lungs: Faint BS bilaterally, transmitted Endotracheal tube/upper airway
   sounds.
   CV: Distant heart sounds, regular, S1 and S2, no rubs or gallops
   appreciated
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity clearing. Some erythema on right at site of A-line
   resolving.
   Neurologic:  Communicative but unable to vocalize with tube.  Alert.
   Able to answer yes and no appropriately. Moves upper extremity
   spontaneously, no movement of lower extremity.
   Skin: Stable lower extremity erythema (see extremities above also).
   Labs / Radiology
   194 K/uL
   8.3 g/dL
   99 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.6 mEq/L
   43 mg/dL
   97 mEq/L
   138 mEq/L
   26.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
   WBC
   4.4
   4.5
   4.9
   4.5
   5.3
   5.3
   Hct
   22.4
   24.7
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   Plt
   197
   216
   250
   265
   230
   194
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   45
   43
   Glucose
   123
   104
   116
   120
   99
   Other labs: PT / PTT / INR:13.3/38.6/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: No New
   Microbiology: Blood Cultures: [**2034-1-23**]: NGTD
   [**2120-1-23**] 6:06 pm BLOOD CULTURE      Source: Line-arterial.
      Blood Culture, Routine (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    FINAL SENSITIVITIES.
            COAG NEG STAPH does NOT require contact precautions,
   regardless of
            resistance Oxacillin RESISTANT Staphylococci MUST be reported
   as
            also RESISTANT to other penicillins, cephalosporins,
   carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations.
            Rifampin should not be used alone for therapy.
            Please contact the Microbiology Laboratory ([**7-/2416**])
   immediately if
            sensitivity to clindamycin is required on this patient's
   isolate.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPHYLOCOCCUS, COAGULASE NEGATIVE
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------     4 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   VANCOMYCIN------------     2 S
   Wound: ACINETOBACTER BAUMANNII COMPLEX
   Assessment and Plan
   This 76 year-old woman with morbid obesity, COPD (s/p smoking) and
   likely obesity-related respiratory compromise, p/w spinal fracture and
   COPD flare.
   External fixation of the spine performed, c/b infection with
   acinetobacter and low grade sepsis. Pronosis is grave at present. PEG
   and tracheostomy may be performed on Monday. Extubation has been
   difficult and she is at about three weeks of intubation now. Best
   expectation is increased stability with tracheostomy and possible
   ventilator rehab. Will be important, per Dr [**First Name (STitle) 8909**] and [**Doctor Last Name 8368**], the
   patient is likely very concerned that her daughters successfully
   navigate this difficult situation.
   # Bacteremia
   Numerous cultures positive for coagulase negative staphlococcus.
   Presently treated with both tigecycline and tobramycin for this and
   acinetobacter wound infection. Per ID, continue Tigecycline /Tobramycin
   for 14 days total (starting [**1-24**]). To remove the PICC line and treat
   with 7 days of Linezolid 600mg q8 s/p removal.
   - Tige/Tobra for 14 d (started [**1-24**], now d5)
   # Wound Infection/Fusion of Spine
   Examined today. Palpation revealed no collection superficially.
   Appropriate erythema to stage of wound healing. No sign of infection of
   further drainage. Deep culture with acinetobacter cultured (also in
   sputum). Therefore covered with tobramycin and tigecycline. Ortho Spine
   will take patient to OR for wash out if she develops more drainage or
   if wound opens.
   - Tige/tobra for 14 d (d1 = [**1-24**])
   - Continue to change dressings daily for now and examine for signs of
   infection.
   - FU Ortho Spine Recs.
   # Ventilation
   Three weeks on vent now with two failed extubations (tired out then
   became increasingly hypoxic). Presently AC 500 cc x 14 with 5 cm H2O.
   After tracheostomy and stabilization, may be able to go to ventilator
   rehab.
   - Unlikely to thrive with extubation now
   - Ensure that tracheostomy acceptable to all parties today (patient,
   family, medical team, surgery, anesthetics)
   - Consult IP today
 plan for tracheostomy tomorrow.
   # Left shoulder dislocation
   - Now reduced
   - Follow and have low threshold to x-ray if pain worsens
   # Hypotension
   Only on Non Invasive blood pressure monitoring at the moment.  Off
   pressors. Watch fluid status carefully and keep UOP to > 30 cc/hr.
   # Mental Status
   Appears depressed, although full evaluation of mood difficult while
   tubed. Has been somewhat lethargic.
   - Hold olanzapine for now given lethargy
   - Will not engage Psychiatry or start treatment at this time given
   intubation
 need to verify
   # PEG and tracheostomy
   Consensus appear to be to perform procedures, likely in OR. Will need
   to discuss with IP in the morning. Confirm with family, but when Dr
   [**Last Name (STitle) 6011**] back on Monday
 given his relationship with family.
   # Diabetes
   Stably controlled with ISS and glucose typically 100-150.
   - Follow
   # COPD
   Resolved and now on 5 mg prednisone.
   - Continue prednisone today and consider stopping or stress dose
   steroids for OR on Monday a.m.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-01-29 12:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, COPD, s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt c/o of some shoulder pain this weekend
   Not getting good cuff pressures on forearm but pt maintaining good
   urine output
   24 Hour Events:
   No events
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-28**] 04:14 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-28**] 10:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   [**Year (4 digits) **], Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-1-29**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 95 (75 - 95) bpm
   BP: 99/52(64) {83/38(53) - 111/64(97)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  2,463 mL
                                                                    174 mL
   PO:
             TF:
                                                                  1,921 mL
                                                                     13 mL
   IVF:
                                                                    362 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    650 mL
   Urine:
                                                                  1,435 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,028 mL
                                                                   -476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///40/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   mild throughout, Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   194 K/uL
   99 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.6 mEq/L
   43 mg/dL
   97 mEq/L
   138 mEq/L
   26.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2120-1-25**]  05:00 AM
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
   WBC
   4.4
   4.5
   4.9
   4.5
   5.3
   5.3
   Hct
   22.4
   24.7
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   Plt
   197
   216
   250
   265
   230
   194
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   45
   43
   Glucose
   123
   104
   116
   120
   99
   Other labs: PT / PTT / INR:13.3/38.6/1.1, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout with
   difficulty weaning off vent.
   #Respiratory Failure: IP consult for trach/PEG
   - Continue prednisone 10mg qd
 taper after trach
   # T6 to L4 Fusion, T12-L2 Laminectomy: Acenitobacter in wound
   - Tigecycline and tobramycin
   # Positive Cultures (blood: [**1-14**], 13, 16, 19; sputum: [**1-23**]): All
   speciation s. epi.  Cont tigecycline.  Keep PICC in place as other
   access options poor.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:  Spoke with Mrs. [**Known lastname 5681**]
 daughter, [**Name (NI) 755**], o phone this
   evening.  She has already been contact[**Name (NI) **] by anesthesiololy regarding
   trach and PEG.  Unfortunately, she was upset about an event over the
   weekend where her sister [**Name (NI) 272**] did not feel the care providers paid
   adequate attention to blood that she saw in her mother
s [**Name2 (NI) **].   We
   discussed her concerns and we will touch base again tomorrow.
   Pt is critically ill.  Time spent 10 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2120-1-29**] 18:48 ------

2120-01-30 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - IP: OR in AM for Trach/PEG, NPO after midnight, Coags in AM, Hold SC
   Heparin, Held on stress dose steroids
   - Tobramycin peak , trough
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-29**] 04:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-29**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-29**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-30**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 70 (69 - 95) bpm
   BP: 89/43(54) {89/41(50) - 117/73(80)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,387 mL
                                                                     34 mL
   PO:
             TF:
                                                                    413 mL
   IVF:
                                                                    873 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    300 mL
   Urine:
                                                                  1,250 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    137 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: ///38/
   Ve: 7.6 L/min
   Physical Examination
   General: Intubated, minimally sedated and responsive, communicative but
   mute with tube.
   Lungs: Faint BS bilaterally, transmitted endotracheal tube/upper airway
   sounds.
   CV: Distant heart sounds, regular, S1 and S2, no rubs or gallops
   appreciated
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity clearing. Some erythema on right at site of A-line
   resolving.
   Neurologic:  Communicative but unable to vocalize with tube.  Alert.
   Able to answer yes and no appropriately. Moves upper extremity
   spontaneously, no movement of lower extremity.
   Skin: Stable lower extremity erythema (see extremities above also).
   Labs / Radiology
   201 K/uL
   8.5 g/dL
   100 mg/dL
   0.2 mg/dL
   38 mEq/L
   4.5 mEq/L
   38 mg/dL
   97 mEq/L
   139 mEq/L
   25.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
   WBC
   4.5
   4.9
   4.5
   5.3
   5.3
   6.0
   Hct
   24.7
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   25.8
   Plt
   [**Telephone/Fax (3) **]30
   194
   201
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   TCO2
   45
   43
   Glucose
   104
   116
   120
   99
   100
   Other labs: PT / PTT / INR:13.8/43.7/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   NO NEW RADIOGRAPHY
   [**2120-1-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2120-1-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2120-1-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2120-1-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2120-1-23**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   {ACINETOBACTER BAUMANNII COMPLEX, ENTEROBACTER CLOACAE, GRAM NEGATIVE
   ROD #3} INPATIENT
   [**2120-1-23**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2120-1-23**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2120-1-23**]  BLOOD CULTURE Blood Culture, Routine-FINAL {STAPHYLOCOCCUS,
   COAGULASE NEGATIVE}; Aerobic Bottle Gram Stain-FINAL INPATIENT
   Assessment and Plan
   This 76 year-old woman with morbid obesity, COPD (s/p smoking) and
   likely obesity-related respiratory compromise, p/w spinal fracture and
   COPD flare.
   External fixation of the spine performed, c/b infection with
   acinetobacter and low grade sepsis. Prognosis is grave at present. PEG
   and tracheostomy to be performed today. Extubation has been difficult
   and she is at about three weeks of intubation now. Best expectation is
   increased stability with tracheostomy and possible ventilator rehab.
   Will be important to note, per Dr [**First Name (STitle) 8909**] and [**Doctor Last Name 8368**], the patient is
   likely very concerned that her daughters successfully navigate this
   difficult situation.
   # Bacteremia
   Numerous cultures positive for coagulase negative staphylococcus.
   Presently treated with both tigecycline and tobramycin for this and
   acinetobacter wound infection. Per ID, continue Tigecycline /Tobramycin
   for 14 days total (starting [**1-24**]) and to remove the PICC line and treat
   with 7 days of Linezolid 600mg q8 s/p removal.
   - Tige/Tobra for 14 d (started [**1-24**], now d6)
   - Consider removal of PICC tomorrow; will discuss with team at that
   time
   # Wound Infection/Fusion of Spine
   Examined regularly and followed by ortho spine. Palpation revealed no
   collection superficially. Appropriate erythema to stage of wound
   healing. No sign of infection of further drainage. Deep culture with
   acinetobacter cultured (also in sputum). Therefore covered with
   tobramycin and tigecycline. Ortho spine will take patient to OR for
   wash out if she develops more drainage or if wound opens.
   - Tige/Tobra for 14 d (started [**1-24**], now d6)
   - Continue to change dressings daily for now and examine for signs of
   infection.
   - FU Ortho Spine Recs.
   # Ventilation
   Three weeks on vent now with two failed extubations (tired out then
   became increasingly hypoxic). Presently AC 500 cc x 14 with 5 cm H2O.
   After tracheostomy and stabilization, may be able to go to ventilator
   rehab.
   - Unlikely to thrive with extubation now
   - Plan for OR today with IP
   - Ensure that tracheostomy acceptable to all parties (patient, family,
   medical team, surgery, anesthetics)
   # Left shoulder dislocation
   - Now reduced
   - Follow and have low threshold to x-ray if pain worsens
   # Hypotension
   Only on non invasive blood pressure monitoring at the moment.  Off
   pressors. Watch fluid status carefully and keep UOP to > 30 cc/hr.
   # Mental Status
   Appears depressed, although full evaluation of mood difficult while
   intubated. Has been somewhat lethargic.
   - Hold olanzapine for now given lethargy.
   - Will not engage Psychiatry or start treatment at this time given
   intubation.
   # PEG and Tracheostomy
   Consensus is to perform these procedures, likely in OR. Will need to
   discuss with IP in the morning.
   # Diabetes
   Stably controlled with ISS and glucose typically 100-150.
   - Follow
   # COPD
   Resolved and now on 5 mg prednisone.
   - Continue prednisone today
   - Defer on stress steroids for trach/PEG procedures
   # FEN: Replete electrolytes prn; hold tube feeds for procedure
   # Prophylaxis: Heparin SC; PPI; daily bowel regimen
   # Access: Right power PICC
   # Communication: Daughters [**Name (NI) 755**] [**Telephone/Fax (1) 11255**], [**Name2 (NI) 378**] [**Telephone/Fax (1) 11256**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-01-30 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, T11 fx, s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Planned for trach and PEG today
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-29**] 04:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-29**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-29**] 10:02 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Flowsheet Data as of  [**2120-1-30**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96.1
   HR: 74 (66 - 95) bpm
   BP: 88/54(61) {88/42(50) - 117/73(80)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  1,387 mL
                                                                    152 mL
   PO:
             TF:
                                                                    413 mL
   IVF:
                                                                    873 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    400 mL
   Urine:
                                                                  1,250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    137 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: ///38/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, bullae on L leg
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   201 K/uL
   100 mg/dL
   0.2 mg/dL
   38 mEq/L
   4.5 mEq/L
   38 mg/dL
   97 mEq/L
   139 mEq/L
   25.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2120-1-25**]  07:43 AM
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
   WBC
   4.5
   4.9
   4.5
   5.3
   5.3
   6.0
   Hct
   24.7
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   25.8
   Plt
   [**Telephone/Fax (3) **]30
   194
   201
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   TCO2
   45
   43
   Glucose
   104
   116
   120
   99
   100
   Other labs: PT / PTT / INR:13.8/43.7/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs:
   Imaging: [**1-23**] sputum: acenitobacter
   last coag neg staph in blood 1/19
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture now POD
   #[**9-5**] s/p fusion T6 to L4, laminectomy T12-L2 and s/p OR washout with
   difficulty weaning off vent.
   #Respiratory Failure:
   - Trach +/- PEG today
   - Pred 5mg daily
   # T6 to L4 Fusion, T12-L2 Laminectomy: Acenitobacter in wound
   - Tigecycline and tobramycin
   # Positive Cultures : Last coag neg staph cx [**1-20**]
   -Cont tigecycline
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin (hold today)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2120-01-31 07:32:00 Physician Resident Progress Note
Chief Complaint: Transferred from OSH with spinal fracture sustained
   during CPR after PEA in context of COPD flare.
   24 Hour Events:
   - Returned from OR during mid afternoon. No complications per IP, and
   they recommended CXR to confirm trach position per protocol (ordered
   and was unremarkable) and to put PEG tube to intermittent wall suction
   for 2 hours and then drain to gravity. Ok to use for medications after
   that time. Will hold off until after IP evaluation tomorrow prior to
   starting tube feeds.
   - Patient had episode of transient desaturation down to 80s during the
   night which resolved with repositioning and suctioning of trach.
   - Weaned to pressure support during the evening.
   - IP said tube feeds okay.
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 56**] Medical
   [**Name2 (NI) 11472**]s
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-29**] 04:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-30**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-30**] 09:07 PM
   Other medications:
   See POE.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-31**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 72 (68 - 89) bpm
   BP: 85/34(46) {84/20(41) - 122/62(71)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                    961 mL
                                                                     36 mL
   PO:
             TF:
   IVF:
                                                                    961 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    170 mL
   Urine:
                                                                    910 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 32 cmH2O
   SpO2: 99%
   ABG: ///38/
   Ve: 8.2 L/min
   Physical Examination
   General: Comfortable sitting in bed with trach. mask. Communicative but
   mute with trach.
   Lungs: Faint BS bilaterally, crackles, transmitted tracheal tube/upper
   airway sounds.
   CV: Distant heart sounds, regular, S1 and S2, no rubs or gallops
   appreciated
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity clearing. Some erythema on right at site of A-line
   resolving.
   Neurologic:  Communicative but unable to vocalize with tube.  Alert.
   Able to answer yes and no appropriately. Moves upper extremities
   spontaneously, no movement of lower extremity.
   Skin: Stable lower extremity erythema (see extremities above also).
   Labs / Radiology
   230 K/uL
   8.6 g/dL
   104 mg/dL
   0.4 mg/dL
   38 mEq/L
   4.7 mEq/L
   39 mg/dL
   96 mEq/L
   138 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
                             [**2120-1-31**]  03:16 AM
   WBC
   4.9
   4.5
   5.3
   5.3
   6.0
   8.0
   Hct
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   25.8
   27.7
   Plt
   [**Telephone/Fax (3) 11473**]94
   201
   230
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   0.4
   TCO2
   45
   43
   Glucose
   104
   116
   120
   99
   100
   104
   Other labs: PT / PTT / INR:13.9/40.9/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No new images this a.m.
   Microbiology: Blood cultures pending without growth so far from [**1-25**],22,24,27
   ECG: No new today.
   Assessment and Plan
   Ms. [**Known lastname 5681**] is a 76 year old women with morbid obesity, COPD, OSA,
   presenting from OSH with spinal fracture sustained during CPR after PEA
   in context of COPD flare. COPD flare resolved. Spine stabilized with
   external fixation. Wound washed out. PEG and trach. placed yesterday.
   Overall, it has not been possible to wean Ms. [**Known lastname 5681**] from ventilation
   given likely restrictive and obstructive physiology from OSA, COPD,
   obesity and now prolonged ventilation. Now that she has a tracheostomy
   and PEG she may be able to go to ventilator rehab., but the prognosis
   remains poor.
   # Sepsis and Wound Infection
   Coagulase negative staph in blood culture and acinetobacter from wound
   and sputum. Rx w/ tige/tobra started on [**1-24**] for 14d. Blood cultures
   since then have been negative.
   - Place PIV
 if possible then remove PICC and then replace new PICC
   tomorrow
 if cannot get PIV keep present PICC.
   - Continue tige/tobra until 14 d
   # Ventilation
   Now on trach. mask. Was SOB
 anxiety (if see low CO2, at least on
   VBG), neuromuscular, hypercarbic (not consistent with anxiety) given
   good O2 saturation.
   - Tiring somewhat, so will intermittent go back to pressure support,
   depending and how she goes sitting in chair.
   - Monitor status and VBG today
   # Spine fracture
   Pain management, stability and wound presently good. Cover sepsis to
   prevent seeding.
   - Fentanyl patch
   - Check incision later when moved again
   # Shoulder dislocation
   Painful. Reduced recently. Will follow and repeat x-ray if pain worsens
   - Fentanyl patch
   - Lidocaine patch on shoulder
   # COPD
   Flare resolved now.
   - Stop prednisone
   - Continue MDIs
   # Bowel regimen Presently: Miralax PRN; bisacodyl standing; senna PRN;
   colace PRN
   - Change to: Bisacodyl PRN; senna PRN; colace standing
   # Anxiety/restlessness/insomnia
   - Olanzapine 5 mg [**Hospital1 **]
 stop today
   - Midazolam PRN - stop today
   - Stop propofol
   # Hypotension
   - Stop pressors
   # Renal failure
   BUN high, Cr rising, K and phos rising.
   - Start tube feeds with water flushes 30 mL q4h
   # Diabetes
   - Controlled on ISS. Will improve with cessation of steroids.
   # Electrolytes
   - Sliding scales for K, Mg
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2120-01-31 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p PEA arrest, T11 fx
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Felt dyspneic on TM trial this AM
   24 Hour Events:
   Trach and PEG yesterday
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-29**] 04:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-30**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-30**] 09:07 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-1-31**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 92 (68 - 93) bpm
   BP: 85/47(49) {84/20(41) - 122/62(71)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                    961 mL
                                                                     55 mL
   PO:
             TF:
   IVF:
                                                                    961 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    280 mL
   Urine:
                                                                    910 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 32 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, trached
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   230 K/uL
   104 mg/dL
   0.4 mg/dL
   38 mEq/L
   4.7 mEq/L
   39 mg/dL
   96 mEq/L
   138 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2120-1-25**]  08:28 AM
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
                             [**2120-1-31**]  03:16 AM
   WBC
   4.9
   4.5
   5.3
   5.3
   6.0
   8.0
   Hct
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   25.8
   27.7
   Plt
   [**Telephone/Fax (3) 11473**]94
   201
   230
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   0.4
   TCO2
   45
   43
   Glucose
   104
   116
   120
   99
   100
   104
   Other labs: PT / PTT / INR:13.9/40.9/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture s/p fusion
   T6 to L4, laminectomy T12-L2 and s/p OR washout with difficulty weaning
   off vent., now trached
   #Respiratory Failure:
   - s/p trach
 TM trials as tolerated
   - Pred 5mg daily
   # T6 to L4 Fusion, T12-L2 Laminectomy: Acenitobacter in wound
   - Tigecycline and tobramycin
   # Positive Cultures : Last coag neg staph cx [**1-20**]
   -Cont tigecycline
   -Will try to get piv
s in for at least a day so we can take out PICC
   and replace tomorrow (though piv
s will be difficult to place)
   Dispo planning.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill
   ------ Protected Section ------
   Mrs. [**Known lastname 5681**] was able to trach mask for several hours today before
   becoming more fatigued.  She is now back on the ventilator and will
   stay on overnight.  Her ability to tolerate trach mask today suggests
   that she may eventually be able to wean from the ventilator.  It also
   suggests that she may be able to use a speaking valve for short periods
   in the near future.
   Updated Mrs. [**Known lastname 5681**]
 daughter, [**Name (NI) 755**], and also discussed that
   transfer to an LTAC or rehab setting by the end of the week would be
   likely.
   Pt is critically ill.  Time spent 15 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2120-1-31**] 16:36 ------

2120-02-01 07:26:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 5681**] is a 76 year old women with morbid
   obesity, COPD, OSA, presenting from OSH with spinal fracture sustained
   during CPR after PEA in context of COPD flare.
   COPD flare resolved. Spine stabilized with external fixation. Wound
   washed out. PEG and trach. placed. Still requiring intermittent
   pressure support.
   24 Hour Events:
 BLOOD CULTURED - At [**2120-2-1**] 04:08 AM
   - Tube Feeds started
   - IP: Okay to start tube feeds
   - Back to vent early afternoon. Looked tired. VBG PCO2 84.
   - Blood Pressure Low: Bolused one liter. Pressure improved. Bolused
   another liter for low BP later in the evening - improved.
   - IV unable to place PIVs. Plan to treat through infection. Leave PICC
   in place.
   - This a.m. desaturated with increased secretions. Also hypotensive.
   Given bolus of NS.  Suctioned. Returned briefly to AC then PSV.
   Recovered pressure. Started on pressors.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-31**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-31**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2120-1-31**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-1**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 84 (67 - 93) bpm
   BP: 82/59(62) {61/29(27) - 173/125(80)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,731 mL
                                                                    370 mL
   PO:
             TF:
                                                                    341 mL
                                                                    287 mL
   IVF:
                                                                  3,330 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    195 mL
   Urine:
                                                                    755 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,976 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (444 - 464) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 7.7 L/min
   Physical Examination
   General: Comfortable sitting in bed with trach. mask. Communicative but
   mute with trach.
   Lungs: Faint BS bilaterally, crackles, transmitted tracheal tube/upper
   airway sounds.
   CV: Distant heart sounds, regular, S1 and S2, no rubs or gallops
   appreciated
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding. Tender around PEG
   site.
   GU: Foley with clear yellow urine
   Ext: Warm, well perfused, 2+ edema bilaterally to knees (pitting on
   non-pitting), stable lower extremity erythema. Erythema left upper
   extremity clearing. Some erythema on right at site of A-line
   resolving.
   Neurologic:  Communicative but unable to vocalize with tube.  Alert.
   Able to answer yes and no appropriately. Moves upper extremities
   spontaneously, no movement of lower extremity.
   Skin: Stable lower extremity erythema (see extremities above also).
   Labs / Radiology
   259 K/uL
   8.6 g/dL
   111 mg/dL
   0.3 mg/dL
   37 mEq/L
   4.5 mEq/L
   41 mg/dL
   99 mEq/L
   141 mEq/L
   27.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
                             [**2120-1-31**]  03:16 AM
                             [**2120-2-1**]  04:08 AM
   WBC
   4.9
   4.5
   5.3
   5.3
   6.0
   8.0
   11.9
   Hct
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   25.8
   27.7
   27.5
   Plt
   [**Telephone/Fax (3) 11473**]94
   201
   230
   259
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   0.4
   0.3
   TCO2
   43
   Glucose
   104
   116
   120
   99
   100
   104
   111
   Other labs: PT / PTT / INR:13.9/40.9/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR: Poor study with little change from previous.
   Microbiology: [**2120-1-25**] - Final no growth. Several since with no growth.
   ECG: No new.
   Assessment and Plan
   Ms. [**Known lastname 5681**] is a 76 year old women with morbid obesity, COPD, OSA,
   presenting from OSH with spinal fracture sustained during CPR after PEA
   in context of COPD flare. COPD flare resolved. Spine stabilized with
   external fixation. Wound washed out. PEG and trach. placed yesterday.
   # Respiratory Failure
   Likely plugging given increased secretions and rapid resolution (prior
   to second chest x-ray which showed no secretions).
   - Continue PSV with occasional time on tracheostomy. Mask only to
   exercise respiratory muscles.
   - Likely plugging and resolution prior to film, but repeat CXR in a.m.
   - Repeat VBG later
   # Sepsis and Wound Infection
   Coagulase negative staph in blood culture and acinetobacter from wound
   and sputum. Rx w/ tige/tobra started on [**1-24**] for 14d. Blood cultures
   since then have been negative. Given difficult access will treat
   through PICC.
   - Continue tige/tobra until 14 d
 this is day 9
   # Leukocytosis
   Rising now without cause. Concern for organism not covered by
   tige/tobra.
   - CBC with diff.
   - Can broaden with linezolid is necessary (vancomycin allergy
   desquamation)
   # Spine fracture
   Pain management, stability and wound presently good. Cover sepsis to
   prevent seeding.
   - Fentanyl patch (increase to 100 micrograms today from 75)
   - Check incision later when moved again
   # Shoulder dislocation
   Painful. Reduced recently. Will follow and repeat x-ray if pain worsens
   - Fentanyl patch
   - Lidocaine patch on shoulder
   # COPD
   Flare resolved now.
   - Continue MDIs
   # Bowel regimen
   - Bisacodyl PRN; senna PRN; colace standing
   # Anxiety/restlessness/insomnia
   - Follow and treat pharmacologically if necessary
   # Hypotension
   - Follow fluid status, UOP and bolus if indicated
   - Bolus if necessary
   - Pressors if needed
   # Renal failure
   BUN high, Cr rising, K and phos rising.
   - Tube feeds progressing to 80 with water flushes 30 mL q4h
   - Increase water flushes today if indicated by evaluation of fluid
   status
   # Diabetes
   - Controlled on ISS. Will improve with cessation of steroids.
   # Electrolytes
   - Sliding scales for K, Mg
   ICU Care
   Nutrition:
   Replete with Fiber ([**3-7**]) - [**2120-1-31**] 03:28 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2120-02-01 11:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, s/p PEA arrest, T11 fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   SBPs in 80s this AM --> improved with fluid settings
   Brief desat this AM to 80s --> went on A/C transiently, no back on PSV
   Reports shoulder pain
   24 Hour Events:
 BLOOD CULTURED - At [**2120-2-1**] 04:08 AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-1-31**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-1-31**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2120-2-1**] 08:09 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-2-1**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 107 (67 - 107) bpm
   BP: 83/30(44) {53/29(27) - 173/125(80)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
             Total In:
                                                                  3,731 mL
                                                                  1,683 mL
   PO:
             TF:
                                                                    341 mL
                                                                    380 mL
   IVF:
                                                                  3,330 mL
                                                                  1,203 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    335 mL
   Urine:
                                                                    755 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,976 mL
                                                                  1,348 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 351 (351 - 464) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   exp throughout)
   Abdominal: Soft, Tender: over PEG site
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   259 K/uL
   111 mg/dL
   0.3 mg/dL
   37 mEq/L
   4.5 mEq/L
   41 mg/dL
   99 mEq/L
   141 mEq/L
   27.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-1-25**]  11:06 AM
                             [**2120-1-25**]  05:29 PM
                             [**2120-1-26**]  02:46 AM
                             [**2120-1-26**]  02:29 PM
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
                             [**2120-1-31**]  03:16 AM
                             [**2120-2-1**]  04:08 AM
   WBC
   4.9
   4.5
   5.3
   5.3
   6.0
   8.0
   11.9
   Hct
   24.3
   26.5
   25.3
   25.5
   24.6
   26.3
   25.8
   27.7
   27.5
   Plt
   [**Telephone/Fax (3) 11473**]94
   201
   230
   259
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   0.4
   0.3
   TCO2
   43
   Glucose
   104
   116
   120
   99
   100
   104
   111
   Other labs: PT / PTT / INR:13.9/40.9/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:83.6 %, Lymph:9.2 %, Mono:6.7 %, Eos:0.4 %,
   Fibrinogen:215 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture s/p fusion
   T6 to L4, laminectomy T12-L2 and s/p OR washout with difficulty weaning
   off vent., now s/p trach and PEG
   #Respiratory Failure:
   - s/p trach
 TM trials as tolerated
   -Increased secretions today and elevated WBC.  also with brief
   hypoxemic episode
   -Repeating CXR
   - Pred 5mg daily
   -Sputum cx
   # T6 to L4 Fusion, T12-L2 Laminectomy: Acenitobacter in wound
   - Tigecycline and tobramycin
   # Positive Cultures : Last coag neg staph cx [**1-20**]
   -Unable to get piv's.  Since we have not had pos blood cxs for more
   than a week, we will keep PICC and
   Dispo planning.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2120-02-02 07:34:00 Physician Resident Progress Note
Chief Complaint: 76 W w/ COPD, morbid obesity of BMI 74, spine fracture
   in context CPR s/p fixation, sepsis and wound collection, now new A.
   flutter, increased WBCs, fever and hypotension.
   24 Hour Events:
 SPUTUM CULTURE - At [**2120-2-1**] 10:15 AM
 EKG - At [**2120-2-1**] 04:33 PM
 EKG - At [**2120-2-1**] 09:20 PM
 FEVER - 102.0
F - [**2120-2-2**] 04:00 AM
   - Desaturation to low 80s with copious thin sectretions. Suctioned then
   placed on AC, back to PSV. Episode resolved, but was hypotensive. CXR
   subsequently improved from previous day without collapse/pneumo.
   Restarted pressors.
   - 1 L NS at 1600 for drop UOP and BP.
   - Temperature trending up slightly to 99.9 at 16:00. Given WBC,
   hypotension, temperature, concerned for infection. Blood cultures
   clear, but new collection possible.
   - After 10:00 a.m. event above, continued to have tenuous HD: After 9
   p.m. HR typically 150, flutter. Pressure dropped. Lopressor helped
   briefly, but pressures poor. Restarted pressors and then gave esmalol.
   Pressure dumped and pulse barely palp. Pressors and fluid maximized and
   esmalol stopped. Recovered some pressure.
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-2-1**] 03:49 PM
   Linezolid - [**2120-2-2**] 01:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-1**] 03:49 PM
   Metoprolol - [**2120-2-1**] 10:50 PM
   Diltiazem - [**2120-2-2**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 153 (90 - 164) bpm
   BP: 61/56(58) {61/52(44) - 114/74(89)} mmHg
   RR: 35 (17 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
           Total In:
                                                                  6,459 mL
                                                                  2,751 mL
   PO:
           TF:
                                                                    844 mL
                                                                      5 mL
   IVF:
                                                                  5,470 mL
                                                                  2,245 mL
   Blood products:
   500 mL
   Total out:
                                                                    368 mL
                                                                      0 mL
   Urine:
                                                                    368 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,091 mL
                                                                  2,752 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (324 - 528) mL
   PS : 15 cmH2O
   RR (Spontaneous): 41
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.29/50/367/21/-2
   Ve: 17.5 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General: Obtunded but with some mentation. Ventilated by tracheostomy.
   Lungs: Faint BS bilaterally, crackles, transmitted tracheal tube/upper
   airway sounds.
   CV: Tachycardia. Distant heart sounds, regular, S1 and S2, no rubs or
   gallops appreciated
   Abdomen:  Obese, +BS, no rebound/tenderness/guarding. Tender around PEG
   site.
   GU: Foley with clear yellow urine
   Ext: Dramatic edema. Dusky fingers, pale feet. Cool distally. Pulses
   difficult to palpate.
   Neurologic:  Communicative but unable to vocalize with tube.  Moves
   upper extremities spontaneously, no movement of lower extremity.
   Labs / Radiology
   252 K/uL
   11.4 g/dL
   132 mg/dL
   0.8 mg/dL
   21 mEq/L
   5.0 mEq/L
   44 mg/dL
   100 mEq/L
   136 mEq/L
   36.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
                             [**2120-1-31**]  03:16 AM
                             [**2120-2-1**]  04:08 AM
                             [**2120-2-1**]  06:50 PM
                             [**2120-2-1**]  11:31 PM
                             [**2120-2-2**]  03:49 AM
                             [**2120-2-2**]  04:01 AM
   WBC
   4.5
   5.3
   5.3
   6.0
   8.0
   11.9
   10.3
   8.6
   Hct
   25.5
   24.6
   26.3
   25.8
   27.7
   27.5
   32.6
   36.9
   Plt
   265
   230
   194
   [**Telephone/Fax (3) 11484**]
   343
   252
   Cr
   0.4
   0.3
   0.3
   0.2
   0.4
   0.3
   0.6
   0.8
   TCO2
   29
   25
   Glucose
   116
   120
   99
   100
   104
   111
   70
   132
   Other labs: PT / PTT / INR:13.9/40.9/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:84.0 %, Lymph:10.4 %, Mono:5.2 %, Eos:0.2 %,
   Fibrinogen:215 mg/dL, Lactic Acid:5.0 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR from this a.m.:
   Microbiology: No new. Acinetobacter and GPC, both sensitive to
   aminoglycoside and receiving plus tigecycline. Started linezolid
   empirically given suspicion for sepsis.
   ECG: Flutter.
   Assessment and Plan
   76 W w/ COPD, morbid obesity of BMI 74, spine fracture in context CPR
   s/p fixation, sepsis and wound collection, now new A. flutter,
   increased WBCs, fever and hypotension.
   # Hypotension
   Problem[**Name (NI) 1114**]. Near PEA last night.
   - Discuss with family
   - In the interim, continue fluids, pressors
   - Treat A. flutter with digoxin
   - Restart steroids - had just stopped - one dose of methylprednisolone
   125 mg IV and evaluate response
   # Sepsis/infection/fever/leukocytosis
   Covering GPCs and acinetobacter but increased WBC, fever, hypotension.
   Broadened, inelegantly to include linezolid last night. Possible
   collection. Top of the list: Collection in back or PICC line seeded.
   - Broad antibiotics d10 of tige/tobra and d1 of linezolid.
   - Stop tigecycline and start cefepime, continue tobramycin, started
   linezolid, requested micofungin.
   - If survives this period, then remove PICC and place midline/temporary
   central line
   - Consider CT torso to eval for collection.
   # A flutter
   Difficult to treat with sepsis/hypotension
   - If pressure returns, consider dilt/amio/esmalol/metoprolol or digoxin
   # Respiratory Failure
   Maintain PSV if possible (or AC if apneic). Try to minimise PEEP to
   help BP.
   # Spine fracture
   Stable with ESR 6, not consistent with osteo, but not great indicator.
   Stable.
   # Pain
   Consider removing fentanyl patch 100 micro (increased yesterday from
   75) given higher dose and now increased body temp (may be partly
   amerliorated by pressors and cool skin)
 team decided to leave for now
   given that it would take some time for mental status to clear.
   # COPD
   - Continue nebs.
   # Renal failure
   Very low urine output, secondary to poor perfusion pressure.
   # Previous Steroid / Question of Contextual Adrenal Insufficiency
   Given recent steroid use, stopped two days ago and now infection will
   restart high dose
   - Solu-Medrol 125 mg q8h IV
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2120-02-02 09:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic shock, s/p PEA arrest, T11
   fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Developed 3-pressor shock and anuria overnight.  Also febrile. Pt 9L
   positive since yest AM.  Linezolid added.  Currently tachy to the
   150s.  MV of 18.
   24 Hour Events:
 SPUTUM CULTURE - At [**2120-2-1**] 10:15 AM
 EKG - At [**2120-2-1**] 04:33 PM
 EKG - At [**2120-2-1**] 09:20 PM
 FEVER - 102.0
F - [**2120-2-2**] 04:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Hives;
   Sulfonamides
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2120-2-1**] 03:49 PM
   Linezolid - [**2120-2-2**] 01:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-1**] 03:49 PM
   Metoprolol - [**2120-2-1**] 10:50 PM
   Diltiazem - [**2120-2-2**] 12:42 AM
   Other medications:
   norepi gtt
   others per ICU resident team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: [**1-6**] Minimal
   Flowsheet Data as of  [**2120-2-2**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 153 (90 - 164) bpm
   BP: 61/56(58) {61/52(44) - 114/74(89)} mmHg
   RR: 35 (19 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 150 kg (admission): 152 kg
   Height: 69 Inch
           Total In:
                                                                  6,459 mL
                                                                  2,820 mL
   PO:
           TF:
                                                                    844 mL
                                                                      5 mL
   IVF:
                                                                  5,470 mL
                                                                  2,315 mL
   Blood products:
   500 mL
   Total out:
                                                                    368 mL
                                                                      0 mL
   Urine:
                                                                    368 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,091 mL
                                                                  2,820 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (324 - 528) mL
   PS : 15 cmH2O
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.29/50/367/21/-2
   Ve: 17.2 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: No(t) No acute distress, Tachypneic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, PEG site C/D/I
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   252 K/uL
   132 mg/dL
   0.8 mg/dL
   21 mEq/L
   5.0 mEq/L
   44 mg/dL
   100 mEq/L
   136 mEq/L
   36.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2120-1-27**]  03:25 AM
                             [**2120-1-28**]  03:14 AM
                             [**2120-1-29**]  03:38 AM
                             [**2120-1-30**]  03:39 AM
                             [**2120-1-31**]  03:16 AM
                             [**2120-2-1**]  04:08 AM
                             [**2120-2-1**]  06:50 PM
                             [**2120-2-1**]  11:31 PM
                             [**2120-2-2**]  03:49 AM
                             [**2120-2-2**]  04:01 AM
   WBC
   4.5
   5.3
   5.3
   6.0
   8.0
   11.9
   10.3
   8.6
   Hct
   25.5
   24.6
   26.3
   25.8
   27.7
   27.5
   32.6
   36.9
   Plt
   265
   230
   194
   [**Telephone/Fax (3) 11484**]
   343
   252
   Cr
   0.4
   0.3
   0.3
   0.2
   0.4
   0.3
   0.6
   0.8
   TCO2
   29
   25
   Glucose
   116
   120
   99
   100
   104
   111
   70
   132
   Other labs: PT / PTT / INR:13.9/40.9/1.2, CK / CKMB /
   Troponin-T:124/3/0.07, ALT / AST:19/18, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:84.0 %, Lymph:10.4 %, Mono:5.2 %, Eos:0.2 %,
   Fibrinogen:215 mg/dL, Lactic Acid:5.0 mmol/L, Albumin:2.5 g/dL, LDH:312
   IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
   76 yo F history of COPD on home oxygen, moderate to severe aortic
   stenosis and dCHF who presented to [**Location (un) 1415**] on [**2119-12-30**] with progressive
   dyspnea on exertion and cough productive of clear sputum transferred
   here after PEA arrest with evidence of unstable T11 fracture s/p fusion
   T6 to L4, laminectomy T12-L2 and s/p OR washout with difficulty weaning
   off vent, now s/p trach and PEG.  Now has developed 3-pressor septic
   shock with as yet undetermined source.
   #Septic shock: Potential sources include back wound, PEG, VAP, PICC
   -Linezolid/tobra/tigecycline
   -Re-culture blood
   -Cont pressors
   -Stress dose steroids
   #Acute renal failure/Anuria
   -Likely ATN
   -Given overall preponderance of problems, do not feel that CVVH would
   be indicated
   #Respiratory Failure:
   -High MV in setting of fevers and metabolic acidosis
   -Cont current PSV settings
   #Tachycardia
   -Sinus tach vs a-flutter
   -Tried on esmolol [**Last Name (un) **] overnight but that had extreme adverse effects
   on blood pressure
   # T6 to L4 Fusion, T12-L2 Laminectomy: Acenitobacter in wound
   - Tigecycline and tobramycin
   At this point, given this latest insult in combination with her prior
   insults her prognosis is very poor.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-1-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Have contact[**Name (NI) **] daughter [**Name (NI) 755**] and informed
   her of current poor clinical status and she will come in today.  Will
   ave further discussion with daughter re: goals of care.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Over the course of the day, Mrs [**Known lastname 5681**] has remained in 3 pressor shock
   with no urine output.  She has been becoming more academic as well.
   Her breathing pattern has become more  tachypneic and labored on the
   vent.  Met with the patient
s daughters, [**Name (NI) 755**] and [**Name (NI) 272**], several times
   throughout the day.  Given this current severe insult with minimal
   renal function in addition to her multiple other medical problems, her
   daughters decided to change her status to DNR/DNI earlier today.  We
   spoke further and will start to use morphine boluses for respiratory
   comfort even if that ultimately causes her blood pressure to be lower.
   Pt is critically ill.  Time spent 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2120-2-2**] 19:48 ------